2150-12-29 09:35:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pt well known to us, chronic resp failure s/p trach. Noted to have
   hypoxemia down to 70s overnight as well as obtundation. CXR and exam
   c/w mucous plugging. ABG 7.07 / 116 / 115. Suctioned tenacious
   secretions and given Narcan w/ increase in mental status
   24 Hour Events:
   Much more alert and interactive on ventilator this morning.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Peridex, midodrine, Epogen, Lansoprazole, Meropenem, simvastatin,
   lidocain patch, RISS, Colace, fentanyl, oxycodone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-29**] 09:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 107 (107 - 118) bpm
   BP: 93/53(60) {56/31(35) - 93/54(60)} mmHg
   RR: 22 (17 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                  150 mL
   PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    150 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 302 (302 - 302) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: FiO2 > 60%
   PIP: 16 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 100%
   ABG: ////
   Ve: 10.1 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: R base)
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, minimally responsive
   Labs / Radiology
   8.0 g/dL
   314 K/uL
   86 mg/dL
   2.3 mg/dL
   29 mEq/L
   5.2 mEq/L
   31 mg/dL
   103 mEq/L
   139 mEq/L
   26.2 %
   10.5 K/uL
        [image002.jpg]
                             [**2150-12-25**]  01:13 AM
                             [**2150-12-29**]  07:48 AM
   WBC
   10.7
   10.5
   Hct
   25.4
   26.2
   Plt
   187
   314
   Cr
   2.3
   Glucose
   86
   Other labs: Differential-Neuts:68.5 %, Band:0.0 %, Lymph:20.9 %,
   Mono:9.0 %, Eos:1.4 %, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR- B effusions, incr edema, ? RLL infiltrate
   Assessment and Plan
   CHRONIC RESPIRATORY FAILURE- worsened hypoventilatory failure yest pm
   related to somnolence, hypooxemia exac by poss mucous plugging.
   -back to trach mask when more awake
   -poss component of obesity hypoventilation syndrome
   -cont NIPPV at night, formal polysomnogram at some point
   -may be a chronic CO2 retainer; if so, then over-correction of O2 sat
   may suppress drive to breathe and worsen hypercapnic failure
   -pulm toilet
   ESRD on HD- stable, cont meds and MWF HD
   -chr hypotension stable on midrodrine
   PAIN CONTROL- Pall Care svce following. Would favor short-acting
   analgesia given propensity for resp failure
   -if NIPPV used may help protect against hypoventilation assoc with
   sedation
   STAGE IV COCCYGEAL SKIN BREAKDOWN- poss diverting colostomy per [**Doctor First Name **] to
   aid healing
   -cont wound care
   -meropenem through [**1-11**] for wound infxn
   AFIB- rate-controlled, on coumadin
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: SQ UF Heparin, LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2150-12-30 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Family agreed to diverting colostomy, Dr. [**Last Name (STitle) 7470**] was notified
   - Ethics Consult was requested regarding decision for diverting
   colostomy
   This am the patient continues to have pain due to his coccygeal ulcer.
   Denies other complaints.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2150-12-29**] 08:10 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2150-12-29**] 08:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-30**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.4
   HR: 87 (83 - 107) bpm
   BP: 86/42(54) {86/40(51) - 106/82(88)} mmHg
   RR: 33 (13 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    996 mL
                                                                    406 mL
   PO:
                  TF:
                                                                    396 mL
                                                                    356 mL
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    996 mL
                                                                    406 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 302 (302 - 302) mL
   PS : 10 cmH2O
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///29/
   Ve: 10.1 L/min
   Physical Examination
   General Appearance: Elderly, obese male lying in bed on a trach mask.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Trach
   Cardiovascular: RRR, no MRG
   Respiratory / Chest:  CTAB
   Abdominal: Soft, Bowel sounds present, NTND, obese
   Extremities: Rt BKA, Left leg and foot dusky with 1+ edema present
   Neurologic: Attentive, Follows commands.
   Labs / Radiology
   295 K/uL
   8.3 g/dL
   95 mg/dL
   2.3 mg/dL
   29 mEq/L
   4.5 mEq/L
   27 mg/dL
   111 mEq/L
   148 mEq/L
   27.2 %
   8.9 K/uL
        [image002.jpg]
                             [**2150-12-25**]  01:13 AM
                             [**2150-12-29**]  07:48 AM
                             [**2150-12-30**]  04:36 AM
   WBC
   10.7
   10.5
   8.9
   Hct
   25.4
   26.2
   27.2
   Plt
   187
   314
   295
   Cr
   2.3
   1.8
   2.3
   Glucose
   86
   140
   95
   Other labs: PT / PTT / INR:56.1/85.6/6.6, Differential-Neuts:68.5 %,
   Band:0.0 %, Lymph:20.9 %, Mono:9.0 %, Eos:1.4 %, Ca++:7.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.4 mg/dL
   [1][**2150-12-26**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [2][**2150-12-26**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [3][**2150-12-26**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [4][**2150-12-25**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [5][**2150-12-23**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {PSEUDOMONAS AERUGINOSA,
   ACINETOBACTER BAUMANNII COMPLEX}
   Assessment and Plan
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now is transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure.
   # Stage IV coccygeal ulcer - Plastic surgery and ID following.
   Continuously contaminated with fecal matter and plan was for colostomy
   until pt and family declined.  The recommedation for a colostomy was
   again addressed yesterday during a family meeting and the family agreed
   to consider the procedure.  Due to some concern about the patient
   wishes regarding the colostomy, an ethics consult was recalled and will
   examine the situation.
   - Continue wound care.
   - Continue broad spectrum abxs with meropenem.
   - Pain control with lidocaine patches, fentanyl patch; minimize
   narcotic use.
   - The surgery team was consulted yesterday to evaluate him for
   diverting colostomy.  He had been previously evaluated, but at the time
   the family did not want to proceed with the operation.  Will have them
   reevaluate and will meeting with the family as a group to discuss the
   surgery.  Appreciate consult and will f/u recs.
   - Appreciate ethics consult, will f/u recs.
   # Hypercarbic Respiratory Failure: Pt noted prior to transfer to have
   oxygen sats in the 70s and copious, thick secretions. ABG was
   significant for a pH of 7.07 and pCO2 of 116. Most likely inciting
   event was mucous plugging +/- volume overload.  He is not back on his
   trach mask satting in the high 90
   - Continue trach mask support.
   # Hypernatremia:  The patient
s Na increased to 148 this am from 146.
   He was only getting 50 cc of free water q8h with his tube feeds.
   - Will increase the free water flushes to 150 cc q4h and recheck his Na
   in the evening.
   # Supratherapeutic INR: The patient is on coumadin for a.fib, however
   this has been held because he is supratherapeutic.  INR today was 6.6.
   - Will given 10 mg IV Vit K x 1 for correction of his INR.  Once <2,
   will start a heparin gtt in anticipation of surgery.
   # Hypotension: Stable; pt's SBPs have run in 80s systolic through this
   prolonged hospital course.
   - continue midodrine
   # ESRD: On HD, [**1-18**] to diabetic nephropathy. Although HD line has
   surrounding erythema, per renal, has had this stable appearance with
   negative blood cxs.
   - Continue to monitor HD line site exam
   - f/u renal recs
   # Anemia - Most likely [**1-18**] to ESRD, HCT stable. Will transfuse for goal
   HCT > 21. Getting epo at HD.
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
   # Atrial Fibrillation: No active issues.
   - Off nodal agents until BPs can better tolerate.
   # Type II DM: Continue ISS and Lantus.
   # R BKA/PVD:
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   # FEN: continue TF with increase in free water as above, replete lytes
   PRN
   # Comm: [**Name (NI) 53**] and son
   ICU [**Name (NI) **]
   Nutrition:
   [**Name (NI) 7471**] HN (Full) - [**2150-12-30**] 04:31 AM 60 mL/hour; renal
   recommended increasing the Phos in his tube feeds, however he is
   getting the tube feeds with the highest level of phos currently so will
   have to replete prn with neutraphos.
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now while the discussion regarding longterm goals/
   plan for diverting colostomy is ongoing
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);

2150-12-30 11:43:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   family mtg yest where fam agreeable to diverting colostomy to aid Stge
   IV wound healing. tolerating trach mask.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2150-12-29**] 08:10 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2150-12-29**] 08:10 PM
   Other medications:
   Peridex, Midodrine, Epogen, Prevacid, Simvastatin, lidocaine patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-30**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 85 (83 - 97) bpm
   BP: 106/45(59) {86/40(51) - 106/82(88)} mmHg
   RR: 25 (13 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    996 mL
                                                                    921 mL
   PO:
                  TF:
                                                                    396 mL
                                                                    601 mL
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    996 mL
                                                                    921 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   295 K/uL
   95 mg/dL
   2.3 mg/dL
   29 mEq/L
   4.5 mEq/L
   27 mg/dL
   111 mEq/L
   148 mEq/L
   27.2 %
   8.9 K/uL
        [image002.jpg]
                             [**2150-12-25**]  01:13 AM
                             [**2150-12-29**]  07:48 AM
                             [**2150-12-30**]  04:36 AM
   WBC
   10.7
   10.5
   8.9
   Hct
   25.4
   26.2
   27.2
   Plt
   187
   314
   295
   Cr
   2.3
   1.8
   2.3
   Glucose
   86
   140
   95
   Other labs: PT / PTT / INR:56.1/85.6/6.6, Differential-Neuts:68.5 %,
   Band:0.0 %, Lymph:20.9 %, Mono:9.0 %, Eos:1.4 %, Ca++:7.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.4 mg/dL
   Microbiology: Sputum- Acenitobacter, Pseudomonas ([**12-23**])
   Assessment and Plan
   CHRONIC RESPIRATORY FAILURE- worsened hypoventilatory failure yest pm
   related to somnolence, hypooxemia exac by poss mucous plugging.
   -back to trach mask when more awake
   -poss component of obesity hypoventilation syndrome
   -cont NIPPV at night, formal polysomnogram at some point
   -may be a chronic CO2 retainer; if so, then over-correction of O2 sat
   may suppress drive to breathe and worsen hypercapnic failure
   -pulm toilet
   STAGE IV COCCYGEAL SKIN BREAKDOWN- poss diverting colostomy per [**Doctor First Name **] to
   aid healing
   -cont wound care
   -meropenem through [**1-11**] for wound infxn
    ESRD on HD- stable, cont meds and MWF HD
   -chr hypotension stable on midrodrine
   PAIN CONTROL- Pall Care svce following. Would favor short-acting
   analgesia given propensity for resp failure
   -if NIPPV used may help protect against hypoventilation assoc with
   sedation
   AFIB- rate-controlled, on coumadin which is held due to suprather INR
   HYPERNATREMIA- free water deficit --> incr free H20 flushes and follow
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held  Comments: Family and patient in
   agreement with proceeding to diverting colostomy. Spoke with surgical
   staff who will see him, obtain consent and arrange for OR time.
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes

2150-12-31 05:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Vitamin K 10 mg IV x 1 given for supratherapeutic INR.
   - Surgery team contact[**Name (NI) **] to orchaestrate meeting with family.
   - Ethics consult offered two acceptable medical options: 1.  Treat
   everything (including doing a colostomy) or 2.  Optomize quality of
   life.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2150-12-30**] 10:00 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2150-12-30**] 03:00 PM
   Dextrose 50% - [**2150-12-30**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-31**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 90 (81 - 95) bpm
   BP: 101/54(66) {82/35(49) - 126/73(82)} mmHg
   RR: 36 (11 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,236 mL
                                                                    451 mL
   PO:
             TF:
                                                                  1,511 mL
                                                                    421 mL
   IVF:
                                                                    200 mL
                                                                     30 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,236 mL
                                                                    451 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 99%
   ABG: ///31/
   Ve: 10.3 L/min
   Physical Examination
   General Appearance: Elderly, obese male lying in bed on a trach mask.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Trach
   Cardiovascular: RRR, no MRG
   Respiratory / Chest:  CTAB
   Abdominal: Soft, Bowel sounds present, NTND, obese
   Extremities: Rt BKA, Left leg and foot dusky with 1+ edema present
   Neurologic: Attentive, Follows commands.
   Labs / Radiology
   337 K/uL
   7.6 g/dL
   109 mg/dL
   1.5 mg/dL
   31 mEq/L
   4.0 mEq/L
   17 mg/dL
   105 mEq/L
   142 mEq/L
   24.2 %
   8.2 K/uL
        [image002.jpg]
                             [**2150-12-25**]  01:13 AM
                             [**2150-12-29**]  07:48 AM
                             [**2150-12-30**]  04:36 AM
                             [**2150-12-30**]  09:50 PM
                             [**2150-12-31**]  03:55 AM
   WBC
   10.7
   10.5
   8.9
   8.2
   Hct
   25.4
   26.2
   27.2
   24.2
   Plt
   187
   314
   295
   337
   Cr
   2.3
   1.8
   2.3
   1.2
   1.5
   Glucose
   86
   140
   95
   51
   109
   Other labs: PT / PTT / INR:17.9/39.5/1.6, Differential-Neuts:68.5 %,
   Band:0.0 %, Lymph:20.9 %, Mono:9.0 %, Eos:1.4 %, Ca++:7.6 mg/dL,
   Mg++:1.7 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now is transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure.
   # Stage IV coccygeal ulcer - Plastic surgery and ID following.
   Continuously contaminated with fecal matter and plan was for colostomy
   until pt and family declined.  The recommedation for a colostomy was
   again addressed yesterday during a family meeting and the family agreed
   to consider the procedure.  Due to some concern about the patient
   wishes regarding the colostomy, an ethics consult was recalled and will
   examine the situation.
   - Continue wound care.
   - Continue broad spectrum abxs with meropenem.
   - Pain control with lidocaine patches, fentanyl patch; minimize
   narcotic use.
   - The surgery team was consulted yesterday to evaluate him for
   diverting colostomy.  He had been previously evaluated, but at the time
   the family did not want to proceed with the operation.  Will have them
   reevaluate and will meeting with the family as a group to discuss the
   surgery.  Appreciate consult and will f/u recs.
   - Appreciate ethics consult, will f/u recs.
   # Hypercarbic Respiratory Failure: Pt noted prior to transfer to have
   oxygen sats in the 70s and copious, thick secretions. ABG was
   significant for a pH of 7.07 and pCO2 of 116. Most likely inciting
   event was mucous plugging +/- volume overload.  He is not back on his
   trach mask satting in the high 90
   - Continue trach mask support.
   # Hypernatremia:  The patient
s Na increased to 148 this am from 146.
   He was only getting 50 cc of free water q8h with his tube feeds.
   - Will increase the free water flushes to 150 cc q4h and recheck his Na
   in the evening.
   # Supratherapeutic INR: The patient is on coumadin for a.fib, however
   this has been held because he is supratherapeutic.  INR today was 6.6.
   - Will given 10 mg IV Vit K x 1 for correction of his INR.  Once <2,
   will start a heparin gtt in anticipation of surgery.
   # Hypotension: Stable; pt's SBPs have run in 80s systolic through this
   prolonged hospital course.
   - continue midodrine
   # ESRD: On HD, [**1-18**] to diabetic nephropathy. Although HD line has
   surrounding erythema, per renal, has had this stable appearance with
   negative blood cxs.
   - Continue to monitor HD line site exam
   - f/u renal recs
   # Anemia - Most likely [**1-18**] to ESRD, HCT stable. Will transfuse for goal
   HCT > 21. Getting epo at HD.
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
   # Atrial Fibrillation: No active issues.
   - Off nodal agents until BPs can better tolerate.
   # Type II DM: Continue ISS and Lantus.
   # R BKA/PVD:
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   # FEN: continue TF with increase in free water as above, replete lytes
   PRN
   # Comm: [**Name (NI) 53**] and son
   ICU [**Name (NI) **]
   Nutrition:
   [**Name (NI) 7471**] HN (Full) - [**2150-12-31**] 01:49 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-12-31 11:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No new pain today. No other complaints. On BiPAP overnight.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2150-12-31**] 08:08 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2150-12-30**] 03:00 PM
   Dextrose 50% - [**2150-12-30**] 11:30 PM
   Other medications:
   Peridex, midodrine, epogen, Prevacid, simvastatin, lidocaine patch,
   Lantus, Colace, oxycodone prn, fentanyl prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-12-31**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 86 (81 - 95) bpm
   BP: 96/44(56) {82/35(49) - 126/73(82)} mmHg
   RR: 22 (11 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,236 mL
                                                                  1,127 mL
   PO:
             TF:
                                                                  1,511 mL
                                                                    763 mL
   IVF:
                                                                    200 mL
                                                                    154 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,236 mL
                                                                  1,127 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 97%
   ABG: ///31/
   Ve: 10.3 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   337 K/uL
   109 mg/dL
   1.5 mg/dL
   31 mEq/L
   4.0 mEq/L
   17 mg/dL
   105 mEq/L
   142 mEq/L
   24.2 %
   8.2 K/uL
        [image002.jpg]
                             [**2150-12-25**]  01:13 AM
                             [**2150-12-29**]  07:48 AM
                             [**2150-12-30**]  04:36 AM
                             [**2150-12-30**]  09:50 PM
                             [**2150-12-31**]  03:55 AM
   WBC
   10.7
   10.5
   8.9
   8.2
   Hct
   25.4
   26.2
   27.2
   24.2
   Plt
   187
   314
   295
   337
   Cr
   2.3
   1.8
   2.3
   1.2
   1.5
   Glucose
   86
   140
   95
   51
   109
   Other labs: PT / PTT / INR:17.9/39.5/1.6, Differential-Neuts:68.5 %,
   Band:0.0 %, Lymph:20.9 %, Mono:9.0 %, Eos:1.4 %, Ca++:7.6 mg/dL,
   Mg++:1.7 mg/dL, PO4:1.3 mg/dL
   Microbiology: Sputum ([**12-26**])- contaminated
   Sputum ([**12-23**])- Pseudomonas
   Bld Cx ([**12-25**], [**12-26**])- neg to date
   ECG: Tele- no events
   Assessment and Plan
   CHRONIC RESPIRATORY FAILURE- hypoventilatory failure related to
   somnolence, hypooxemia exac by poss mucous plugging.
   -back to trach mask now
   -poss component of obesity hypoventilation syndrome, so cont NIPPV at
   night, formal polysomnogram at some point
   -may be a chronic CO2 retainer; if so, then over-correction of O2 sat
   may suppress drive to breathe and worsen hypercapnic failure
   -pulm toilet
   STAGE IV COCCYGEAL SKIN BREAKDOWN- poss diverting colostomy per [**Doctor First Name **] to
   aid healing
   -cont wound care, awaiting [**Doctor First Name **] discussion w/ family
   -meropenem through [**1-11**] for wound infxn
    ESRD on HD- stable, cont meds and MWF HD
   -chr hypotension stable on midrodrine
   PAIN CONTROL- Pall Care svce following. Would favor short-acting
   analgesia given propensity for resp failure
   -if NIPPV used may help protect against hypoventilation assoc with
   sedation
   -ok to use fentanyl patch and up-titrate dose slowly
   AFIB- rate-controlled, back on heparin gtt now that INR subtherapeutic.
   No coumadin till after poss [**Doctor First Name **]
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2150-12-31**] 01:49 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2151-01-01 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Spoke to surgery OR time won
t be available until next week
   - Pt started on heparin gtt yesterday
   - Surgery will be by in the AM, left VM on son
s cell phone
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2150-12-31**] 08:00 PM
   Infusions:
   Heparin Sodium - 1,950 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2150-12-31**] 08:00 PM
   Fentanyl - [**2151-1-1**] 06:48 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-1**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 78 (72 - 89) bpm
   BP: 98/48(60) {89/40(54) - 113/92(98)} mmHg
   RR: 13 (11 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,700 mL
                                                                    988 mL
   PO:
             TF:
                                                                  1,689 mL
                                                                    512 mL
   IVF:
                                                                    541 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,400 mL
                                                                    988 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 604 (253 - 604) mL
   PS : 10 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 36
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: Elderly, obese male lying in bed on vent
   Cardiovascular: RRR, no MRG
   Respiratory / Chest:  CTAB
   Abdominal: Soft, Bowel sounds present, NTND, obese
   Extremities: Rt BKA, Left leg and foot dusky with 1+ edema present
   Neurologic: Attentive, Follows commands.
   Labs / Radiology
   337 K/uL
   8.0 g/dL
   92 mg/dL
   2.1 mg/dL
   30 mEq/L
   5.3 mEq/L
   30 mg/dL
   104 mEq/L
   140 mEq/L
   26.2 %
   11.1 K/uL
        [image002.jpg]
                             [**2150-12-25**]  01:13 AM
                             [**2150-12-29**]  07:48 AM
                             [**2150-12-30**]  04:36 AM
                             [**2150-12-30**]  09:50 PM
                             [**2150-12-31**]  03:55 AM
                             [**2150-12-31**]  04:56 PM
                             [**2151-1-1**]  06:33 AM
   WBC
   10.7
   10.5
   8.9
   8.2
   11.1
   Hct
   25.4
   26.2
   27.2
   24.2
   26.8
   26.2
   Plt
   187
   314
   295
   337
   337
   Cr
   2.3
   1.8
   2.3
   1.2
   1.5
   2.1
   Glucose
   86
   140
   95
   51
   109
   92
   Other labs: PT / PTT / INR:17.9/50.3/1.6, Differential-Neuts:68.5 %,
   Band:0.0 %, Lymph:20.9 %, Mono:9.0 %, Eos:1.4 %, Ca++:7.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now is transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure.
   # Stage IV coccygeal ulcer - Plastic surgery and ID following.
   Continuously contaminated with fecal matter and plan was for colostomy
   until pt and family declined.  The recommedation for a colostomy was
   again addressed during a family meeting and the family agreed to
   consider the procedure.  An ethical consult was obtained as previously
   mentioned, surgery will either see him today or tomorrow AM to discuss
   the surgery.
   - Continue wound care.
   - Continue broad spectrum abxs with meropenem.
   - Pain control with lidocaine patches. Will start fentanyl patch; will
   caution increasing Oxycodone given his history hypercapneic respiratory
   failure [**1-18**] narcotic use.
   - Surgery will see him today or tomorrow to discuss the procedure with
   him.
   # Hypercarbic Respiratory Failure: Pt noted prior to transfer to have
   oxygen sats in the 70s and copious, thick secretions. ABG was
   significant for a pH of 7.07 and pCO2 of 116. Most likely inciting
   event was mucous plugging +/- volume overload.  He is not back on his
   trach mask satting in the high 90
   - Continue trach mask support.
   - BiPAP at night
   - Caution narcotic use as this is responsible for his hypercarbic
   respiratory failure
   # Supratherapeutic INR: The patient is on coumadin for a.fib, however
   this has been held because he is supratherapeutic.  INR today was 1.6.
   -          Pt received 10 mg IV Vit K last night
   -          Will keep pt on Heparin gtt as he is likely to undergo
   surgery. Will restart Coumadin after surgery.
   # Hypotension: Stable; pt's SBPs have run in 80s systolic through this
   prolonged hospital course.
   - continue midodrine
   # ESRD: On HD, [**1-18**] to diabetic nephropathy. Although HD line has
   surrounding erythema, per renal, has had this stable appearance with
   negative blood cxs.
   - Continue to monitor HD line site exam
   - f/u renal recs
   # Anemia - Most likely [**1-18**] to ESRD, HCT stable. Will transfuse for goal
   HCT > 21. Getting epo at HD.
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
   # Atrial Fibrillation: No active issues.
   -          Off nodal agents until BPs can better tolerate.
   -          Pt currently off of Coumadin in anticipation of OR, will
   continue on Heparin gtt
   # Type II DM:  Pt noted to have a low glc on PM labs yesterday, unclear
   as to why as his TF were not stopped. Will likely decrease his Lantus
   today and continue to monitor his CBGs.
   # R BKA/PVD:
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   # FEN: continue TF with increase in free water as above, replete lytes
   PRN
   # Comm: [**Name (NI) 53**] and son
   ICU [**Name (NI) **]
   Nutrition:
   [**Name (NI) 7471**] HN (Full) - [**2151-1-1**] 04:18 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-01-02 06:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Dr. [**Last Name (STitle) 3336**] spoke to family about the surgery to place a colostomy.
   Patient has been added on to the schedule for surgery on Wednesday.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2151-1-1**] 08:03 PM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-1-1**] 08:03 PM
   Fentanyl - [**2151-1-1**] 11:50 PM
   Lorazepam (Ativan) - [**2151-1-2**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-2**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 94 (79 - 103) bpm
   BP: 99/52(62) {53/35(44) - 109/58(70)} mmHg
   RR: 25 (15 - 41) insp/[**Year (4 digits) **]
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  3,663 mL
                                                                    609 mL
   PO:
             TF:
                                                                  1,759 mL
                                                                    486 mL
   IVF:
                                                                    684 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,663 mL
                                                                    609 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 376 (376 - 578) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 90
   PIP: 15 cmH2O
   SpO2: 96%
   ABG: ////
   Ve: 10.4 L/[**Year (4 digits) **]
   Physical Examination
   General Appearance: Elderly, obese male lying in bed on vent
   HEENT: Trach collar in place, OP clear
   Cardiovascular: RRR, no MRG
   Pulmonary: Decreased breath sounds anteriorly, otherwise clear.
   Abdominal: Soft, Bowel sounds present, NTND, obese
   Extremities: Rt BKA, Left leg and foot dusky with 2+ b/l upper edema
   present
   Neurologic: Attentive, Follows commands.
   Labs / Radiology
   337 K/uL
   8.0 g/dL
   92 mg/dL
   2.1 mg/dL
   30 mEq/L
   5.3 mEq/L
   30 mg/dL
   104 mEq/L
   140 mEq/L
   26.2 %
   11.1 K/uL
        [image002.jpg]
                             [**2150-12-25**]  01:13 AM
                             [**2150-12-29**]  07:48 AM
                             [**2150-12-30**]  04:36 AM
                             [**2150-12-30**]  09:50 PM
                             [**2150-12-31**]  03:55 AM
                             [**2150-12-31**]  04:56 PM
                             [**2151-1-1**]  06:33 AM
   WBC
   10.7
   10.5
   8.9
   8.2
   11.1
   Hct
   25.4
   26.2
   27.2
   24.2
   26.8
   26.2
   Plt
   187
   314
   295
   337
   337
   Cr
   2.3
   1.8
   2.3
   1.2
   1.5
   2.1
   Glucose
   86
   140
   95
   51
   109
   92
   Other labs: PT / PTT / INR:17.9/47.1/1.6, Differential-Neuts:68.5 %,
   Band:0.0 %, Lymph:20.9 %, Mono:9.0 %, Eos:1.4 %, Ca++:7.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   [1][**2150-12-26**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [2][**2150-12-26**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   INPATIENT
   [3][**2150-12-26**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   INPATIENT
   [4][**2150-12-25**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   INPATIENT
   [5][**2150-12-23**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {PSEUDOMONAS AERUGINOSA,
   ACINETOBACTER BAUMANNII COMPLEX}
   INPATIENT
   Assessment and Plan
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now is transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure.
   # Stage IV coccygeal ulcer - Plastic surgery and ID following.
   Continuously contaminated with fecal matter and plan was for colostomy
   until pt and family declined.  The recommedation for a colostomy was
   again addressed during a family meeting and the family agreed to
   consider the procedure.  Surgery evaluated him and agreed to do the
   surgery and have added him on the schedule for Wednesday.
   - Continue wound care.
   - Continue broad spectrum abxs with meropenem.
   - Pain control with fentanyl patchs; will caution increasing Oxycodone
   given his history hypercapneic respiratory failure [**1-18**] narcotic use.
   - Surgery planned for Wenesday.
   # Hypercarbic Respiratory Failure: Pt noted prior to transfer to have
   oxygen sats in the 70s and copious, thick secretions. Pt currently
   transitioned to trach mask during the day and Bipap at night.  He
   continues to do well on these settings.
   - Continue trach mask support.
   - BiPAP at night
   - Caution narcotic use as this is responsible for his hypercarbic
   respiratory failure.  As the patient is still having pain through his
   current doses of narcotics, will increase his pain medications for
   dressing changes and provide ventilatory support prn if repiratory
   depression occurs.
   # Hypotension: Stable; pt's SBPs have run in 80s systolic through this
   prolonged hospital course.
   - continue midodrine
   # ESRD: On HD, [**1-18**] to diabetic nephropathy. Although HD line has
   surrounding erythema, per renal, has had this stable appearance with
   negative blood cxs.
   - Continue to monitor HD line site exam
   - f/u renal recs
   # Anemia - Most likely [**1-18**] to ESRD, HCT stable. Will transfuse for goal
   HCT > 21. Getting epo at HD.
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
   # Atrial Fibrillation: No active issues.
   - Off nodal agents until BPs can better tolerate.
   - Pt currently off of Coumadin in anticipation of OR, will continue on
   Heparin gtt
   # Type II DM:
   - Continue lanuts and SSI with qid fingersticks.
   # R BKA/PVD:
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   # FEN: continue TF, replete lytes PRN
   # Comm: [**Name (NI) 53**] and son
   ICU [**Name (NI) **]
   Nutrition:
   [**Name (NI) 7471**] HN (Full) - [**2151-1-1**] 11:17 PM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: heparin gtt as above
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Appreciate Dr [**Last Name (STitle) 3336**]
s input regarding diverting colostomy which is
   tentatively scheduled for next week. He continues to need IV fentanyl
   for dressing changes to his wound.
   Exam notable for obese [**Male First Name (un) **] in mild respiratory distress. Tm of 98.9 BP
   99/52 HR of 94 RR of 24 with sats of 95% on 50% FiO2.  he has
   expiratory wheezing to exam and anasarca with malodorous discharge from
   sacral wound. Labs notable for WBC 11.1 K, HCT of 26.2 , K+ of 5.3 ,
   Cr  of 2.1. No new culture data ( on Meropenem and ? Daptomycin).
   Agree with plan to support with Iv Antibiotics and dressing changes
   until surgery completed. He is frail form both respiratory and
   hemodynamic standpoints for surgery but that may be the only option for
   allowing his wound to heal. He and his family have discussed this with
   Dr [**Last Name (STitle) 3336**]. We will tarnsfur to Hct of 27 in anticipation of surgical
   procdure next week. Plans for HD in am [**2151-1-3**] noted.
   Remainder of plan as outlined above.
   Patient is critically ill and needs ICU level care on account of
   nursing needs
   Total time: 50 [**First Name8 (NamePattern2) **]
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 1973**], M.D. Division of Pulmonary and Critical Care Medicine,
   [**Hospital1 54**], [**Location (un) 7530**], [**Location (un) 223**], [**Numeric Identifier 4370**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2151-1-2**] 02:57 PM ------
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);

2151-01-03 06:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Per the surgery's team notes, the patient has been added on for
   surgery on Wednesday.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2151-1-2**] 08:00 PM
   Infusions:
   Heparin Sodium - 1,275 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-1-2**] 08:00 PM
   Fentanyl - [**2151-1-3**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-3**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98.1
   HR: 80 (79 - 97) bpm
   BP: 100/48(59) {61/25(46) - 110/82(86)} mmHg
   RR: 23 (12 - 39) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,238 mL
                                                                    932 mL
   PO:
             TF:
                                                                  1,719 mL
                                                                    480 mL
   IVF:
                                                                    739 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,938 mL
                                                                    932 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: Elderly, obese male lying in bed on vent
   HEENT: Trach collar in place, OP clear
   Cardiovascular: RRR, no MRG
   Pulmonary: Decreased breath sounds anteriorly, otherwise clear.
   Abdominal: Soft, Bowel sounds present, NTND, obese
   Extremities: Rt BKA, Left leg and foot dusky with 2+ b/l upper edema
   present
   Neurologic: Attentive, Follows commands.
   Labs / Radiology
   321 K/uL
   7.5 g/dL
   103 mg/dL
   1.7 mg/dL
   28 mEq/L
   4.4 mEq/L
   22 mg/dL
   103 mEq/L
   140 mEq/L
   24.7 %
   12.1 K/uL
        [image002.jpg]
                             [**2150-12-25**]  01:13 AM
                             [**2150-12-29**]  07:48 AM
                             [**2150-12-30**]  04:36 AM
                             [**2150-12-30**]  09:50 PM
                             [**2150-12-31**]  03:55 AM
                             [**2150-12-31**]  04:56 PM
                             [**2151-1-1**]  06:33 AM
                             [**2151-1-2**]  06:41 AM
   WBC
   10.7
   10.5
   8.9
   8.2
   11.1
   12.1
   Hct
   25.4
   26.2
   27.2
   24.2
   26.8
   26.2
   24.7
   Plt
   187
   314
   295
   [**Telephone/Fax (3) 7536**]
   Cr
   2.3
   1.8
   2.3
   1.2
   1.5
   2.1
   1.7
   Glucose
   86
   140
   95
   51
   109
   92
   103
   Other labs: PT / PTT / INR:16.8/41.9/1.5, Differential-Neuts:68.5 %,
   Band:0.0 %, Lymph:20.9 %, Mono:9.0 %, Eos:1.4 %, Ca++:8.1 mg/dL,
   Mg++:1.6 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now is transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure.
   # Stage IV coccygeal ulcer - Plastic surgery and ID following.
   Continuously contaminated with fecal matter and plan was for colostomy
   until pt and family declined.  The recommedation for a colostomy was
   again addressed during a family meeting and the family agreed to
   consider the procedure.  Surgery evaluated him and agreed to do the
   surgery and have added him on the schedule for Wednesday.
   - Continue wound care.
   - Continue broad spectrum abxs with meropenem
   - Pain control with fentanyl patchs; will caution increasing Oxycodone
   given his history hypercapneic respiratory failure [**1-18**] narcotic use.
   - Surgery planned for Wenesday
 will touch base with surgery to
   confirm this
   # Hypercarbic Respiratory Failure: Pt noted prior to transfer to have
   oxygen sats in the 70s and copious, thick secretions. Pt currently
   transitioned to trach mask during the day and Bipap at night.  He
   continues to do well on these settings.
   - Continue trach mask support.
   - BiPAP at night
   - Caution narcotic use as this is responsible for his hypercarbic
   respiratory failure.  As the patient is still having pain through his
   current doses of narcotics, will increase his pain medications for
   dressing changes and provide ventilatory support prn if repiratory
   depression occurs.
   # Hypotension: Stable; pt's SBPs have run in 80s systolic through this
   prolonged hospital course.
   - continue midodrine
   # ESRD: On HD, [**1-18**] to diabetic nephropathy. Although HD line has
   surrounding erythema, per renal, has had this stable appearance with
   negative blood cxs.
   - HD tomorrow
   - Continue to monitor HD line site exam
   - f/u renal recs
   # Anemia - Most likely [**1-18**] to ESRD, HCT stable. Will transfuse for goal
   HCT > 21. Getting epo at HD.
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
   # Atrial Fibrillation: No active issues.
   - Off nodal agents until BPs can better tolerate.
   - Pt currently off of Coumadin in anticipation of OR, will continue on
   Heparin gtt
   # Osteomyelitis:  No active issues
   - continue meropenem, ID following peripherally
   # Type II DM:
   - Continue lanuts and SSI with qid fingersticks.
   # R BKA/PVD:
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   # FEN: continue TF, replete lytes PRN
   # Comm: [**Name (NI) 53**] and son
   ICU [**Name (NI) **]
   Nutrition:
   [**Name (NI) 7471**] HN (Full) - [**2151-1-3**] 04:37 AM 70 mL/hour
   Glycemic Control:  SSI
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: on heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mr [**Known lastname 6547**] has needed IV fentanyl for dressing changes but no escalation
   in basal dose. He awaits surgery next week for diverting colostomy.
   Exam notable for obese [**Male First Name (un) **] on trach collar Tm of 99.5 BP of 105/65 HR of
   83 RR of 24 with sats of 95% . He does have expiratory wheeze to exam
   in all lung fields..
   Labs notable for WBC  14.1K, HCT of 25.5  ,Cr of 2.2 , lactate.
   Agree with plan to continue supportive care, dressing changes and as
   needed ventilatory assist. He will need HD in next 24 hrs
   Remainder of plan as outlined above.
   Patient is stable but ill requiring ICu level nursing care.
   Total time: 20 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2151-1-3**] 12:28 PM ------

2151-01-04 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - per nurse who spoke with family, family is still deciding about
   surgery and will have a final answer Monday or Tuesday
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2151-1-3**] 08:00 PM
   Infusions:
   Heparin Sodium - 1,425 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-1-3**] 08:00 AM
   Heparin Sodium - [**2151-1-3**] 08:30 AM
   Fentanyl - [**2151-1-4**] 04:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-4**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.2
   HR: 78 (76 - 84) bpm
   BP: 94/39(52) {88/37(49) - 111/71(77)} mmHg
   RR: 24 (20 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  3,328 mL
                                                                    937 mL
   PO:
             TF:
                                                                  1,697 mL
                                                                    482 mL
   IVF:
                                                                    731 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    500 mL
   Urine:
   NG:
   Stool:
   500 mL
   Drains:
   Balance:
                                                                  3,328 mL
                                                                    437 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: Elderly, obese male lying in bed on vent
   Cardiovascular: RRR, no MRG
   Pulmonary: Course bronchial sound noted in upper airway
   Abdominal: Soft, Bowel sounds present, NTND, obese
   Extremities: Rt BKA, Left leg and foot dusky with 2+ b/l upper edema
   present
   Neurologic: Attentive, Follows commands.
   Labs / Radiology
   321 K/uL
   7.5 g/dL
   44 mg/dL
   2.8 mg/dL
   28 mEq/L
   5.8 mEq/L
   43 mg/dL
   100 mEq/L
   135 mEq/L
   24.1 %
   13.4 K/uL
        [image002.jpg]
                             [**2150-12-25**]  01:13 AM
                             [**2150-12-29**]  07:48 AM
                             [**2150-12-30**]  04:36 AM
                             [**2150-12-30**]  09:50 PM
                             [**2150-12-31**]  03:55 AM
                             [**2150-12-31**]  04:56 PM
                             [**2151-1-1**]  06:33 AM
                             [**2151-1-2**]  06:41 AM
                             [**2151-1-3**]  06:34 AM
                             [**2151-1-4**]  03:51 AM
   WBC
   10.7
   10.5
   8.9
   8.2
   11.1
   12.1
   14.1
   13.4
   Hct
   25.4
   26.2
   27.2
   24.2
   26.8
   26.2
   24.7
   25.5
   24.1
   Plt
   187
   314
   295
   [**Telephone/Fax (2) 7550**]21
   Cr
   2.3
   1.8
   2.3
   1.2
   1.5
   2.1
   1.7
   2.2
   2.8
   Glucose
   86
   140
   95
   51
   109
   92
   103
   86
   44
   Other labs: PT / PTT / INR:16.2/51.2/1.5, Differential-Neuts:68.5 %,
   Band:0.0 %, Lymph:20.9 %, Mono:9.0 %, Eos:1.4 %, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now is transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure.
   # Stage IV coccygeal ulcer - Plastic surgery and ID following.
   Continuously contaminated with fecal matter and plan was for colostomy
   until pt and family declined.  The recommedation for a colostomy was
   again addressed during a family meeting and the family agreed to
   consider the procedure.  Surgery evaluated him and agreed to do the
   surgery and have added him on the schedule for Wednesday. Family though
   is still in discussion whether they still want the surgery, will get
   back either today or tomorrow.
   - Continue wound care.
   - Continue broad spectrum abxs with meropenem
   - Pain control with fentanyl patchs; will caution increasing Oxycodone
   given his history hypercapneic respiratory failure [**1-18**] narcotic use.
   - Will need to touch base with family regarding the surgery, pt is
   tentatively scheduled for Wenesday
   # Hypercarbic Respiratory Failure: Pt noted prior to transfer to have
   oxygen sats in the 70s and copious, thick secretions. Pt currently
   transitioned to trach mask during the day and Bipap at night.  He
   continues to do well on these settings.
   - Continue trach mask support.
   - BiPAP at night
   - Caution narcotic use as this is responsible for his hypercarbic
   respiratory failure.  As the patient is still having pain through his
   current doses of narcotics, will increase his pain medications for
   dressing changes and provide ventilatory support prn if repiratory
   depression occurs.
   # Hyperkalemia: Pt
s K+ elevated this AM, pt did not receive HD
   yesterday will get it today.
   # Hypotension: Stable; pt's SBPs have run in 80s systolic through this
   prolonged hospital course.
   - continue midodrine
   # ESRD: On HD, [**1-18**] to diabetic nephropathy. Although HD line has
   surrounding erythema, per renal, has had this stable appearance with
   negative blood cxs.
   - HD Monday
   - Continue to monitor HD line site exam
   - f/u renal recs
   # Anemia - Most likely [**1-18**] to ESRD, HCT stable. Will transfuse for goal
   HCT > 21. Getting epo at HD.
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
   # Atrial Fibrillation: No active issues.
   - Off nodal agents until BPs can better tolerate.
   - Pt currently off of Coumadin in anticipation of OR, will continue on
   Heparin gtt
   # Osteomyelitis:  No active issues
   - continue meropenem, ID following peripherally
   # Type II DM:
   - Continue lanuts and SSI with qid fingersticks.
   # R BKA/PVD:
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   # FEN: continue TF, replete lytes PRN
   # Comm: [**Name (NI) 53**] and son
   ICU [**Name (NI) **]
   Nutrition:
   [**Name (NI) 7471**] HN (Full) - [**2151-1-4**] 12:17 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-01-05 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Yesterday with family Mr. [**Known lastname 6547**] [**Last Name (Titles) 7577**] surgery and then later during
   the day changed his mind and stated that he wanted to undergo surgery.
   Family meeting set for today at 1030.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2151-1-4**] 08:00 PM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Fentanyl - [**2151-1-5**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-5**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 88 (79 - 101) bpm
   BP: 87/43(54) {87/33(47) - 104/58(67)} mmHg
   RR: 17 (7 - 30) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  3,256 mL
                                                                    969 mL
   PO:
             TF:
                                                                  1,682 mL
                                                                    501 mL
   IVF:
                                                                    614 mL
                                                                    138 mL
   Blood products:
   Total out:
                                                                  3,250 mL
                                                                    300 mL
   Urine:
                                                                     50 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                      6 mL
                                                                    669 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 554 (335 - 554) mL
   PS : 10 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 98%
   ABG: ///31/
   Ve: 5.8 L/min
   Physical Examination
   General Appearance: Elderly, obese male lying in bed on vent
   Cardiovascular: RRR, no MRG
   Pulmonary: Course bronchial sound noted in upper airway
   Abdominal: Soft, Bowel sounds present, NTND, obese
   Extremities: Rt BKA, Left leg and foot dusky with 2+ b/l upper edema
   present
   Neurologic: Attentive, Follows commands.
   Labs / Radiology
   246 K/uL
   7.1 g/dL
   96 mg/dL
   1.8 mg/dL
   31 mEq/L
   4.7 mEq/L
   26 mg/dL
   103 mEq/L
   139 mEq/L
   23.3 %
   11.4 K/uL
        [image002.jpg]
                             [**2150-12-29**]  07:48 AM
                             [**2150-12-30**]  04:36 AM
                             [**2150-12-30**]  09:50 PM
                             [**2150-12-31**]  03:55 AM
                             [**2150-12-31**]  04:56 PM
                             [**2151-1-1**]  06:33 AM
                             [**2151-1-2**]  06:41 AM
                             [**2151-1-3**]  06:34 AM
                             [**2151-1-4**]  03:51 AM
                             [**2151-1-5**]  03:55 AM
   WBC
   10.5
   8.9
   8.2
   11.1
   12.1
   14.1
   13.4
   11.4
   Hct
   26.2
   27.2
   24.2
   26.8
   26.2
   24.7
   25.5
   24.1
   23.3
   Plt
   [**Telephone/Fax (2) 7574**]46
   Cr
   1.8
   2.3
   1.2
   1.5
   2.1
   1.7
   2.2
   2.8
   1.8
   Glucose
   140
   95
   51
   109
   92
   103
   86
   44
   96
   Other labs: PT / PTT / INR:15.2/52.6/1.3, Differential-Neuts:68.5 %,
   Band:0.0 %, Lymph:20.9 %, Mono:9.0 %, Eos:1.4 %, Ca++:7.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now is transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure.
   # Stage IV coccygeal ulcer - Plastic surgery and ID following.
   Continuously contaminated with fecal matter and plan was for colostomy
   until pt and family [**Hospital Unit Name 7577**] and then accepted surgical option
   yesterday. Surgery evaluated him and agreed to do the surgery and have
   tentatively added him on to the schedule for Wednesday. Unfortunately
   given the new indecision will meet with family today for final meeting.
   If pt and pt
s family decides not to go ahead with surgery pt will be
   on Comfort measures only, given that the surgery is imperative for pt
   given his ulcer.
   - Final family meeting today to discuss final decision on surgery
   - Continue wound care.
   - Continue broad spectrum abxs with meropenem
   - Pain control with fentanyl patchs; will caution increasing Oxycodone
   given his history hypercapneic respiratory failure [**1-18**] narcotic use.
   - Will need to touch base with family regarding the surgery, pt is
   tentatively scheduled for Wenesday
   # Hypercarbic Respiratory Failure: Pt noted prior to transfer to have
   oxygen sats in the 70s and copious, thick secretions. Pt currently
   transitioned to trach mask during the day and Bipap at night.  He
   continues to do well on these settings.
   - Continue trach mask support.
   - BiPAP at night
   - Caution narcotic use as this is responsible for his hypercarbic
   respiratory failure.  As the patient is still having pain through his
   current doses of narcotics, will increase his pain medications for
   dressing changes and provide ventilatory support prn if repiratory
   depression occurs.
   # Hypotension: Stable; pt's SBPs have run in 80s systolic through this
   prolonged hospital course.
   - continue midodrine
   # ESRD: On HD, [**1-18**] to diabetic nephropathy. Although HD line has
   surrounding erythema, per renal, has had this stable appearance with
   negative blood cxs.
   - HD Monday
   - Continue to monitor HD line site exam
   - f/u renal recs
   # Anemia - Most likely [**1-18**] to ESRD, HCT stable. Will transfuse for goal
   HCT > 21. Getting epo at HD.
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
   # Atrial Fibrillation: No active issues.
   - Off nodal agents until BPs can better tolerate.
   - Pt currently off of Coumadin in anticipation of OR, will continue on
   Heparin gtt
   # Osteomyelitis:  No active issues
   - continue meropenem, ID following peripherally
   # Type II DM:
   - Continue lanuts and SSI with qid fingersticks.
   # R BKA/PVD:
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   # FEN: continue TF, replete lytes PRN
   # Comm: [**Name (NI) 53**] and son
   ICU [**Name (NI) **]
   Nutrition:
   [**Name (NI) 7471**] HN (Full) - [**2151-1-4**] 10:25 PM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Pending family meeting

2151-01-05 09:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No events
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2151-1-4**] 08:00 PM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Fentanyl - [**2151-1-5**] 04:30 AM
   Other medications:
   Colace, RISS, Lantus, Lidocaine patch, simvastatin, Prevacid, EPO,
   midodrine, fentanyl patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-5**] 09:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 88 (79 - 101) bpm
   BP: 87/43(54) {87/33(47) - 104/58(67)} mmHg
   RR: 17 (7 - 29) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  3,256 mL
                                                                  1,097 mL
   PO:
             TF:
                                                                  1,682 mL
                                                                    588 mL
   IVF:
                                                                    614 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                  3,250 mL
                                                                    300 mL
   Urine:
                                                                     50 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                      6 mL
                                                                    797 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 304 (304 - 554) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: ///31/
   Ve: 7.4 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: Trace, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.1 g/dL
   246 K/uL
   96 mg/dL
   1.8 mg/dL
   31 mEq/L
   4.7 mEq/L
   26 mg/dL
   103 mEq/L
   139 mEq/L
   23.3 %
   11.4 K/uL
        [image002.jpg]
                             [**2150-12-29**]  07:48 AM
                             [**2150-12-30**]  04:36 AM
                             [**2150-12-30**]  09:50 PM
                             [**2150-12-31**]  03:55 AM
                             [**2150-12-31**]  04:56 PM
                             [**2151-1-1**]  06:33 AM
                             [**2151-1-2**]  06:41 AM
                             [**2151-1-3**]  06:34 AM
                             [**2151-1-4**]  03:51 AM
                             [**2151-1-5**]  03:55 AM
   WBC
   10.5
   8.9
   8.2
   11.1
   12.1
   14.1
   13.4
   11.4
   Hct
   26.2
   27.2
   24.2
   26.8
   26.2
   24.7
   25.5
   24.1
   23.3
   Plt
   [**Telephone/Fax (2) 7574**]46
   Cr
   1.8
   2.3
   1.2
   1.5
   2.1
   1.7
   2.2
   2.8
   1.8
   Glucose
   140
   95
   51
   109
   92
   103
   86
   44
   96
   Other labs: PT / PTT / INR:15.2/52.6/1.3, Differential-Neuts:68.5 %,
   Band:0.0 %, Lymph:20.9 %, Mono:9.0 %, Eos:1.4 %, Ca++:7.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   CHRONIC RESPIRATORY FAILURE- hypoventilatory failure related to
   somnolence, hypooxemia exac by poss mucous plugging.
   -back to trach mask now
   -poss component of obesity hypoventilation syndrome, so cont NIPPV at
   night, formal polysomnogram at some point
   -may be a chronic CO2 retainer; if so, then over-correction of O2 sat
   may suppress drive to breathe and worsen hypercapnic failure
   -pulm toilet
   STAGE IV COCCYGEAL SKIN BREAKDOWN- poss diverting colostomy per [**Doctor First Name **] to
   aid healing
   -cont wound care
   -meropenem through [**1-11**] for wound infxn
   -to undergo family mtg today to confirm surgery
    ESRD on HD- stable, cont meds and MWF HD
   -chr hypotension stable on midrodrine
   PAIN CONTROL- Pall Care svce following. Would favor short-acting
   analgesia given propensity for resp failure
   -if NIPPV used may help protect against hypoventilation assoc with
   sedation
   -ok to use fentanyl patch and up-titrate dose slowly
   AFIB- rate-controlled, back on heparin gtt now that INR subtherapeutic.
   No coumadin till after poss [**Doctor First Name **]
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: Prevacid
   VAP:
   Comments:
   Communication: Family meeting held  to discuss surgical intervention
   planned for tomorrow
   Code status: Full code
   Disposition : to remain in ICU today
   Total time spent: 45 min

2151-01-06 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - A family meeting was held for the final decision regarding surgery
   and he and his family agreed to the surgery for Wednesday.
   - Per surgery he was prepped with golytely, his tube feeds were stopped
   at midnight, his heparin gtt will be stopped at 5 am t/m, and labs/
   type&sceen/cross match, CXR, EKG were ordered for t/m; also to have a
   tap water enema in the am if not cleared by then.
   - His fentanyl boluses were increased given his persistent pain.
   - Patient had two low BS overnight after his tube feeds were stopped so
   a D5W infusion was started.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2151-1-5**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2151-1-5**] 09:30 PM
   Dextrose 50% - [**2151-1-6**] 02:31 AM
   Fentanyl - [**2151-1-6**] 04:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-6**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.4
C (95.7
   HR: 75 (67 - 98) bpm
   BP: 90/31(45) {78/25(40) - 113/64(73)} mmHg
   RR: 20 (14 - 28) insp/min
   SpO2: 95%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  3,938 mL
                                                                  1,938 mL
   PO:
             TF:
                                                                  1,287 mL
   IVF:
                                                                    701 mL
                                                                    243 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,638 mL
                                                                  1,938 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 420 (304 - 532) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: ///29/
   Ve: 8 L/min
   Physical Examination
   General Appearance: Elderly, obese male lying in bed on vent
   Cardiovascular: RRR, no MRG
   Pulmonary: Course bronchial sound noted in upper airway
   Abdominal: Soft, Bowel sounds present, NTND, obese
   Extremities: Rt BKA, Left leg and foot dusky with 2+ b/l upper edema
   present
   Neurologic: Attentive, Follows commands.
   Labs / Radiology
   207 K/uL
   9.7 g/dL
   62 mg/dL
   2.2 mg/dL
   29 mEq/L
   4.9 mEq/L
   30 mg/dL
   96 mEq/L
   132 mEq/L
   31.4 %
   10.2 K/uL
        [image002.jpg]
                             [**2150-12-30**]  04:36 AM
                             [**2150-12-30**]  09:50 PM
                             [**2150-12-31**]  03:55 AM
                             [**2150-12-31**]  04:56 PM
                             [**2151-1-1**]  06:33 AM
                             [**2151-1-2**]  06:41 AM
                             [**2151-1-3**]  06:34 AM
                             [**2151-1-4**]  03:51 AM
                             [**2151-1-5**]  03:55 AM
                             [**2151-1-6**]  03:45 AM
   WBC
   8.9
   8.2
   11.1
   12.1
   14.1
   13.4
   11.4
   10.2
   Hct
   27.2
   24.2
   26.8
   26.2
   24.7
   25.5
   24.1
   23.3
   31.4
   Plt
   295
   337
   337
   [**Telephone/Fax (3) **]
   246
   207
   Cr
   2.3
   1.2
   1.5
   2.1
   1.7
   2.2
   2.8
   1.8
   2.2
   Glucose
   95
   51
   109
   92
   103
   86
   44
   96
   62
   Other labs: PT / PTT / INR:15.5/62.3/1.4, Differential-Neuts:68.5 %,
   Band:0.0 %, Lymph:20.9 %, Mono:9.0 %, Eos:1.4 %, Ca++:7.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now is transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure.
   # Stage IV coccygeal ulcer - Plastic surgery and ID following.
   Continuously contaminated with fecal matter and plan was for colostomy
   until pt and family declined and then accepted surgical option
   yesterday. Surgery evaluated him and agreed to do the surgery and have
   tentatively added him on to the schedule for Wednesday. Unfortunately
   given the new indecision will meet with family today for final meeting.
   If pt and pt
s family decides not to go ahead with surgery pt will be
   on Comfort measures only, given that the surgery is imperative for pt
   given his ulcer.
   - Final family meeting today to discuss final decision on surgery
   - Continue wound care.
   - Continue broad spectrum abxs with meropenem
   - Pain control with fentanyl patchs; will caution increasing Oxycodone
   given his history hypercapneic respiratory failure [**1-18**] narcotic use.
   - Will need to touch base with family regarding the surgery, pt is
   tentatively scheduled for Wenesday
   # Hypercarbic Respiratory Failure: Pt noted prior to transfer to have
   oxygen sats in the 70s and copious, thick secretions. Pt currently
   transitioned to trach mask during the day and Bipap at night.  He
   continues to do well on these settings.
   - Continue trach mask support.
   - BiPAP at night
   - Caution narcotic use as this is responsible for his hypercarbic
   respiratory failure.  As the patient is still having pain through his
   current doses of narcotics, will increase his pain medications for
   dressing changes and provide ventilatory support prn if repiratory
   depression occurs.
   # Hypotension: Stable; pt's SBPs have run in 80s systolic through this
   prolonged hospital course.
   - continue midodrine
   # ESRD: On HD, [**1-18**] to diabetic nephropathy. Although HD line has
   surrounding erythema, per renal, has had this stable appearance with
   negative blood cxs.
   - HD Monday
   - Continue to monitor HD line site exam
   - f/u renal recs
   # Anemia - Most likely [**1-18**] to ESRD, HCT stable. Will transfuse for goal
   HCT > 21. Getting epo at HD.
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
   # Atrial Fibrillation: No active issues.
   - Off nodal agents until BPs can better tolerate.
   - Pt currently off of Coumadin in anticipation of OR, will continue on
   Heparin gtt
   # Osteomyelitis:  No active issues
   - continue meropenem, ID following peripherally
   # Type II DM:
   - Continue lanuts and SSI with qid fingersticks.
   # R BKA/PVD:
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   # FEN: continue TF, replete lytes PRN
   # Comm: [**Name (NI) 53**] and son
   ICU [**Name (NI) **]
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-01-06 12:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2151-1-5**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2151-1-5**] 09:30 PM
   Dextrose 50% - [**2151-1-6**] 02:31 AM
   Fentanyl - [**2151-1-6**] 08:08 AM
   Other medications:
   Colace, Insulin, simvastatin, Prevacid, midodrine, fentanyl patch,
   lidocaine patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-6**] 12:19 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.6
C (96
   HR: 75 (67 - 98) bpm
   BP: 90/38(51) {78/21(39) - 113/64(76)} mmHg
   RR: 19 (14 - 26) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  3,938 mL
                                                                  3,478 mL
   PO:
             TF:
                                                                  1,287 mL
   IVF:
                                                                    701 mL
                                                                    583 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                  1,300 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,638 mL
                                                                  2,178 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 546 (410 - 546) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///29/
   Ve: 10.5 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   207 K/uL
   62 mg/dL
   2.2 mg/dL
   29 mEq/L
   4.9 mEq/L
   30 mg/dL
   96 mEq/L
   132 mEq/L
   31.4 %
   10.2 K/uL
        [image002.jpg]
                             [**2150-12-30**]  04:36 AM
                             [**2150-12-30**]  09:50 PM
                             [**2150-12-31**]  03:55 AM
                             [**2150-12-31**]  04:56 PM
                             [**2151-1-1**]  06:33 AM
                             [**2151-1-2**]  06:41 AM
                             [**2151-1-3**]  06:34 AM
                             [**2151-1-4**]  03:51 AM
                             [**2151-1-5**]  03:55 AM
                             [**2151-1-6**]  03:45 AM
   WBC
   8.9
   8.2
   11.1
   12.1
   14.1
   13.4
   11.4
   10.2
   Hct
   27.2
   24.2
   26.8
   26.2
   24.7
   25.5
   24.1
   23.3
   31.4
   Plt
   295
   337
   337
   [**Telephone/Fax (3) **]
   246
   207
   Cr
   2.3
   1.2
   1.5
   2.1
   1.7
   2.2
   2.8
   1.8
   2.2
   Glucose
   95
   51
   109
   92
   103
   86
   44
   96
   62
   Other labs: PT / PTT / INR:15.5/62.3/1.4, Differential-Neuts:68.5 %,
   Band:0.0 %, Lymph:20.9 %, Mono:9.0 %, Eos:1.4 %, Ca++:7.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   STAGE IV COCCYGEAL SKIN BREAKDOWN- to OR today
   -cont wound care
   -meropenem through [**1-11**] for wound infxn
   CHRONIC RESPIRATORY FAILURE- hypoventilatory failure related to
   somnolence, hypooxemia exac by poss mucous plugging.
   -trach mask alt w/ NIPPV
   -poss component of obesity hypoventilation syndrome, so cont NIPPV at
   night, formal polysomnogram at some point
   -may be a chronic CO2 retainer; if so, then over-correction of O2 sat
   may suppress drive to breathe and worsen hypercapnic failure
   -pulm toilet
    ESRD on HD- stable, cont meds and MWF HD
   -chr hypotension stable on midrodrine
    PAIN CONTROL- Pall Care svce following. Would favor short-acting
   analgesia given propensity for resp failure
   -if NIPPV used may help protect against hypoventilation assoc with
   sedation
   -ok to use fentanyl patch and up-titrate dose slowly
   AFIB- rate-controlled, back on heparin gtt now that INR subtherapeutic.
   No coumadin till after poss [**Doctor First Name **]
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 20 minutes

2151-01-07 06:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2151-1-6**] 02:30 PM
 ARTERIAL LINE - START [**2151-1-6**] 10:28 PM
   - had surgery
   - surgery rec:  start tube feeds at 8am, start slowly.  Re-start
   heparin gtt at 8am.
   - when returned from surgery, had slight AMS - not making eye contact,
   had bilateral twitching - spoke to anesthesia who stated that given
   amount of pain medication (10mg iv dilaudid) would expect some AMS
   until the morning
   - overnight tachy to high 130's, bp's dropped to as low as 60's with
   MAP's in 40's, temp to 99.7  Bolused 250cc over 30 minutes x2 with drop
   in hr to 110's.  Restarted neo, got fentanyl bolus for pain as appeared
   very anxious and in pain. EKG tachy, regular, RBBB present on prior
   EKG's
   - received additional 250 cc bolus early this morning with hr 100's and
   goal to wean off pressors
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2151-1-6**] 11:07 PM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2151-1-7**] 12:43 AM
   Fentanyl - [**2151-1-7**] 03:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-7**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 107 (64 - 127) bpm
   BP: 91/40(58) {74/30(44) - 110/47(61)} mmHg
   RR: 25 (12 - 35) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  4,064 mL
                                                                    908 mL
   PO:
             TF:
   IVF:
                                                                  1,019 mL
                                                                    883 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,064 mL
                                                                    908 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 482 (482 - 546) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.56/30/81.[**Numeric Identifier 607**]/26/4
   Ve: 13.9 L/min
   PaO2 / FiO2: 203
   Physical Examination
   General Appearance: Elderly, obese male lying in bed on vent
   Cardiovascular: RRR, no MRG
   Pulmonary: Course bronchial sound noted in upper airway
   Abdominal: Soft, Bowel sounds present, NTND, obese. LLQ stoma noted,
   pink, output slightly bloody
   Extremities: Rt BKA, Left leg and foot dusky with 2+ b/l upper edema
   present
   Neurologic: Attentive, Follows commands.
   Labs / Radiology
   269 K/uL
   8.0 g/dL
   68 mg/dL
   1.7 mg/dL
   26 mEq/L
   4.6 mEq/L
   17 mg/dL
   102 mEq/L
   139 mEq/L
   25.0 %
   16.4 K/uL
        [image002.jpg]
                             [**2150-12-31**]  04:56 PM
                             [**2151-1-1**]  06:33 AM
                             [**2151-1-2**]  06:41 AM
                             [**2151-1-3**]  06:34 AM
                             [**2151-1-4**]  03:51 AM
                             [**2151-1-5**]  03:55 AM
                             [**2151-1-6**]  03:45 AM
                             [**2151-1-6**]  08:37 PM
                             [**2151-1-7**]  04:52 AM
                             [**2151-1-7**]  05:05 AM
   WBC
   11.1
   12.1
   14.1
   13.4
   11.4
   10.2
   16.4
   Hct
   26.8
   26.2
   24.7
   25.5
   24.1
   23.3
   31.4
   28
   25.0
   Plt
   [**Telephone/Fax (2) 7605**]
   269
   Cr
   2.1
   1.7
   2.2
   2.8
   1.8
   2.2
   1.7
   TCO2
   31
   28
   Glucose
   92
   103
   86
   44
   96
   62
   64
   68
   Other labs: PT / PTT / INR:15.5/38.2/1.3, Differential-Neuts:68.5 %,
   Band:0.0 %, Lymph:20.9 %, Mono:9.0 %, Eos:1.4 %, Lactic Acid:1.2
   mmol/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now is transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure.
   # Stage IV coccygeal ulcer Family meeting was held yesterday and pt
   decided on diverting colostomy. Pt was prepped last night and is
   scheduled for surgery today. Heparin gtt has been held. Diverting
   colostomy is vital given his large decub that currently fails to heal
   [**1-18**] continual exposure to fecal material.
   - Pt underwent surgery yesterday
   - Heparin gtt and tube feeds started this AM per Surgery recs
   - Continue wound care.
   - Continue broad spectrum abxs with meropenem
   - Pain control with fentanyl patchs; will caution Oxycodone given his
   history hypercapneic respiratory failure [**1-18**] narcotic use.
   # Hypercarbic Respiratory Failure: Pt noted prior to transfer to have
   oxygen sats in the 70s and copious, thick secretions. Pt currently
   transitioned to trach mask during the day and Bipap at night.  He
   continues to do well on these settings.
   - Continue trach mask support.
   - BiPAP at night
   - Caution narcotic use as this is responsible for his hypercarbic
   respiratory failure.  As the patient is still having pain through his
   current doses of narcotics, will increase his pain medications for
   dressing changes and provide ventilatory support prn if repiratory
   depression occurs.
   # Hypotension: Stable; pt's SBPs have run in 80s systolic through this
   prolonged hospital course, post op though due to decreased SBP in the
   60s needed pressor support. Pt
s pre-op SBP was 80s with pt taking
   Midodrine, will wean pressors with a goal of SBP >80 if mentating well.
   - continue midodrine
   - will wean pressors for a goal SBP >80
   # ESRD: On HD, [**1-18**] to diabetic nephropathy. Although HD line has
   surrounding erythema, per renal, has had this stable appearance with
   negative blood cxs.
   - Continue to monitor HD line site exam
   - f/u renal recs
   # Anemia
 Pt has underlying anemia most likely [**1-18**] to ESRD, HCT
   stable. Getting epo at HD. Post-op Hct noted to be several points below
   pre-op Hct, EBL reported as minimal per OR report. Hct of 31 most
   likely hemoconcentrated as pt has not had a Hct that high before. Will
   obtain repeat Hct.
   - Repeat Hct, surgery aware of Hct drop
   - Transfuse for goal >21
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
   # Atrial Fibrillation: No active issues.
   - Off nodal agents until BPs can better tolerate.
   - Pt currently off of Coumadin in anticipation of OR, will continue on
   Heparin gtt
   # Osteomyelitis:  No active issues
   - continue meropenem, ID following peripherally
   # Type II DM:
   - Continue lanuts and SSI with qid fingersticks.
   # R BKA/PVD:
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   # FEN: continue TF, replete lytes PRN
   # Comm: [**Name (NI) 53**] and son
   ICU [**Name (NI) **]
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Arterial Line - [**2151-1-6**] 10:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-01-07 11:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   s/p diverting colostomy yest. Transient confusion yest pm w/ BG 25.
   hypotension last night w/ sbp 60s, fluid responsive but phenylephrine
   gtt resumed. Notes back pain today.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2151-1-7**] 11:00 AM
   Infusions:
   Phenylephrine - 1 mcg/Kg/min
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Dextrose 50% - [**2151-1-7**] 12:43 AM
   Fentanyl - [**2151-1-7**] 11:38 AM
   Other medications:
   Colace, RISS, Lantus, lidocaine patch, simvastatin, midodrine,
   Atrovent, Fe SO4, Prevacid, Peridex, fenatnyl patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-7**] 11:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.4
C (97.6
   HR: 87 (64 - 127) bpm
   BP: 90/29(44) {74/13(32) - 111/67(85)} mmHg
   RR: 13 (12 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  4,064 mL
                                                                  1,909 mL
   PO:
             TF:
             17 mL
   IVF:
                                                                  1,019 mL
                                                                  1,617 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,064 mL
                                                                  1,909 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 494 (398 - 494) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 92
   PIP: 0 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.42/42/105/26/2
   Ve: 13.9 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   269 K/uL
   68 mg/dL
   1.7 mg/dL
   26 mEq/L
   4.6 mEq/L
   17 mg/dL
   102 mEq/L
   139 mEq/L
   25.0 %
   16.4 K/uL
        [image002.jpg]
                             [**2151-1-1**]  06:33 AM
                             [**2151-1-2**]  06:41 AM
                             [**2151-1-3**]  06:34 AM
                             [**2151-1-4**]  03:51 AM
                             [**2151-1-5**]  03:55 AM
                             [**2151-1-6**]  03:45 AM
                             [**2151-1-6**]  08:37 PM
                             [**2151-1-7**]  04:52 AM
                             [**2151-1-7**]  05:05 AM
                             [**2151-1-7**]  08:05 AM
   WBC
   11.1
   12.1
   14.1
   13.4
   11.4
   10.2
   16.4
   Hct
   26.2
   24.7
   25.5
   24.1
   23.3
   31.4
   28
   25.0
   Plt
   [**Telephone/Fax (3) 7605**]
   269
   Cr
   2.1
   1.7
   2.2
   2.8
   1.8
   2.2
   1.7
   TCO2
   31
   28
   28
   Glucose
   92
   103
   86
   44
   96
   62
   64
   68
   Other labs: PT / PTT / INR:15.5/38.2/1.3, Differential-Neuts:68.5 %,
   Band:0.0 %, Lymph:20.9 %, Mono:9.0 %, Eos:1.4 %, Lactic Acid:1.2
   mmol/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:1.9 mg/dL
   Microbiology: no new data
   Assessment and Plan
   STAGE IV COCCYGEAL SKIN BREAKDOWN- POD 1 s/p diverting colostomy
   -ostomy wound care
   -cont wound care
   -meropenem through [**1-11**] for wound infxn
   CHRONIC RESPIRATORY FAILURE- hypoventilatory failure related to
   somnolence, hypooxemia exac by poss mucous plugging.
   -trach mask alt w/ NIPPV
   -poss component of obesity hypoventilation syndrome, so cont NIPPV at
   night, formal polysomnogram at some point
   -may be a chronic CO2 retainer; if so, then over-correction of O2 sat
   may suppress drive to breathe and worsen hypercapnic failure
   -pulm toilet
    ESRD on HD- stable, cont meds and MWF HD
   -fluid bolus today
   -chr hypotension stable on midrodrine; wean off phenylephrine now that
   taking po
    PAIN CONTROL- Pall Care svce following. Would favor short-acting
   analgesia given propensity for resp failure
   -if NIPPV used may help protect against hypoventilation assoc with
   sedation
   -ok to use fentanyl patch and up-titrate dose slowly
   AFIB- rate-controlled, back on heparin gtt now that INR subtherapeutic.
   No coumadin till after poss [**Doctor First Name **]
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-7**] 10:00 AM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Arterial Line - [**2151-1-6**] 10:28 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2151-01-08 11:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   concern for dusky stoma yest pm- eval by [**Doctor First Name **] and felt to be stable.
   Unable to wean off Levophed yest.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2151-1-7**] 10:11 PM
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Heparin Sodium - [**2151-1-7**] 10:30 PM
   Fentanyl - [**2151-1-8**] 08:15 AM
   Other medications:
   Colace, SSI, Lantus, Lidocaine patches, fentanyl patches, simvastatin,
   midodrine, Atrovent, Fe tid, Peridex, Prevacid,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-8**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 78 (75 - 96) bpm
   BP: 78/27(45) {73/27(45) - 132/98(110)} mmHg
   RR: 20 (14 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  3,980 mL
                                                                  1,481 mL
   PO:
             TF:
                                                                    321 mL
                                                                    574 mL
   IVF:
                                                                  2,980 mL
                                                                    586 mL
   Blood products:
   Total out:
                                                                    205 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,775 mL
                                                                  1,481 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   FiO2: 40%
   SpO2: 94%
   ABG: 7.30/51/84.[**Numeric Identifier 1625**]/25/-1
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese, stoma stie
   c/d/i
   Extremities: Right: Absent, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   332 K/uL
   70 mg/dL
   2.1 mg/dL
   25 mEq/L
   5.2 mEq/L
   20 mg/dL
   99 mEq/L
   133 mEq/L
   25.7 %
   22.3 K/uL
        [image002.jpg]
                             [**2151-1-5**]  03:55 AM
                             [**2151-1-6**]  03:45 AM
                             [**2151-1-6**]  08:37 PM
                             [**2151-1-7**]  04:52 AM
                             [**2151-1-7**]  05:05 AM
                             [**2151-1-7**]  08:05 AM
                             [**2151-1-7**]  01:38 PM
                             [**2151-1-7**]  08:29 PM
                             [**2151-1-8**]  04:22 AM
                             [**2151-1-8**]  04:40 AM
   WBC
   11.4
   10.2
   16.4
   22.3
   Hct
   23.3
   31.4
   28
   25.0
   24.7
   25.7
   Plt
   [**Telephone/Fax (3) 7632**]32
   Cr
   1.8
   2.2
   1.7
   2.1
   TCO2
   31
   28
   28
   26
   Glucose
   96
   62
   64
   68
   57
   70
   Other labs: PT / PTT / INR:17.7/63.8/1.6, Differential-Neuts:68.5 %,
   Band:0.0 %, Lymph:20.9 %, Mono:9.0 %, Eos:1.4 %, Lactic Acid:1.2
   mmol/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   STAGE IV COCCYGEAL SKIN BREAKDOWN- POD 2 s/p diverting colostomy
   -ostomy wound care
   -cont wound care
   -probable leukomoid reaction postop, cont to follow
   -meropenem through [**1-11**] for wound infxn
   CHRONIC RESPIRATORY FAILURE- hypoventilatory failure related to
   somnolence, hypooxemia exac by poss mucous plugging.
   -trach mask alt w/ NIPPV
   -poss component of obesity hypoventilation syndrome, so cont NIPPV at
   night, formal polysomnogram at some point
   -may be a chronic CO2 retainer; if so, then over-correction of O2 sat
   may suppress drive to breathe and worsen hypercapnic failure
   -pulm toilet
    ESRD on HD- stable, cont meds and MWF HD
   -fluid bolus today
   -chr hypotension stable on midrodrine; wean off phenylephrine now that
   taking po
    PAIN CONTROL- Pall Care svce following. Would favor short-acting
   analgesia given propensity for resp failure
   -if NIPPV used may help protect against hypoventilation assoc with
   sedation
   -ok to use fentanyl patch and up-titrate dose slowly
   HYPOTENSION- poor art line tracing, d/c art line
   -follow mental status
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-7**] 10:00 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Arterial Line - [**2151-1-6**] 10:28 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt, coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2151-01-10 11:21:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Glucose running low - reduced lantus dose of insulin
   INR 5.5
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2151-1-9**] 10:00 PM
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-1-9**] 08:00 PM
   Dextrose 50% - [**2151-1-10**] 12:20 AM
   Fentanyl - [**2151-1-10**] 02:00 AM
   Other medications:
   coumadin 2.5, RISS, feso4, fentanyl patch, albuterol nebs, ipratropium,
   midodrine, EPO, lanzoprazole, simvastatin, lidocaine patch, zofran,
   bisacodyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-10**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.4
   HR: 92 (70 - 95) bpm
   BP: 125/61(75) {90/41(52) - 130/61(75)} mmHg
   RR: 14 (13 - 29) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  2,841 mL
                                                                  1,247 mL
   PO:
             TF:
                                                                  1,687 mL
                                                                    777 mL
   IVF:
                                                                    749 mL
                                                                    255 mL
   Blood products:
   Total out:
                                                                    120 mL
                                                                    120 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,721 mL
                                                                  1,127 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 420 (340 - 450) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 78
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 8.6 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: R BK Amp; left LE dusky
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to):  x 3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   7.0 g/dL
   216 K/uL
   90 mg/dL
   1.9 mg/dL
   30 mEq/L
   4.5 mEq/L
   20 mg/dL
   104 mEq/L
   140 mEq/L
   23.5 %
   13.4 K/uL
        [image002.jpg]
                             [**2151-1-6**]  08:37 PM
                             [**2151-1-7**]  04:52 AM
                             [**2151-1-7**]  05:05 AM
                             [**2151-1-7**]  08:05 AM
                             [**2151-1-7**]  01:38 PM
                             [**2151-1-7**]  08:29 PM
                             [**2151-1-8**]  04:22 AM
                             [**2151-1-8**]  04:40 AM
                             [**2151-1-9**]  04:07 AM
                             [**2151-1-10**]  01:39 AM
   WBC
   16.4
   22.3
   11.0
   13.4
   Hct
   28
   25.0
   24.7
   25.7
   21.2
   23.5
   Plt
   [**Telephone/Fax (3) 7666**]16
   Cr
   1.7
   2.1
   1.5
   1.9
   TCO2
   31
   28
   28
   26
   Glucose
   64
   68
   57
   70
   106
   90
   Other labs: PT / PTT / INR:48.2/75.9/5.5, Differential-Neuts:68.5 %,
   Band:0.0 %, Lymph:20.9 %, Mono:9.0 %, Eos:1.4 %, Lactic Acid:1.2
   mmol/L, Ca++:7.5 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   STAGE IV COCCYGEAL SKIN BREAKDOWN- s/p diverting colostomy
    -ostomy wound care
    -cont wound care
   -meropenem through [**1-11**] for wound infxn
   CHRONIC RESPIRATORY FAILURE- hypoventilatory failure related to
   somnolence, hypooxemia exac by poss mucous plugging.
   -trach mask alt w/ NIPPV. Consider Passy-Muir Valve
   -poss component of obesity hypoventilation syndrome, so cont NIPPV at
   night, formal polysomnogram at some point
   -may be a chronic CO2 retainer; if so, then over-correction of O2 sat
   may suppress drive to breathe and worsen hypercapnic failure
   -pulm toilet
    ESRD on HD- stable, cont meds and MWF HD
   -fluid bolus today
   -chr hypotension stable on midrodrine; off phenylephrine
    PAIN CONTROL-
   -if NIPPV used may help protect against hypoventilation assoc with
   sedation
   -ok to use fentanyl patch and up-titrate dose slowly
   HYPOTENSION
   -poor art line tracing, d/c art line
   -follow mental status
   ANEMIA
   -Will transfuse on Monday with HD. No clear source of blood loss.
   Hemodynamically stable. Chronic anemia of renal failure with dilution
   secondary to fluids received during surgery
   A FIB
   Transition to Coumadin
 INR 5.5  - d/c heparin drip and lower dose to
   2.5 mg/day
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-10**] 07:37 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2151-01-11 10:50:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   Hypoglycemia--persistent and in the range of 40-50
   Patient with one unit PRBC given in the setting of decrease in HCT.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2151-1-10**] 10:00 PM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2151-1-10**] 06:54 PM
   Fentanyl - [**2151-1-11**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Dialysis
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2151-1-11**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 96 (80 - 96) bpm
   BP: 120/53(69) {88/39(52) - 128/105(112)} mmHg
   RR: 29 (12 - 39) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
           Total In:
                                                                  2,821 mL
                                                                  1,372 mL
   PO:
           TF:
                                                                  1,681 mL
                                                                    736 mL
   IVF:
                                                                    595 mL
                                                                    155 mL
   Blood products:
   281 mL
   Total out:
                                                                    160 mL
                                                                    200 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,661 mL
                                                                  1,172 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: Standby
   Vt (Spontaneous): 4,717 (420 - 4,717) mL
   PS : 10 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 80
   PIP: 0 cmH2O
   SpO2: 96%
   ABG: ///31/
   Ve: 11.1 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Trach in place
   Cardiovascular: (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Tender: mild in sight of ostomy, Ostomy with stool and
   air
   Extremities: Right: 2+-Upper, Left: 2+-Upper, left BKA
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   5.9 g/dL
   227 K/uL
   67 mg/dL
   2.4 mg/dL
   31 mEq/L
   5.2 mEq/L
   31 mg/dL
   103 mEq/L
   137 mEq/L
   19.6 %
   15.3 K/uL
        [image002.jpg]
                             [**2151-1-7**]  04:52 AM
                             [**2151-1-7**]  05:05 AM
                             [**2151-1-7**]  08:05 AM
                             [**2151-1-7**]  01:38 PM
                             [**2151-1-7**]  08:29 PM
                             [**2151-1-8**]  04:22 AM
                             [**2151-1-8**]  04:40 AM
                             [**2151-1-9**]  04:07 AM
                             [**2151-1-10**]  01:39 AM
                             [**2151-1-11**]  04:15 AM
   WBC
   16.4
   22.3
   11.0
   13.4
   15.3
   Hct
   25.0
   24.7
   25.7
   21.2
   23.5
   19.6
   Plt
   [**Telephone/Fax (3) 7666**]16
   227
   Cr
   1.7
   2.1
   1.5
   1.9
   2.4
   TCO2
   28
   28
   26
   Glucose
   68
   57
   70
   106
   90
   67
   Other labs: PT / PTT / INR:54.4/52.0/6.3, Differential-Neuts:82.5 %,
   Band:0.0 %, Lymph:10.8 %, Mono:4.6 %, Eos:1.9 %, Lactic Acid:1.2
   mmol/L, Ca++:7.1 mg/dL, Mg++:1.7 mg/dL, PO4:2.6 mg/dL
   Imaging: No new films
   Assessment and Plan
   75 yo male with chronic ventilatory failure with tracheostomy and now
   admitted 69 days ago with recurrent respiratory failure and need for
   ventilatory support in the setting of non-healing decubitus ulcer.
   Patient with diverting colostomy [**2151-1-6**] to aid in ulcer healing.  This
   post operative course has been notable for some modest evolution of
   anemia and transient tachyardia but not sustained bleeding noted.
   1)Respiratory Failure-Secondary to obesity, deconditioning and with
   recurrent hypercarbic compromise
   -Will continue with nocturnal ventilatory support
   2)Anemia-_Secondary to Blood Loss perhaps at site but is in the setting
   of elevated INR
   -Will provide FFP as needed for suggestion of active bleeding if anemia
   not stabilized
   -Maintain adequate nutrition
   3)Ulcer-Decubitus-
   -Examined by plastic surgery and adequate wound healing post op noted
   -Continue ostomy care
   -Will need continued up-titration of pain control
may need intermittent
   ventilatory support with increased narcotics
   -Will move to po long acting narcotics as fentanyl patch has failed.
   4)Chronic renal failure-
   -Dialysis today
   -Will need to continue f/u labs and with goal negative fluid balance if
   possible.
   5)Hypoglycemia-
   -Will check hepatic function
   -Glucose as needed
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-10**] 09:53 PM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2151-01-12 11:36:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Chronic Renal Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Has had improvement in WBC count to normalization over past 24 hours
   Transfusion of 1 unit PRBC and improved HCT noted
   Oxycodone trialed and patient wtih hypotension
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2151-1-11**] 10:00 PM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2151-1-12**] 12:27 AM
   Fentanyl - [**2151-1-12**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Dialysis
   Pain: [**2-17**] Mild
   Pain location: Back, no abd pain
   Flowsheet Data as of  [**2151-1-12**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98
   HR: 94 (74 - 102) bpm
   BP: 81/43(62) {73/34(43) - 106/55(64)} mmHg
   RR: 20 (10 - 24) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  2,645 mL
                                                                  1,223 mL
   PO:
             TF:
                                                                  1,684 mL
                                                                    790 mL
   IVF:
                                                                    390 mL
                                                                    113 mL
   Blood products:
                                                                    281 mL
   Total out:
                                                                    200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,445 mL
                                                                  1,223 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 355 (335 - 355) mL
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 92
   SpO2: 99%
   ABG: ///33/
   Ve: 10.7 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Tracheostomy Tube in Place
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, OStomy bag with
   stool and air
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.6 g/dL
   203 K/uL
   101 mg/dL
   1.6 mg/dL
   33 mEq/L
   4.5 mEq/L
   19 mg/dL
   108 mEq/L
   144 mEq/L
   25.2 %
   11.6 K/uL
        [image002.jpg]
                             [**2151-1-7**]  08:05 AM
                             [**2151-1-7**]  01:38 PM
                             [**2151-1-7**]  08:29 PM
                             [**2151-1-8**]  04:22 AM
                             [**2151-1-8**]  04:40 AM
                             [**2151-1-9**]  04:07 AM
                             [**2151-1-10**]  01:39 AM
                             [**2151-1-11**]  04:15 AM
                             [**2151-1-11**]  02:25 PM
                             [**2151-1-12**]  04:29 AM
   WBC
   22.3
   11.0
   13.4
   15.3
   11.6
   Hct
   24.7
   25.7
   21.2
   23.5
   19.6
   23.1
   25.2
   Plt
   332
   191
   216
   227
   203
   Cr
   2.1
   1.5
   1.9
   2.4
   1.6
   TCO2
   28
   26
   Glucose
   57
   70
   106
   90
   67
   101
   Other labs: PT / PTT / INR:48.3/64.8/5.5, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:82.5 %, Band:0.0 %, Lymph:10.8 %,
   Mono:4.6 %, Eos:1.9 %, Lactic Acid:1.2 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   76 yo male with prolonged hospitalization and now with continued need
   for nocturnal ventilatory support, continue renal failure with dialysis
   required and has now had diverting ileostomy to aid in allowing sacral
   area to heal.
   RESPIRATORY FAILURE ACUTE and CHRONIC-
   -Continue with NIV overnight via trach
   -Trach mask during the day
   -maintain even to negative fluid balance
   -Atrovent MDI
   SACRAL DECUBITUS-
   -Ostomy in place with good function
   -Continue with plastic surgery support in evaluations.
   -Encouraging improvement in WBC count with intervention
   CHRONIC RENAL FAILURE-
   -Continued dialysis
   Atrial Fibrillation-
   -Coumadin to continue
   -HR controlled
   PAIN CONTROL-
   -Lidocaine Patch
   -Fentanyl Patch
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-12**] 02:23 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Will look to move towards placement and
   continue discussions with social work and ethics for support for
   patient decision making.
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2151-01-13 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - ethics c/s: Met with patient and his family.  The result of the
   discussion was that the patient was willing to go to rehab when a bed
   is available.
   - Patient did not tolerate the Passy-Muir valve.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2151-1-11**] 10:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-1-12**] 08:00 PM
   Fentanyl - [**2151-1-12**] 08:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-13**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96
   HR: 80 (72 - 94) bpm
   BP: 91/38(50) {80/38(44) - 105/51(65)} mmHg
   RR: 19 (11 - 22) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  2,521 mL
                                                                    558 mL
   PO:
             TF:
                                                                  1,681 mL
                                                                    485 mL
   IVF:
                                                                    240 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,521 mL
                                                                    558 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 441 (440 - 602) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 134
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: ///31/
   Ve: 5.7 L/min
   Physical Examination
   General Appearance: Elderly, obese male lying in bed on vent
   Cardiovascular: RRR, no MRG
   Pulmonary: CTAB anteriorly
   Abdominal: Soft, Bowel diminished, NTND, obese. LLQ colostomy present,
   serosanguinous drainage, no TTP at site.
   Extremities: Rt BKA, Left leg and foot dusky with 2+ b/l upper edema
   present
   Neurologic: Attentive, Follows commands.
   Labs / Radiology
   205 K/uL
   7.4 g/dL
   105 mg/dL
   2.2 mg/dL
   31 mEq/L
   5.4 mEq/L
   28 mg/dL
   105 mEq/L
   141 mEq/L
   24.5 %
   13.6 K/uL
        [image002.jpg]
                             [**2151-1-7**]  01:38 PM
                             [**2151-1-7**]  08:29 PM
                             [**2151-1-8**]  04:22 AM
                             [**2151-1-8**]  04:40 AM
                             [**2151-1-9**]  04:07 AM
                             [**2151-1-10**]  01:39 AM
                             [**2151-1-11**]  04:15 AM
                             [**2151-1-11**]  02:25 PM
                             [**2151-1-12**]  04:29 AM
                             [**2151-1-13**]  04:00 AM
   WBC
   22.3
   11.0
   13.4
   15.3
   11.6
   13.6
   Hct
   24.7
   25.7
   21.2
   23.5
   19.6
   23.1
   25.2
   24.5
   Plt
   332
   191
   216
   227
   203
   205
   Cr
   2.1
   1.5
   1.9
   2.4
   1.6
   2.2
   TCO2
   26
   Glucose
   57
   70
   106
   90
   67
   101
   105
   Other labs: PT / PTT / INR:43.2/63.6/4.8, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:82.5 %, Band:0.0 %, Lymph:10.8 %,
   Mono:4.6 %, Eos:1.9 %, Lactic Acid:1.2 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   [1][**2151-1-8**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [2][**2151-1-8**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   Assessment and Plan
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**] -
   decision was made to do so give his stage 4 coccygeal ulcer that was
   continuously fecally contaminated give patient's fecal incontinence.
   BP
s in 90
s which is patient
s baseline. No fever in >24 hours.  On
   Meropenem course for osteomyelitis finished [**1-11**]. Surgery has signed
   off.
   - continue ostomy care
   # Anemia: Hct stable at 24.5. Pt has ESRD and is currently on Epo
   treatment, will keep transfusion goal Hct >21%
   - Trend Hct, infusion goal > 21%
   # Stage IV coccygeal ulcer: Family meeting was held and pt decided on
   diverting colostomy which was done on the evening of [**1-6**].
   - Continue wound care
   - Pain controlled better with 100 mcg fentanyl patch and lidocaine
   patches.  Has not required fentanyl boluses since [**1-11**].
   # Hypercarbic Respiratory Failure: Pt noted prior to transfer to have
   oxygen sats in the 70s and copious, thick secretions. Pt currently
   transitioned to trach mask during the day and Bipap at night.  He
   continues to do well on these settings.
   - Continue trach mask support
   - As the patient has not been definitively diagnosed with obesity
   hypoventilation syndrome and is on BIPAP currently, will hold it
   tonight and check a VBG today and once in the am to assess for change
   in PCO2 and the need for BIPAP.
   - Atrovent nebs and prn albuterol nebs
   - Will contact IP about possibly changing his trach as it doesn
   appear to have been changed recently.  Will also see if the granulation
   tissue around the trach can be removed or a smaller trach placed so
   that he might be able to tolerate a Passy-Muir valve.
   # Hypoglycemia: Since OR procedure pt
s CBGs have noted to be low,
   Lantus was decreased recently to 15u. Pt
s insulin doses have not
   changed and neither has his tube feed regimen. Hypoglycemia may be [**1-18**]
   poor absorption of tube feeds from bowel wall edema given the recent
   procedure.  His blood sugars have been well controlled on 15 units.
   - Continue decreased dose of lantus 15 units.  Will decrease the dosage
   of his sliding scale insulin as he appears to drop after correction.
   # Depression: The patient has been showing decreased interest and signs
   of depression.
   - Continue citalopram 20 mg daily and uptitrate for response.
   - Social work consult for coping.
   # Hypotension:  Resolved, bp
s in 90
s which is patient
s baseline,
   also mentating at baseline.
   - continue midodrine
   # ESRD: On HD, [**1-18**] to diabetic nephropathy. Although HD line has
   surrounding erythema, per renal, has had this stable appearance with
   negative blood cxs.
   - Continue to monitor HD line site exam
   - f/u renal recs
   - HD MWF
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
   # Atrial Fibrillation: No active issues. INR supratherapeutic at 4.8
   today.
   - Off nodal agents until BPs can better tolerate.
   - Hold coumadin given supratherapeutic INR.  Will restart once his INR
   is within in goal range of [**1-19**].
   # Osteomyelitis:  No active issues
   - finished meropenem ([**1-11**] was the completion of 6 week course).
   # R BKA/PVD:
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  Insulin
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: supratherapeutic INR (on coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now, undergoing screening for rehab
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);

2151-01-13 11:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Renal Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PMV not tolerated with rapid tachypnea and respiratory distress
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2151-1-11**] 10:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-1-12**] 08:00 PM
   Fentanyl - [**2151-1-12**] 08:37 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Dialysis
   Flowsheet Data as of  [**2151-1-13**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (96.9
   HR: 97 (72 - 97) bpm
   BP: 65/33(40) {65/33(40) - 105/51(65)} mmHg
   RR: 22 (11 - 23) insp/min
   SpO2: 91%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  2,521 mL
                                                                    670 mL
   PO:
             TF:
                                                                  1,681 mL
                                                                    485 mL
   IVF:
                                                                    240 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,521 mL
                                                                    670 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 441 (440 - 602) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 134
   PIP: 15 cmH2O
   SpO2: 91%
   ABG: ///31/
   Ve: 5.7 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: trancheostomy in place
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, colostomy present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   205 K/uL
   105 mg/dL
   2.2 mg/dL
   31 mEq/L
   5.4 mEq/L
   28 mg/dL
   105 mEq/L
   141 mEq/L
   24.5 %
   13.6 K/uL
        [image002.jpg]
                             [**2151-1-7**]  01:38 PM
                             [**2151-1-7**]  08:29 PM
                             [**2151-1-8**]  04:22 AM
                             [**2151-1-8**]  04:40 AM
                             [**2151-1-9**]  04:07 AM
                             [**2151-1-10**]  01:39 AM
                             [**2151-1-11**]  04:15 AM
                             [**2151-1-11**]  02:25 PM
                             [**2151-1-12**]  04:29 AM
                             [**2151-1-13**]  04:00 AM
   WBC
   22.3
   11.0
   13.4
   15.3
   11.6
   13.6
   Hct
   24.7
   25.7
   21.2
   23.5
   19.6
   23.1
   25.2
   24.5
   Plt
   332
   191
   216
   227
   203
   205
   Cr
   2.1
   1.5
   1.9
   2.4
   1.6
   2.2
   TCO2
   26
   Glucose
   57
   70
   106
   90
   67
   101
   105
   Other labs: PT / PTT / INR:43.2/63.6/4.8, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:82.5 %, Band:0.0 %, Lymph:10.8 %,
   Mono:4.6 %, Eos:1.9 %, Lactic Acid:1.2 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   76 yo male with prolonged hosptial course and persistent ventilatory
   failure, renal failure and recent ileostomy to aid in healing of sacral
   ulcer.  He has clarified his goals of care to be continued full support
   and planning for rehab placement is currently underway whild continuing
   to manage active issues as below.
   1)Respirator Failure-
   -TM during day
   -PSV overnight
   -Would like to maintain PMV but patient unable to tolerate with
   elevated tracheal pressures--willl need downsize and or intervention.
   2)Chronic Renal Failure-
   -Continue with dialysis
   -Stable lytes with dialysis
   3)Sacral Decubitus-
   -Continue with Lidocaine patch and Fentanyl patch with excellent
   control
   -No need for PRN Fentanyl as needed.
   -Ileostomy in place
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition: TF
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2151-01-14 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   24 Hour Events:
   - IP consulted regarding changing trach size so pt can tolerate PMV,
   will be bronched in the AM has been made NPO
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2151-1-11**] 10:00 PM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2151-1-14**] 06:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-14**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.7
   HR: 77 (70 - 97) bpm
   BP: 107/45(59) {65/33(40) - 132/59(97)} mmHg
   RR: 22 (11 - 24) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  2,132 mL
                                                                    120 mL
   PO:
             TF:
                                                                  1,682 mL
   IVF:
                                                                    240 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    100 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,732 mL
                                                                     20 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: Elderly, obese male lying in bed on trach mask,
   interactive
   Cardiovascular: regular rate, no mrg
   Pulmonary: clear anteriorly, no crackles or wheeses
   Abdominal: Soft, diminished bowel sounds, NTND, obese. LLQ colostomy
   present with brown stool and gas in bag, no TTP at site
   Extremities: Rt BKA, Left leg and foot dusky with 2+ UE edema
   bilaterally
   Neurologic: Attentive, Follows commands, mouthing questions
   Labs / Radiology
   183 K/uL
   8.1 g/dL
   56 mg/dL
   1.7 mg/dL
   27 mEq/L
   5.0 mEq/L
   22 mg/dL
   107 mEq/L
   140 mEq/L
   26.2 %
   14.6 K/uL
        [image002.jpg]
                             [**2151-1-7**]  08:29 PM
                             [**2151-1-8**]  04:22 AM
                             [**2151-1-8**]  04:40 AM
                             [**2151-1-9**]  04:07 AM
                             [**2151-1-10**]  01:39 AM
                             [**2151-1-11**]  04:15 AM
                             [**2151-1-11**]  02:25 PM
                             [**2151-1-12**]  04:29 AM
                             [**2151-1-13**]  04:00 AM
                             [**2151-1-14**]  04:41 AM
   WBC
   22.3
   11.0
   13.4
   15.3
   11.6
   13.6
   14.6
   Hct
   25.7
   21.2
   23.5
   19.6
   23.1
   25.2
   24.5
   26.2
   Plt
   332
   191
   216
   227
   203
   205
   183
   Cr
   2.1
   1.5
   1.9
   2.4
   1.6
   2.2
   1.7
   TCO2
   26
   Glucose
   57
   70
   106
   90
   67
   101
   105
   56
   Other labs: PT / PTT / INR:37.4/101.5/4.0, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:82.5 %, Band:0.0 %, Lymph:10.8 %,
   Mono:4.6 %, Eos:1.9 %, Lactic Acid:1.2 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**] -
   decision was made to do so give his stage 4 coccygeal ulcer that was
   continuously fecally contaminated give patient's fecal incontinence.
   Surgery has signed off. No TTP at site, brown stool and gas in bag
   - continue ostomy care
   # Anemia: Hct stable at 26.2. Pt has ESRD and is currently on Epo
   treatment, will keep transfusion goal Hct >21%
   - Trend Hct, infusion goal > 21%
   # Stage IV coccygeal ulcer: Family meeting was held and pt decided on
   diverting colostomy which was done on the evening of [**1-6**] as above
   - Continue wound care
   - Pain controlled better with 100 mcg fentanyl patch and lidocaine
   patches.  Has not required fentanyl boluses since [**1-11**].
   # Hypercarbic Respiratory Failure: Pt noted prior to transfer to have
   oxygen sats in the 70s and copious, thick secretions. Pt currently
   transitioned to trach mask during the day and Bipap at night.  He
   continues to do well on these settings.
   - Continue trach mask support
   - As the patient has not been definitively diagnosed with obesity
   hypoventilation syndrome and is on BIPAP currently, BIPAP held
   overnight and gas actually improved 7.35/57/122 (changed from last
   night of  7.28/72/43).  This morning
s gas appears to be arterial
   though patient does not have an A-line, will repeat but if true values,
   suggests that patient does not have obesity hypoventilation syndrome
   and does not need BIPAP overnight.
   - Atrovent nebs and prn albuterol nebs
   - plan today for bedside bronch to see if there is granulation tissue
   causing increased pressure and will replace current trach tube with a
   smaller one to see if that will allow patient to tolerate passy-muir
   valve.
   # Hypoglycemia: Since OR procedure pt
s CBGs have noted to be low, 56
   this morning.  Lantus was decreased recently to 15u. Pt
s insulin doses
   have not changed and neither has his tube feed regimen. Hypoglycemia
   may be [**1-18**] poor absorption of tube feeds from bowel wall edema given
   the recent procedure.  His blood sugars have been well controlled on 15
   units.
   - Continue decreased dose of lantus 15 units.  Will decrease the dosage
   of his sliding scale insulin as he appears to drop after correction
   consider decreasing further.  Possible that now that patient is no
   longer infected that his hyperglycemia is less and therefore needs less
   insulin
   # Depression: The patient has been showing decreased interest and signs
   of depression give his current medical situation
   - Continue citalopram 20 mg daily and uptitrate for response.
   - Social work consult for coping.
   # Hypotension:  Resolved, bp
s in 90
s which is patient
s baseline,
   also mentating at baseline.
   - continue midodrine
   # ESRD: On HD, [**1-18**] to diabetic nephropathy. Although HD line has
   surrounding erythema, per renal, has had this stable appearance with
   negative blood cxs.
   - Continue to monitor HD line site exam
   - f/u renal recs
   - HD MWF
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
   # Atrial Fibrillation: No active issues. INR supratherapeutic at 4.0
   today.
   - Off nodal agents until BPs can better tolerate.
   - Hold coumadin given supratherapeutic INR.  Will restart once his INR
   is within in goal range of [**1-19**].
   # Osteomyelitis:  No active issues
   - finished meropenem ([**1-11**] was the completion of 6 week course).
   # R BKA/PVD:
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   ICU Care
   Nutrition:  Tube feeds
   Glycemic Control:  SSI
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT:  heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  with patient and sons
   [**Name (NI) 66**] status: Full code
   Disposition: ICU

2151-01-14 10:47:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with reasonable stability but still severe compromise off
   ventilator last evening
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2151-1-11**] 10:00 PM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2151-1-14**] 06:28 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Dialysis
   Flowsheet Data as of  [**2151-1-14**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.5
   HR: 92 (70 - 92) bpm
   BP: 102/55(67) {80/33(44) - 132/59(97)} mmHg
   RR: 23 (11 - 24) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  2,132 mL
                                                                    236 mL
   PO:
             TF:
                                                                  1,682 mL
   IVF:
                                                                    240 mL
                                                                    106 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    100 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,732 mL
                                                                    136 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   183 K/uL
   56 mg/dL
   1.7 mg/dL
   27 mEq/L
   5.0 mEq/L
   22 mg/dL
   107 mEq/L
   140 mEq/L
   26.2 %
   14.6 K/uL
        [image002.jpg]
                             [**2151-1-7**]  08:29 PM
                             [**2151-1-8**]  04:22 AM
                             [**2151-1-8**]  04:40 AM
                             [**2151-1-9**]  04:07 AM
                             [**2151-1-10**]  01:39 AM
                             [**2151-1-11**]  04:15 AM
                             [**2151-1-11**]  02:25 PM
                             [**2151-1-12**]  04:29 AM
                             [**2151-1-13**]  04:00 AM
                             [**2151-1-14**]  04:41 AM
   WBC
   22.3
   11.0
   13.4
   15.3
   11.6
   13.6
   14.6
   Hct
   25.7
   21.2
   23.5
   19.6
   23.1
   25.2
   24.5
   26.2
   Plt
   332
   191
   216
   227
   203
   205
   183
   Cr
   2.1
   1.5
   1.9
   2.4
   1.6
   2.2
   1.7
   TCO2
   26
   Glucose
   57
   70
   106
   90
   67
   101
   105
   56
   Other labs: PT / PTT / INR:37.4/101.5/4.0, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:82.5 %, Band:0.0 %, Lymph:10.8 %,
   Mono:4.6 %, Eos:1.9 %, Lactic Acid:1.2 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   76 yo male with prolonged hospital course and continued need for
   ventilatory support.  He has not had evolution of recurrent sepsis
   following diverting ostomy and has achieved a more stable pain
   regimen.  In the absence of excess sedation patient with excellent
   tolerance of TM across 24 hours.
   1)respiratory failure-PCO2 was 72
64 overnight which argues for
   excellent tolerance
   -Continue TM
   -Bronchoscopy today by IP to evaluate for possible intervention and
   change to allow PMV
   2)ESRD
continue dialysis
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition: TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: -_Supratherapeutic INR
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2151-01-15 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory Failure
   24 Hour Events:
 BRONCHOSCOPY - At [**2151-1-14**] 02:00 PM
   - IP did a bronch and did not see much granulation tissue in the area
   proximal to the trach.   IP recs medically optimizing his plumonary
   status by treating his effusions and CHF.  Rec placing a pigtail
   catheter on left side to drain the effusion and diuresing him to treat
   his volume overload.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-15**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 77 (70 - 92) bpm
   BP: 83/40(50) {83/40(50) - 125/63(74)} mmHg
   RR: 18 (12 - 26) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                    768 mL
                                                                    152 mL
   PO:
                  TF:
                                                                     57 mL
                                                                    152 mL
   IVF:
                                                                    191 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                    300 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    468 mL
                                                                    152 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 334 (334 - 334) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 0 cmH2O
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: Elderly, obese male lying in bed on trach mask,
   sleeping
   Cardiovascular: regular rate, no mrg
   Pulmonary: clear anteriorly, no crackles or wheeses
   Abdominal: Soft, diminished bowel sounds, NTND, obese. LLQ colostomy
   present with brown stool  draining, no TTP at site
   Extremities: Rt BKA, Left leg and foot dusky with 2+ UE edema
   bilaterally
   Neurologic: alert
   Labs / Radiology
   180 K/uL
   7.8 g/dL
   69 mg/dL
   2.3 mg/dL
   29 mEq/L
   5.1 mEq/L
   29 mg/dL
   108 mEq/L
   142 mEq/L
   25.8 %
   16.4 K/uL
        [image002.jpg]
                             [**2151-1-8**]  04:22 AM
                             [**2151-1-8**]  04:40 AM
                             [**2151-1-9**]  04:07 AM
                             [**2151-1-10**]  01:39 AM
                             [**2151-1-11**]  04:15 AM
                             [**2151-1-11**]  02:25 PM
                             [**2151-1-12**]  04:29 AM
                             [**2151-1-13**]  04:00 AM
                             [**2151-1-14**]  04:41 AM
                             [**2151-1-15**]  05:27 AM
   WBC
   22.3
   11.0
   13.4
   15.3
   11.6
   13.6
   14.6
   16.4
   Hct
   25.7
   21.2
   23.5
   19.6
   23.1
   25.2
   24.5
   26.2
   25.8
   Plt
   332
   191
   216
   227
   [**Telephone/Fax (2) 7711**]80
   Cr
   2.1
   1.5
   1.9
   2.4
   1.6
   2.2
   1.7
   2.3
   TCO2
   26
   Glucose
   70
   106
   90
   67
   101
   105
   56
   69
   Other labs: PT / PTT / INR:34.9/62.2/3.7, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:82.5 %, Band:0.0 %, Lymph:10.8 %,
   Mono:4.6 %, Eos:1.9 %, Lactic Acid:1.2 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
   # Hypercarbic Respiratory Failure: Pt noted prior to transfer several
   weeks ago to have oxygen sats in the 70s and copious, thick secretions.
   Evening BIPAP d/c
ed as the patient has not been definitively diagnosed
   with obesity hypoventilation syndrome. BIPAP held 2 nights ago and VBG
   unchanged from evening to morning 7.28/72/43 -----> 7.23/64/38
   suggesting BIPAP not needed.  Bedside bronch done yesterday showing no
   granulation tissue at or above trach stie, unable to see below.
   Suspect some tracheomalacia or tracheal stenosis that doesn
t allow air
   flow when PM valve is in place and make the patient unable to tolerate
   the valve
   - Continue trach mask support
   - Atrovent nebs and prn albuterol nebs
   - per IP, if could replace trach tube but needs to be optimized from a
   pulmonary status which he is not currently
 specifically, would need
   drainage of pleural effusions and diuresis to minimize his CHF
   this point, pressures remain in 80
s and would not likely tolerate
   diuresis
 also per IP, unclear if replacing tube with smaller size
   would in fact allow patient to tolerate valve
   - discussed with family who agrees no replacement of tube for now given
   low BP and unclear outcome of prodcedure
   # Leukocytosis:  Slowly trending up , at 16 this morning up from 14,
   diff with left shift (N = 85, L= 5), but no bands.  Has been afebrile,
   no symptoms of infection.
   - will trend WBC and fever curve, low threshold for starting abx given
   known osteeo (finished meropenem several days ago, stage 4 sacral ulcer
   and recent bowel manipulation.
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**] -
   decision was made to do so give his stage 4 coccygeal ulcer that was
   continuously fecally contaminated give patient's fecal incontinence.
   Surgery has signed off. No TTP at site, brown stool and gas in bag.
   Wound care nurse [**First Name (Titles) 2090**] [**Last Name (Titles) 7712**] skin necrosis at ostomy site when bag was
   changed because the bridge has tension on it
 surgery aware
   - continue ostomy care
   - f/u surgery recs
   # Anemia: Hct stable at 26.2. Pt has ESRD and is currently on Epo
   treatment, will keep transfusion goal Hct >21%
   - Trend Hct, infusion goal > 21%
   # Stage IV coccygeal ulcer: Family meeting was held and pt decided on
   diverting colostomy which was done on the evening of [**1-6**] as above
   - Continue wound care
   - Pain controlled better with 100 mcg fentanyl patch and lidocaine
   patches.  Has not required fentanyl boluses since [**1-11**].
   # Hypoglycemia: Since OR procedure pt
s CBGs have noted to be low, 56
   this morning.  Lantus was decreased recently to 15u. Pt
s insulin doses
   have not changed and neither has his tube feed regimen. Hypoglycemia
   may be [**1-18**] poor absorption of tube feeds from bowel wall edema given
   the recent procedure.  His blood sugars have continued to be low (56
   this morning) on 15 units.  Possible that now that patient is no longer
   infected that his hyperglycemia is less and therefore needs less
   insulin
   -will decreased Lantus to 10u qd
   - continue SSI
   # Depression: The patient has been showing decreased interest and signs
   of depression give his current medical situation
   - Continue citalopram 20 mg daily and uptitrate for response.
   - Social work consult for coping.
   # Hypotension:  Resolved, bp
s in 90
s which is patient
s baseline,
   also mentating at baseline.
   - continue midodrine
   # ESRD: On HD, [**1-18**] to diabetic nephropathy. Although HD line has
   surrounding erythema, per renal, has had this stable appearance with
   negative blood cxs.
   - Continue to monitor HD line site exam
   - f/u renal recs
   - HD MWF
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
   # Atrial Fibrillation: No active issues. INR supratherapeutic at 4.0
   today
   - Off nodal agents until BPs can better tolerate.
   - Hold coumadin given supratherapeutic INR.  Will restart once his INR
   is within in goal range of [**1-19**].
   # Osteomyelitis:  No active issues
   - finished meropenem ([**1-11**] was the completion of 6 week course).
   # R BKA/PVD
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-14**] 06:16 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2151-01-15 11:02:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Renal Failiure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2151-1-14**] 02:00 PM
   IP evaluated patient to consider trach change and consdieration of this
   is liimited by persistent malacia  under their impression and suggested
   continued trach support with current device.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2151-1-15**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.8
C (96.4
   HR: 73 (70 - 89) bpm
   BP: 99/43(54) {80/33(40) - 125/63(74)} mmHg
   RR: 14 (12 - 26) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                    768 mL
                                                                    350 mL
   PO:
                  TF:
                                                                     57 mL
                                                                    270 mL
   IVF:
                                                                    191 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                    300 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    468 mL
                                                                    350 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 334 (334 - 334) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 0 cmH2O
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   180 K/uL
   69 mg/dL
   2.3 mg/dL
   29 mEq/L
   5.1 mEq/L
   29 mg/dL
   108 mEq/L
   142 mEq/L
   25.8 %
   16.4 K/uL
        [image002.jpg]
                             [**2151-1-8**]  04:22 AM
                             [**2151-1-8**]  04:40 AM
                             [**2151-1-9**]  04:07 AM
                             [**2151-1-10**]  01:39 AM
                             [**2151-1-11**]  04:15 AM
                             [**2151-1-11**]  02:25 PM
                             [**2151-1-12**]  04:29 AM
                             [**2151-1-13**]  04:00 AM
                             [**2151-1-14**]  04:41 AM
                             [**2151-1-15**]  05:27 AM
   WBC
   22.3
   11.0
   13.4
   15.3
   11.6
   13.6
   14.6
   16.4
   Hct
   25.7
   21.2
   23.5
   19.6
   23.1
   25.2
   24.5
   26.2
   25.8
   Plt
   332
   191
   216
   227
   [**Telephone/Fax (2) 7711**]80
   Cr
   2.1
   1.5
   1.9
   2.4
   1.6
   2.2
   1.7
   2.3
   TCO2
   26
   Glucose
   70
   106
   90
   67
   101
   105
   56
   69
   Other labs: PT / PTT / INR:34.9/62.2/3.7, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:82.5 %, Band:0.0 %, Lymph:10.8 %,
   Mono:4.6 %, Eos:1.9 %, Lactic Acid:1.2 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   76 yo male with prolonged hosptialization and now with continued
   dialysis required, some improved tolerance of time off ventilator and
   with continued control of sepsis via diverting ostomy leading to
   improved wound care in ulcer area.  Will continue with
   Trach mask with humidified O2
   Continue with dialysis
   Continue with Ostomy in current set up
   Continue with monitoring with Diff Count today with concern for rising
   WBC count
   Pain control with resonable tolerance in terms of pain control and
   sedation level
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-14**] 06:16 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2151-01-16 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-1-15**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-16**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 78 (70 - 89) bpm
   BP: 87/45(56) {65/33(40) - 101/54(65)} mmHg
   RR: 18 (8 - 28) insp/min
   SpO2: 95%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  1,637 mL
                                                                    552 mL
   PO:
             TF:
                                                                    907 mL
                                                                    483 mL
   IVF:
                                                                    540 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    150 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,637 mL
                                                                    402 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 95%
   ABG: ///33/
   Physical Examination
   General Appearance: Elderly, obese male lying in bed on trach mask,
   sleeping
   Cardiovascular: regular rate, no mrg
   Pulmonary: clear anteriorly, no crackles or wheeses
   Abdominal: Soft, diminished bowel sounds, NTND, obese. LLQ colostomy
   present with brown stool  draining, no TTP at site
   Extremities: Rt BKA, Left leg and foot dusky with 2+ UE edema
   bilaterally
   Neurologic: alert
   Labs / Radiology
   188 K/uL
   7.8 g/dL
   104 mg/dL
   1.6 mg/dL
   33 mEq/L
   4.4 mEq/L
   19 mg/dL
   107 mEq/L
   144 mEq/L
   26.3 %
   13.8 K/uL
        [image002.jpg]
                             [**2151-1-8**]  04:40 AM
                             [**2151-1-9**]  04:07 AM
                             [**2151-1-10**]  01:39 AM
                             [**2151-1-11**]  04:15 AM
                             [**2151-1-11**]  02:25 PM
                             [**2151-1-12**]  04:29 AM
                             [**2151-1-13**]  04:00 AM
                             [**2151-1-14**]  04:41 AM
                             [**2151-1-15**]  05:27 AM
                             [**2151-1-16**]  03:51 AM
   WBC
   11.0
   13.4
   15.3
   11.6
   13.6
   14.6
   16.4
   13.8
   Hct
   21.2
   23.5
   19.6
   23.1
   25.2
   24.5
   26.2
   25.8
   26.3
   Plt
   191
   216
   227
   [**Telephone/Fax (2) 7732**]88
   Cr
   1.5
   1.9
   2.4
   1.6
   2.2
   1.7
   2.3
   1.6
   TCO2
   26
   Glucose
   106
   90
   67
   101
   105
   56
   69
   104
   Other labs: PT / PTT / INR:34.8/75.8/3.7, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:85.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:6.0 %, Eos:4.0 %, Lactic Acid:1.2 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
   # Hypercarbic Respiratory Failure: Pt noted prior to transfer several
   weeks ago to have oxygen sats in the 70s and copious, thick secretions.
   Evening BIPAP d/c
ed as the patient has not been definitively diagnosed
   with obesity hypoventilation syndrome. BIPAP held 2 nights ago and VBG
   unchanged from evening to morning 7.28/72/43 -----> 7.23/64/38
   suggesting BIPAP not needed.  Bedside bronch done yesterday showing no
   granulation tissue at or above trach stie, unable to see below.
   Suspect some tracheomalacia or tracheal stenosis that doesn
t allow air
   flow when PM valve is in place and make the patient unable to tolerate
   the valve
   - Continue trach mask support
   - Atrovent nebs and prn albuterol nebs
   - per IP, if could replace trach tube but needs to be optimized from a
   pulmonary status which he is not currently
 specifically, would need
   drainage of pleural effusions and diuresis to minimize his CHF
   this point, pressures remain in 80
s and would not likely tolerate
   diuresis
 also per IP, unclear if replacing tube with smaller size
   would in fact allow patient to tolerate valve
   - discussed with family who agrees no replacement of tube for now given
   low BP and unclear outcome of prodcedure
   # Leukocytosis:  Slowly trending up , at 16 this morning up from 14,
   diff with left shift (N = 85, L= 5), but no bands.  Has been afebrile,
   no symptoms of infection.
   - will trend WBC and fever curve, low threshold for starting abx given
   known osteeo (finished meropenem several days ago, stage 4 sacral ulcer
   and recent bowel manipulation.
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**] -
   decision was made to do so give his stage 4 coccygeal ulcer that was
   continuously fecally contaminated give patient's fecal incontinence.
   Surgery has signed off. No TTP at site, brown stool and gas in bag.
   Wound care nurse [**First Name (Titles) 2090**] [**Last Name (Titles) 7712**] skin necrosis at ostomy site when bag was
   changed because the bridge has tension on it
 surgery aware
   - continue ostomy care
   - f/u surgery recs
   # Anemia: Hct stable at 26.2. Pt has ESRD and is currently on Epo
   treatment, will keep transfusion goal Hct >21%
   - Trend Hct, infusion goal > 21%
   # Stage IV coccygeal ulcer: Family meeting was held and pt decided on
   diverting colostomy which was done on the evening of [**1-6**] as above
   - Continue wound care
   - Pain controlled better with 100 mcg fentanyl patch and lidocaine
   patches.  Has not required fentanyl boluses since [**1-11**].
   # Hypoglycemia: Since OR procedure pt
s CBGs have noted to be low, 56
   this morning.  Lantus was decreased recently to 15u. Pt
s insulin doses
   have not changed and neither has his tube feed regimen. Hypoglycemia
   may be [**1-18**] poor absorption of tube feeds from bowel wall edema given
   the recent procedure.  His blood sugars have continued to be low (56
   this morning) on 15 units.  Possible that now that patient is no longer
   infected that his hyperglycemia is less and therefore needs less
   insulin
   -will decreased Lantus to 10u qd
   - continue SSI
   # Depression: The patient has been showing decreased interest and signs
   of depression give his current medical situation
   - Continue citalopram 20 mg daily and uptitrate for response.
   - Social work consult for coping.
   # Hypotension:  Resolved, bp
s in 90
s which is patient
s baseline,
   also mentating at baseline.
   - continue midodrine
   # ESRD: On HD, [**1-18**] to diabetic nephropathy. Although HD line has
   surrounding erythema, per renal, has had this stable appearance with
   negative blood cxs.
   - Continue to monitor HD line site exam
   - f/u renal recs
   - HD MWF
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
   # Atrial Fibrillation: No active issues. INR supratherapeutic at 4.0
   today
   - Off nodal agents until BPs can better tolerate.
   - Hold coumadin given supratherapeutic INR.  Will restart once his INR
   is within in goal range of [**1-19**].
   # Osteomyelitis:  No active issues
   - finished meropenem ([**1-11**] was the completion of 6 week course).
   # R BKA/PVD
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-16**] 12:23 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-01-16 11:04:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   75 yo male with resp failure on trach, ESRD, COPD, DM2, stg IV decub
   s/p diverting colostomy
   Initially admitted with hypercarbic failure/sedation
   24 Hour Events:
   Underwent HD, Did require fluid bolus afterwards
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-1-15**] 08:00 PM
   Other medications:
   colace, lidocaine, lansoprazole, epo, mitodrine, atrovent, albuterol,
   ferrous sulfate, zocor, celexa, fentanyl,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-16**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 73 (72 - 85) bpm
   BP: 92/49(60) {65/35(41) - 101/54(65)} mmHg
   RR: 19 (8 - 28) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  1,637 mL
                                                                    736 mL
   PO:
             TF:
                                                                    907 mL
                                                                    629 mL
   IVF:
                                                                    540 mL
                                                                    108 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    150 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,637 mL
                                                                    586 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: ///33/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   OG tube, Trach'd
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese, PEG tube
   Extremities: No(t) Cyanosis, No(t) Clubbing, s/p BKA left, R foot dusky
   but warm and unchanged
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   7.8 g/dL
   188 K/uL
   104 mg/dL
   1.6 mg/dL
   33 mEq/L
   4.4 mEq/L
   19 mg/dL
   107 mEq/L
   144 mEq/L
   26.3 %
   13.8 K/uL
        [image002.jpg]
                             [**2151-1-8**]  04:40 AM
                             [**2151-1-9**]  04:07 AM
                             [**2151-1-10**]  01:39 AM
                             [**2151-1-11**]  04:15 AM
                             [**2151-1-11**]  02:25 PM
                             [**2151-1-12**]  04:29 AM
                             [**2151-1-13**]  04:00 AM
                             [**2151-1-14**]  04:41 AM
                             [**2151-1-15**]  05:27 AM
                             [**2151-1-16**]  03:51 AM
   WBC
   11.0
   13.4
   15.3
   11.6
   13.6
   14.6
   16.4
   13.8
   Hct
   21.2
   23.5
   19.6
   23.1
   25.2
   24.5
   26.2
   25.8
   26.3
   Plt
   191
   216
   227
   [**Telephone/Fax (2) 7732**]88
   Cr
   1.5
   1.9
   2.4
   1.6
   2.2
   1.7
   2.3
   1.6
   TCO2
   26
   Glucose
   106
   90
   67
   101
   105
   56
   69
   104
   Other labs: PT / PTT / INR:34.8/75.8/3.7, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:85.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:6.0 %, Eos:4.0 %, Lactic Acid:1.2 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   76 yo male with
   *Resp failure: off BiPAP for the time being, but remains quite
   senstivite to pain medicines
   *Sacral decub/Pain: on lidocaine and fentanyl patch
   s/p 6 weeks Merepenem
   Intermittent hypotension: on mitodrine, pt tolerating
   ESRD: undergoin HD
   *Dispo
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2151-01-17 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   No events.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-1-16**] 08:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-17**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 86 (73 - 86) bpm
   BP: 92/43(55) {73/36(47) - 104/50(61)} mmHg
   RR: 23 (9 - 33) insp/min
   SpO2: 94%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  1,814 mL
                                                                    195 mL
   PO:
                  TF:
                                                                  1,434 mL
                                                                    195 mL
   IVF:
                                                                    140 mL
   Blood products:
   Total out:
                                                                    150 mL
                                                                     85 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,664 mL
                                                                    110 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 94%
   ABG: ////
   Physical Examination
   General Appearance: Elderly, obese male lying in bed on trach mask,
   sleeping
   Cardiovascular: regular rate, no mrg
   Pulmonary: clear anteriorly, no crackles or wheeses
   Abdominal: Soft, diminished bowel sounds, NTND, obese. LLQ colostomy
   present with brown stool  draining, no TTP at site
   Extremities: Rt BKA, Left leg and foot dusky with 2+ UE edema
   bilaterally
   Neurologic: alert
   Labs / Radiology
   188 K/uL
   7.8 g/dL
   104 mg/dL
   1.6 mg/dL
   33 mEq/L
   4.4 mEq/L
   19 mg/dL
   107 mEq/L
   144 mEq/L
   26.3 %
   13.8 K/uL
        [image002.jpg]
                             [**2151-1-8**]  04:40 AM
                             [**2151-1-9**]  04:07 AM
                             [**2151-1-10**]  01:39 AM
                             [**2151-1-11**]  04:15 AM
                             [**2151-1-11**]  02:25 PM
                             [**2151-1-12**]  04:29 AM
                             [**2151-1-13**]  04:00 AM
                             [**2151-1-14**]  04:41 AM
                             [**2151-1-15**]  05:27 AM
                             [**2151-1-16**]  03:51 AM
   WBC
   11.0
   13.4
   15.3
   11.6
   13.6
   14.6
   16.4
   13.8
   Hct
   21.2
   23.5
   19.6
   23.1
   25.2
   24.5
   26.2
   25.8
   26.3
   Plt
   191
   216
   227
   [**Telephone/Fax (2) 7732**]88
   Cr
   1.5
   1.9
   2.4
   1.6
   2.2
   1.7
   2.3
   1.6
   TCO2
   26
   Glucose
   106
   90
   67
   101
   105
   56
   69
   104
   Other labs: PT / PTT / INR:34.8/75.8/3.7, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:85.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:6.0 %, Eos:4.0 %, Lactic Acid:1.2 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
   # Stage IV coccygeal ulcer: Family meeting was held and pt decided on
   diverting colostomy which was done on the evening of [**1-6**] as above
   - Continue wound care
   - Pain controlled better with 100 mcg fentanyl patch and lidocaine
   patches.  Has not required fentanyl boluses since [**1-11**].  Still having a
   lot of pain with dressing changes.  Will try morphine oral concentrate
   solution prn for dressing changes.
   # Hypercarbic Respiratory Failure: Pt noted prior to transfer several
   weeks ago to have oxygen sats in the 70s and copious, thick secretions.
   Evening BIPAP d/c
ed as the patient has not been definitively diagnosed
   with obesity hypoventilation syndrome. BIPAP held 2 nights ago and VBG
   unchanged from evening to morning 7.28/72/43 -----> 7.23/64/38
   suggesting BIPAP not needed.  Bedside bronch done yesterday showing no
   granulation tissue at or above trach stie, unable to see below.
   Suspect some tracheomalacia or tracheal stenosis that doesn
t allow air
   flow when PM valve is in place and make the patient unable to tolerate
   the valve.  Per IP, if could replace trach tube but needs to be
   optimized from a pulmonary status which he is not currently
   specifically, would need drainage of pleural effusions and diuresis to
   minimize his CHF
 at this point, pressures remain in 80
s and would
   not likely tolerate diuresis
 also per IP, unclear if replacing tube
   with smaller size would in fact allow patient to tolerate valve This
   was discussed with family who agrees no replacement of tube for now
   given low BP and unclear outcome of procedure.
   - Continue trach mask support
   - Atrovent nebs and prn albuterol nebs
   # Leukocytosis:  Trended down yesterday to 13.8 (from 16.4). Has been
   afebrile, no symptoms of infection.
   - will trend WBC and fever curve, low threshold for starting abx given
   known osteeo (finished meropenem several days ago, stage 4 sacral ulcer
   and recent bowel manipulation.
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**] -
   decision was made to do so give his stage 4 coccygeal ulcer that was
   continuously fecally contaminated give patient's fecal incontinence.
   Surgery has signed off. No TTP at site, brown stool and gas in bag.
   Wound care nurse [**First Name (Titles) 2090**] [**Last Name (Titles) 7712**] skin necrosis at ostomy site when bag was
   changed because the bridge has tension on it
 surgery aware
   - continue ostomy care
   - f/u surgery recs
   # Anemia: Hct stable at 26.3 yesterday. Pt has ESRD and is currently on
   Epo treatment, will keep transfusion goal Hct >21%
   - Trend Hct, infusion goal > 21%
   # Hypoglycemia: Since OR procedure pt
s CBGs have noted to be low, 56
   this morning.  Lantus was decreased recently to 10u. Pt
s insulin doses
   have not changed and neither has his tube feed regimen. Hypoglycemia
   may be [**1-18**] poor absorption of tube feeds from bowel wall edema given
   the recent procedure.  Possible that now that patient is no longer
   infected that his hyperglycemia is less and therefore needs less
   insulin
   - continue decreased Lantus to 10u qd
   - continue SSI
   # Depression: The patient has been showing decreased interest and signs
   of depression give his current medical situation
   - Will increase citalopram to 30 mg daily and uptitrate for response.
   - Social work consult for coping.
   # Hypotension:  Resolved, bp
s in 90
s which is patient
s baseline,
   also mentating at baseline.
   - continue midodrine
   # ESRD: On HD, [**1-18**] to diabetic nephropathy. Although HD line has
   surrounding erythema, per renal, has had this stable appearance with
   negative blood cxs.
   - Continue to monitor HD line site exam
   - f/u renal recs
   - HD MWF
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
   # Atrial Fibrillation: No active issues. INR supratherapeutic at 3.7
   yesterday.
   - Off nodal agents until BPs can better tolerate.
   - Hold coumadin given supratherapeutic INR.  Will restart once his INR
   is within in goal range of [**1-19**].
   # Osteomyelitis:  No active issues
   - finished meropenem ([**1-11**] was the completion of 6 week course).
   # R BKA/PVD
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: supratherapeutic INR
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2151-01-17 12:43:00 Physician Attending Progress Note
Chief Complaint: abdominal pain, sedation, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   75 yo male with COPD, ESRD, decub ulcer s/p colostomy
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records, ICU team
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-1-16**] 08:48 PM
   Other medications:
   colace, lidocaine patch, epoitin, mitodrine, simvastatin, celexa,
   fentanyl, insulin, SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-17**] 12:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (97
   HR: 80 (76 - 86) bpm
   BP: 91/44(54) {73/36(46) - 104/50(61)} mmHg
   RR: 15 (9 - 33) insp/min
   SpO2: 94%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  1,814 mL
                                                                    965 mL
   PO:
                  TF:
                                                                  1,434 mL
                                                                    845 mL
   IVF:
                                                                    140 mL
   Blood products:
   Total out:
                                                                    150 mL
                                                                     85 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,664 mL
                                                                    881 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 94%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, trach
   Lymphatic: Cervical WNL
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), Trach site, scattered rare
   wheezes
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: right BKA, left toes dusky
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Previously following simple commands, though
   currently sleeping, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
                                  7.8 g/dL
   188 K/uL
   104 mg/dL
   1.6 mg/dL
   33 mEq/L
   4.4 mEq/L
   19 mg/dL
   107 mEq/L
   144 mEq/L
   26.3 %
   13.8 K/uL
                             [**2151-1-8**]  04:40 AM
                             [**2151-1-9**]  04:07 AM
                             [**2151-1-10**]  01:39 AM
                             [**2151-1-11**]  04:15 AM
                             [**2151-1-11**]  02:25 PM
                             [**2151-1-12**]  04:29 AM
                             [**2151-1-13**]  04:00 AM
                             [**2151-1-14**]  04:41 AM
                             [**2151-1-15**]  05:27 AM
                             [**2151-1-16**]  03:51 AM
   WBC
   11.0
   13.4
   15.3
   11.6
   13.6
   14.6
   16.4
   13.8
   Hct
   21.2
   23.5
   19.6
   23.1
   25.2
   24.5
   26.2
   25.8
   26.3
   Plt
   191
   216
   227
   [**Telephone/Fax (2) 7732**]88
   Cr
   1.5
   1.9
   2.4
   1.6
   2.2
   1.7
   2.3
   1.6
   TCO2
   26
   Glucose
   106
   90
   67
   101
   105
   56
   69
   104
   Other labs: PT / PTT / INR:34.8/75.8/3.7, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:85.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:6.0 %, Eos:4.0 %, Lactic Acid:1.2 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   Patient with chronic resp failure on trach, decub with continued pain.
   [**Last Name **] problem with pain control is that pt develops severe pain with
   dressing changes and sometimes refuses to turn over- as pain spikes
   intermittently, will try prn morphine
 he may not tolerate any better
   than oxycodone
   S/p a 6 week course of merepenem
   Increase citalopram
   INR still high so no need to increase coumadin
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-17**] 02:42 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes

2151-01-18 07:03:00 Physician Resident Progress Note
Chief Complaint: s/p colostomy, HD dependent, sepsis
   24 Hour Events:
 BLOOD CULTURED - At [**2151-1-18**] 04:00 AM
 EKG - At [**2151-1-18**] 04:00 AM
 SPUTUM CULTURE - At [**2151-1-18**] 04:00 AM
 INVASIVE VENTILATION - START [**2151-1-18**] 04:27 AM
   - Given concern for continued pain with dressing changes 5 mg morphine
   concentrate was ordered.
   - Only checking labs every other day.
   - His citalopram was increased to 30 mg daily (from 20).
   - PT consult was ordered.
   - His PEG was clogged and fluid was seen coming out around it when it
   was flushed.  Tube feeds were held.  Will need to call for evaluation
   tomorrow.
   - In the middle of the night his SBPs decreased to the 70's and he was
   only responsive to sternal rub.  He was given 250 cc NS bolus x 3 and
   started on levophed as he was not responsive to fluids.  He was
   pancultured and placed on the ventilator or respiratory support.  EKG
   had no changes.  Once his pressures rose, his mental status improved.
   - When placed back on the ventilator his tidal volumes were not
   consistent and a gas showed 7.19/87/75.  His trach appeared unstable,
   his tidal volume would improve if it was moved certain ways.  Bagging
   him was okay.  Given the instability of his trach, anesthesia was
   [**Name (NI) 420**], however it began to stabilize with repositioning so he was
   not intubated.  Rocuronium was ordered to be by the bedside (has his K
   is likely high since last HD Fri) and anesthesia overnight is aware.
   - Weaned off levophed (on for 1.5 hours) and pressures stable with good
   mentation.
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-1-17**] 08:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Neurologic: No(t) Headache
   Flowsheet Data as of  [**2151-1-18**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36
C (96.8
   HR: 85 (74 - 85) bpm
   BP: 101/56(66) {70/32(42) - 110/67(77)} mmHg
   RR: 29 (13 - 29) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  1,650 mL
                                                                    824 mL
   PO:
             TF:
                                                                  1,400 mL
   IVF:
   824 mL
   Blood products:
   Total out:
                                                                    285 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,365 mL
                                                                    824 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 450) mL
   Vt (Spontaneous): 416 (416 - 416) mL
   PS : 12 cmH2O
   RR (Set): 0
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Airway
   PIP: 29 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 99%
   ABG: 7.33/60/61/30/3
   Ve: 15 L/min
   PaO2 / FiO2: 122
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Distant), (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Left: Absent, Cyanosis
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x2, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   182 K/uL
   7.6 g/dL
   95 mg/dL
   2.5 mg/dL
   30 mEq/L
   6.0 mEq/L
   35 mg/dL
   106 mEq/L
   143 mEq/L
   26
   16.1 K/uL
        [image002.jpg]
                             [**2151-1-11**]  04:15 AM
                             [**2151-1-11**]  02:25 PM
                             [**2151-1-12**]  04:29 AM
                             [**2151-1-13**]  04:00 AM
                             [**2151-1-14**]  04:41 AM
                             [**2151-1-15**]  05:27 AM
                             [**2151-1-16**]  03:51 AM
                             [**2151-1-18**]  03:07 AM
                             [**2151-1-18**]  03:33 AM
                             [**2151-1-18**]  04:33 AM
   WBC
   15.3
   11.6
   13.6
   14.6
   16.4
   13.8
   16.1
   Hct
   19.6
   23.1
   25.2
   24.5
   26.2
   25.8
   26.3
   25.9
   26
   Plt
   227
   203
   205
   183
   180
   188
   182
   Cr
   2.4
   1.6
   2.2
   1.7
   2.3
   1.6
   2.5
   TCO2
   35
   33
   Glucose
   67
   101
   105
   56
   69
   104
   95
   Other labs: PT / PTT / INR:34.8/75.8/3.7, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:85.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:6.0 %, Eos:4.0 %, Lactic Acid:0.9 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
   # Stage IV coccygeal ulcer: Family meeting was held and pt decided on
   diverting colostomy which was done on the evening of [**1-6**] as above
   - Continue wound care
   - Pain controlled better with 100 mcg fentanyl patch and lidocaine
   patches.  Has not required fentanyl boluses since [**1-11**].  Still having a
   lot of pain with dressing changes.  Will try morphine oral concentrate
   solution prn for dressing changes.
   # Hypercarbic Respiratory Failure: Pt noted prior to transfer several
   weeks ago to have oxygen sats in the 70s and copious, thick secretions.
   Evening BIPAP d/c
ed as the patient has not been definitively diagnosed
   with obesity hypoventilation syndrome. BIPAP held 2 nights ago and VBG
   unchanged from evening to morning 7.28/72/43 -----> 7.23/64/38
   suggesting BIPAP not needed.  Bedside bronch done yesterday showing no
   granulation tissue at or above trach stie, unable to see below.
   Suspect some tracheomalacia or tracheal stenosis that doesn
t allow air
   flow when PM valve is in place and make the patient unable to tolerate
   the valve.  Per IP, if could replace trach tube but needs to be
   optimized from a pulmonary status which he is not currently
   specifically, would need drainage of pleural effusions and diuresis to
   minimize his CHF
 at this point, pressures remain in 80
s and would
   not likely tolerate diuresis
 also per IP, unclear if replacing tube
   with smaller size would in fact allow patient to tolerate valve This
   was discussed with family who agrees no replacement of tube for now
   given low BP and unclear outcome of procedure.
   - Continue trach mask support
   - Atrovent nebs and prn albuterol nebs
   # Leukocytosis:  Trended down yesterday to 13.8 (from 16.4). Has been
   afebrile, no symptoms of infection.
   - will trend WBC and fever curve, low threshold for starting abx given
   known osteeo (finished meropenem several days ago, stage 4 sacral ulcer
   and recent bowel manipulation.
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**] -
   decision was made to do so give his stage 4 coccygeal ulcer that was
   continuously fecally contaminated give patient's fecal incontinence.
   Surgery has signed off. No TTP at site, brown stool and gas in bag.
   Wound care nurse [**First Name (Titles) 2090**] [**Last Name (Titles) 7712**] skin necrosis at ostomy site when bag was
   changed because the bridge has tension on it
 surgery aware
   - continue ostomy care
   - f/u surgery recs
   # Anemia: Hct stable at 26.3 yesterday. Pt has ESRD and is currently on
   Epo treatment, will keep transfusion goal Hct >21%
   - Trend Hct, infusion goal > 21%
   # Hypoglycemia: Since OR procedure pt
s CBGs have noted to be low, 56
   this morning.  Lantus was decreased recently to 10u. Pt
s insulin doses
   have not changed and neither has his tube feed regimen. Hypoglycemia
   may be [**1-18**] poor absorption of tube feeds from bowel wall edema given
   the recent procedure.  Possible that now that patient is no longer
   infected that his hyperglycemia is less and therefore needs less
   insulin
   - continue decreased Lantus to 10u qd
   - continue SSI
   # Depression: The patient has been showing decreased interest and signs
   of depression give his current medical situation
   - Will increase citalopram to 30 mg daily and uptitrate for response.
   - Social work consult for coping.
   # Hypotension:  Resolved, bp
s in 90
s which is patient
s baseline,
   also mentating at baseline.
   - continue midodrine
   # ESRD: On HD, [**1-18**] to diabetic nephropathy. Although HD line has
   surrounding erythema, per renal, has had this stable appearance with
   negative blood cxs.
   - Continue to monitor HD line site exam
   - f/u renal recs
   - HD MWF
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
   # Atrial Fibrillation: No active issues. INR supratherapeutic at 3.7
   yesterday.
   - Off nodal agents until BPs can better tolerate.
   - Hold coumadin given supratherapeutic INR.  Will restart once his INR
   is within in goal range of [**1-19**].
   # Osteomyelitis:  No active issues
   - finished meropenem ([**1-11**] was the completion of 6 week course).
   # R BKA/PVD
    Continue current wound care
    # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2151-01-18 10:09:00 Physician Attending Progress Note
Chief Complaint: Respratory Failure
   Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2151-1-18**] 04:00 AM
 EKG - At [**2151-1-18**] 04:00 AM
 SPUTUM CULTURE - At [**2151-1-18**] 04:00 AM
 INVASIVE VENTILATION - START [**2151-1-18**] 04:27 AM
   -Patient with hypotension overnight requiring fluid and return to
   pressors--This is in absence of significant fever
   -Patient with return to mechanical ventilation with increased PIP and
   improved with trach positioning
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-1-17**] 08:10 PM
   Fentanyl - [**2151-1-18**] 07:09 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-18**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (97
   HR: 89 (74 - 94) bpm
   BP: 69/37(44) {69/32(42) - 110/67(77)} mmHg
   RR: 16 (13 - 29) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  1,650 mL
                                                                    883 mL
   PO:
             TF:
                                                                  1,400 mL
   IVF:
   883 mL
   Blood products:
   Total out:
                                                                    285 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,365 mL
                                                                    883 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 450) mL
   Vt (Spontaneous): 416 (416 - 416) mL
   PS : 12 cmH2O
   RR (Set): 0
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 70%
   RSBI Deferred: Unstable Airway
   PIP: 29 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.33/60/61/30/3
   Ve: 15 L/min
   PaO2 / FiO2: 122
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Trachesotomy Tube in Place
   Cardiovascular: (S1: Normal), (S2: Distant), Patient with increased
   induration in region of CVL for dialysis
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   182 K/uL
   95 mg/dL
   2.5 mg/dL
   30 mEq/L
   6.0 mEq/L
   35 mg/dL
   106 mEq/L
   143 mEq/L
   26
   16.1 K/uL
        [image002.jpg]
                             [**2151-1-11**]  04:15 AM
                             [**2151-1-11**]  02:25 PM
                             [**2151-1-12**]  04:29 AM
                             [**2151-1-13**]  04:00 AM
                             [**2151-1-14**]  04:41 AM
                             [**2151-1-15**]  05:27 AM
                             [**2151-1-16**]  03:51 AM
                             [**2151-1-18**]  03:07 AM
                             [**2151-1-18**]  03:33 AM
                             [**2151-1-18**]  04:33 AM
   WBC
   15.3
   11.6
   13.6
   14.6
   16.4
   13.8
   16.1
   Hct
   19.6
   23.1
   25.2
   24.5
   26.2
   25.8
   26.3
   25.9
   26
   Plt
   227
   203
   205
   183
   180
   188
   182
   Cr
   2.4
   1.6
   2.2
   1.7
   2.3
   1.6
   2.5
   TCO2
   35
   33
   Glucose
   67
   101
   105
   56
   69
   104
   95
   Other labs: PT / PTT / INR:21.3/42.6/2.0, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:85.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:6.0 %, Eos:4.0 %, Lactic Acid:0.9 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR--Mild improvement in left sided opacity but with bilateral
   interstitial infiltrate (mild) and small/moderate biateral effusions.
   No mediastinal air noted.
   Assessment and Plan
   76 yo male with prolonged hospital course now c/b significant evolution
   of hypotension and requiring return to mechanical ventilation last
   evening.  The source of this remains to be defined.  He on CXR shows
   minimal evidence of significant change and no mediastinal air is seen.
   Concerning is the evolution of intermittent hypotension.  The source is
   still multifactorial
he has poor po access with G-tube malfunction and
   inability to deliver po midodrine.  He has intermittent difficulty with
   airway support and inabilty to ventilate with return to mechanical
   ventilation.  No evidence of mediastinal air seen.  He has fluid
   responsive hypotension at this time with relatively small volumes
   given.
   1)Hypotension-
   -Reculture for possible infectious source
   -Will check for pseudosepsis
with TSH, Cortisol
   -In absence of fever would consider recurrent bacterial infection less
   likely but is the most likely source.
   -ECG without abnormalities, will check ECHO today
   -Will let culture results dictate catheter changes
   -Will have to keep fluid balance even and consider CVVH if persistent
   hypotension seen.
   -Will have to re-examine line site with patient in position able to be
   viewed (patient in middle of turn during exam)
   -In regards to PE possibility
patient is with  elevated INR at this
   time.
   2)Respiratory Failure-
   -Patient to trach mask this morning with good stability
   -Return to MV
   -Patient will need consideration of [**Last Name (un) **] for longer tube and
   stability given difficulty with ventilation acutely last evening
   -Will continue on ventilator as needed but would favor patient return
   to nocturnal ventilation
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
Will need evaluation for
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition: Feeding tube needs to be returned to function
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Elevated INR on coumadin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2151-01-19 07:52:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
   -IP [**Name (NI) 420**], will place new trach on [**2151-1-19**]
   -Surgery fixed PEG, now functional
   -Plastics put off debridement secondary to hypotension (will return
   tomorrow)
   -Got HD (goal of even fluid balance)
   -On and off pressors throughout the day
   -Iron discontinued
   -weaned off levophed around midnight
   -surgery evaluated loop colostomy; they will discuss colostomy bridge
   with attg' in a.m.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: limited [**1-18**] trach but denies pain
   Flowsheet Data as of  [**2151-1-19**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (98.9
   HR: 94 (78 - 103) bpm
   BP: 105/49(61) {64/36(44) - 137/71(77)} mmHg
   RR: 19 (14 - 31) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  2,043 mL
                                                                    702 mL
   PO:
             TF:
                                                                    223 mL
                                                                    546 mL
   IVF:
                                                                  1,760 mL
                                                                    156 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,643 mL
                                                                    702 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 367 (367 - 367) mL
   PS : 0 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 106
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 99%
   ABG: ///30/
   Ve: 8.7 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases bilat)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: 1+, Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   144 K/uL
   6.9 g/dL
   125 mg/dL
   2.0 mg/dL
   30 mEq/L
   4.3 mEq/L
   25 mg/dL
   113 mEq/L
   148 mEq/L
   23.7 %
   6.9 K/uL
        [image002.jpg]
                             [**2151-1-11**]  02:25 PM
                             [**2151-1-12**]  04:29 AM
                             [**2151-1-13**]  04:00 AM
                             [**2151-1-14**]  04:41 AM
                             [**2151-1-15**]  05:27 AM
                             [**2151-1-16**]  03:51 AM
                             [**2151-1-18**]  03:07 AM
                             [**2151-1-18**]  03:33 AM
                             [**2151-1-18**]  04:33 AM
                             [**2151-1-19**]  04:36 AM
   WBC
   11.6
   13.6
   14.6
   16.4
   13.8
   16.1
   6.9
   Hct
   23.1
   25.2
   24.5
   26.2
   25.8
   26.3
   25.9
   26
   23.7
   Plt
   [**Telephone/Fax (3) 7711**]80
   188
   182
   144
   Cr
   1.6
   2.2
   1.7
   2.3
   1.6
   2.5
   2.0
   TCO2
   35
   33
   Glucose
   101
   105
   56
   69
   104
   95
   125
   Other labs: PT / PTT / INR:25.5/49.1/2.5, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:78.1 %, Band:0.0 %, Lymph:16.1 %,
   Mono:5.3 %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
   # Stage IV coccygeal ulcer: Family s/p  diverting colostomy [**1-6**]
   - Continue wound care
   -Plastics to come in today  to further debride and possibly place wound
   vac
   - Pain controlled better with 100 mcg fentanyl patch , lidocaine
   patches and morphine PRN
   # Hypercarbic Respiratory Failure: Pt noted prior to transfer several
   weeks ago to have oxygen sats in the 70s and copious, thick secretions.
   Most recent bronch showing no granulation tissue at or above trach
   stie, unable to see below.  Suspect some tracheomalacia or tracheal
   stenosis that doesn
t allow air flow when PM valve is in place and make
   the patient unable to tolerate the valve.  O/n yesterday  trach
   positional for ventilation but as not been an issue for 36 hrs.  IP
   here today and could not find prob with trach in multiple positions so
   will leave as is for now
   - Continue ventilator- trying to wean on CPAP today
   - Atrovent nebs and prn albuterol nebs
   # Leukocytosis:  Continuing to decline to 6.9 today.  Has been
   afebrile, no symptoms of infection. Although has been hypotensive and ?
   cardiac vs infectious vs autonomic instability
   - will trend WBC and fever curve, low threshold for starting abx given
   known osteo (finished meropenem several days ago) stage 4 sacral ulcer
   and recent bowel manipulation.
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Surgery has signed off. No TTP at site, brown stool and gas in bag.
   - per ostomy nurse, bridge still in. Surgery [**Month/Year (2) 420**] to remove it-
   will be by today
   - continue ostomy care
   - f/u surgery recs
   # Anemia: Hct stable at 26 today. Pt has ESRD and is currently on Epo
   treatment, will keep transfusion goal Hct >21%
   - Trend Hct, infusion goal > 21%
   # Hypoglycemia: Since OR procedure pt
s CBGs have noted to be low, 56
   this morning.  Lantus was decreased recently to 10u. Pt
s insulin doses
   have not changed and neither has his tube feed regimen. Hypoglycemia
   may be [**1-18**] poor absorption of tube feeds from bowel wall edema given
   the recent procedure.  Possible that now that patient is no longer
   infected that his hyperglycemia is less and therefore needs less
   insulin
   - continue Lantus to 10u qd
   - continue SSI
   # Depression: The patient has been showing decreased interest and signs
   of depression give his current medical situation
   - Cont citalopram 30 mg daily- increased last weekend.
   - Social work following
   -OT consulted for possible other ways to communicate
   # Hypotension- Currently weaned off Levo. TSH elevated and free T4 low
   [**1-18**] but likely sick thyroid. Should recheck as outpt. Cortisol [**1-18**] nl
   at 19.
   - continue midodrine
   -monitor BPs, mentation
   # ESRD: On HD, [**1-18**] to diabetic nephropathy. Although HD line has
   surrounding erythema, per renal, has had this stable appearance with
   negative blood cxs in past.
   - Continue to monitor HD line site exam
   - f/u renal recs
   - HD MWF.
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
   # Atrial Fibrillation: No active issues. INR today 2.5. Consider
   restarting coumadin tomorrow.
   - Off nodal agents until BPs can better tolerate.
   # Osteomyelitis:  No active issues
   - finished meropenem ([**1-11**] was the completion of 6 week course).
   # R BKA/PVD
    Continue current wound care
    # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-18**] 08:49 PM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU- likely transfer to [**Hospital 82**] rehab on Thursday

2151-01-19 12:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Off pressors overnight
   PEG now functional
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-19**] 12:11 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.7
C (98
   HR: 85 (70 - 103) bpm
   BP: 114/53(68) {64/39(46) - 137/59(77)} mmHg
   RR: 21 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  2,048 mL
                                                                  1,169 mL
   PO:
             TF:
                                                                    227 mL
                                                                    866 mL
   IVF:
                                                                  1,760 mL
                                                                    243 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,648 mL
                                                                  1,169 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 367 (367 - 367) mL
   PS : 0 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 106
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 100%
   ABG: ///30/
   Ve: 8.7 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases, Diminished:
   throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   6.9 g/dL
   144 K/uL
   125 mg/dL
   2.0 mg/dL
   30 mEq/L
   4.3 mEq/L
   25 mg/dL
   113 mEq/L
   148 mEq/L
   23.7 %
   6.9 K/uL
        [image002.jpg]
                             [**2151-1-11**]  02:25 PM
                             [**2151-1-12**]  04:29 AM
                             [**2151-1-13**]  04:00 AM
                             [**2151-1-14**]  04:41 AM
                             [**2151-1-15**]  05:27 AM
                             [**2151-1-16**]  03:51 AM
                             [**2151-1-18**]  03:07 AM
                             [**2151-1-18**]  03:33 AM
                             [**2151-1-18**]  04:33 AM
                             [**2151-1-19**]  04:36 AM
   WBC
   11.6
   13.6
   14.6
   16.4
   13.8
   16.1
   6.9
   Hct
   23.1
   25.2
   24.5
   26.2
   25.8
   26.3
   25.9
   26
   23.7
   Plt
   [**Telephone/Fax (3) 7711**]80
   188
   182
   144
   Cr
   1.6
   2.2
   1.7
   2.3
   1.6
   2.5
   2.0
   TCO2
   35
   33
   Glucose
   101
   105
   56
   69
   104
   95
   125
   Other labs: PT / PTT / INR:25.5/49.1/2.5, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:78.1 %, Band:0.0 %, Lymph:16.1 %,
   Mono:5.3 %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
   76 yo male with prolonged hospital course now c/b significant evolution
   of hypotension and requiring return to mechanical ventilation
   intermittently.  The source is likely multifactorial
he had poor po
   access with G-tube malfunction and inability to deliver po midodrine,
   now PEG fixed and hypotension resolved (off pressors).
   1)Hypotension- resolved.
   -Follow BP over the course of today
   2)Respiratory Failure-
   - Mechanical ventilation as needed
   - IP to fix trach today
   3) Colostomy
 Surgery to removee bridge today
   4) ESRD
 HD tomorrow
   5) Anticoagulation
 restart coumadin when INR <2.0 for a fib.
   6) Wound
 Plastics to see today re: debridement vs wound vac.
   7) Disposition
 [**Hospital1 82**] accepted patient
 should have bed Thursday.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-19**] 10:49 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 30 minutes
   Patient is critically ill

2151-01-20 07:56:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
   -IP re-evaluated trach and as was no longer positional they chose not
   to replace
   -Plastics re-evaluated and did not feel the patient needed further
   debridement at this time
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: limited [**1-18**] trach but pt c/o pain all over and dry
   mouth
   Flowsheet Data as of  [**2151-1-20**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36
C (96.8
   HR: 72 (63 - 95) bpm
   BP: 105/49(63) {95/38(50) - 125/64(89)} mmHg
   RR: 10 (7 - 23) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  2,302 mL
                                                                    707 mL
   PO:
             TF:
                                                                  1,702 mL
                                                                    550 mL
   IVF:
                                                                    480 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                    200 mL
   Urine:
   NG:
   Stool:
                                                                    100 mL
                                                                    200 mL
   Drains:
   Balance:
                                                                  2,202 mL
                                                                    509 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 431 (417 - 576) mL
   PS : 12 cmH2O
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 92
   PIP: 20 cmH2O
   SpO2: 99%
   ABG: ///29/
   Ve: 8 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: trach in place
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: 1+, Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   157 K/uL
   7.1 g/dL
   115 mg/dL
   2.4 mg/dL
   29 mEq/L
   4.8 mEq/L
   33 mg/dL
   112 mEq/L
   146 mEq/L
   25.1 %
   11.3 K/uL
        [image002.jpg]
                             [**2151-1-12**]  04:29 AM
                             [**2151-1-13**]  04:00 AM
                             [**2151-1-14**]  04:41 AM
                             [**2151-1-15**]  05:27 AM
                             [**2151-1-16**]  03:51 AM
                             [**2151-1-18**]  03:07 AM
                             [**2151-1-18**]  03:33 AM
                             [**2151-1-18**]  04:33 AM
                             [**2151-1-19**]  04:36 AM
                             [**2151-1-20**]  04:08 AM
   WBC
   11.6
   13.6
   14.6
   16.4
   13.8
   16.1
   6.9
   11.3
   Hct
   25.2
   24.5
   26.2
   25.8
   26.3
   25.9
   26
   23.7
   25.1
   Plt
   [**Telephone/Fax (3) 7711**]80
   188
   182
   144
   157
   Cr
   1.6
   2.2
   1.7
   2.3
   1.6
   2.5
   2.0
   2.4
   TCO2
   35
   33
   Glucose
   101
   105
   56
   69
   104
   95
   125
   115
   Other labs: PT / PTT / INR:19.9/38.0/1.9, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:78.1 %, Band:0.0 %, Lymph:16.1 %,
   Mono:5.3 %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
   # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Seems to be
   improving. Plastics came by yesterday and said no further debridement
   was needed at this time. Cont current wound care,
   - Pain controlled reasonably well with 100 mcg fentanyl patch ,
   lidocaine patches and morphine PRN
   # Hypercarbic Respiratory Failure: Pt noted prior to transfer several
   weeks ago to have oxygen sats in the 70s and copious, thick secretions.
   Most recent bronch showing no granulation tissue at or above trach
   stie, unable to see below.  Suspect some tracheomalacia or tracheal
   stenosis that doesn
t allow air flow when PM valve is in place and make
   the patient unable to tolerate the valve.  O/n [**1-17**] trach positional for
   ventilation but  IP here [**1-19**] could not find prob with trach in multiple
   positions so will leave as is for now
   - Continue ventilator- trying to wean on CPAP today
   - Atrovent nebs and prn albuterol nebs
   # Leukocytosis:  Back up to 11 today from 6.9 yesterday.  Has been
   afebrile, no symptoms of infection. Although has been hypotensive as
   late as [**1-18**] and ? cardiac vs infectious vs autonomic instability
   - will trend WBC and fever curve, low threshold for starting abx given
   known osteo (finished meropenem [**1-11**]) stage 4 sacral ulcer.
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Surgery has signed off. No TTP at site, brown stool and gas in bag.
   - per ostomy nurse, bridge still in. Surgery contact[**Name (NI) **] to remove it-
   Dr. [**Last Name (STitle) **] [**Last Name (STitle) 7870**] note [**1-18**] that Dr. [**Last Name (STitle) 3336**] would need to be contact[**Name (NI) **]-
   called again today
   - continue ostomy care
   - f/u surgery recs
   # Anemia: Hct stable at 25 today. Pt has ESRD and is currently on Epo
   treatment, will keep transfusion goal Hct >21%
   - Trend Hct, infusion goal > 21%
   # Hypoglycemia: Since OR procedure pt
s CBGs have noted to be low, 56
   this morning.  Lantus was decreased recently to 10u. Pt
s insulin doses
   have not changed and neither has his tube feed regimen. Hypoglycemia
   may be [**1-18**] poor absorption of tube feeds from bowel wall edema given
   the recent procedure.  Possible that now that patient is no longer
   infected that his hyperglycemia is less and therefore needs less
   insulin
   - continue Lantus to 10u qd
   - continue SSI
   # Depression: The patient has been showing decreased interest and signs
   of depression give his current medical situation
   - Cont citalopram 30 mg daily- increased last weekend.
   - Social work following
   -OT consulted for possible other ways to communicate
    # Hypotension- Currently weaned off Levo since [**1-18**]. TSH elevated and
   free T4 low [**1-18**] but likely sick thyroid. Should recheck as outpt.
   Cortisol [**1-18**] nl at 19.
   - continue midodrine
   -monitor BPs, mentation
   # ESRD: On HD, [**1-18**] to diabetic nephropathy. Although HD line has
   surrounding erythema, per renal, has had this stable appearance with
   negative blood cxs in past.
   - Continue to monitor HD line site exam
   - f/u renal recs
   - HD MWF.
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
   # Atrial Fibrillation: No active issues. INR today 1.9.
   -restart coumadin at 2 today
   - Off nodal agents until BPs can better tolerate.
   # Osteomyelitis:  No active issues
   - finished meropenem ([**1-11**] was the completion of 6 week course).
   # R BKA/PVD
   Continue current wound care
     # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-20**] 01:00 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU- Possible [**Hospital1 82**] transfer in am

2151-01-20 14:10:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with trach evaluated by IP and felt to be adequate and in good
   position
   -Dialysis catheter unchanged and in good position without fevers or
   recurrent bacteremia seen
   -Plastic surgery in and no debridement needed
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2151-1-20**] 02:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 80 (63 - 90) bpm
   BP: 90/44(53) {90/39(51) - 122/64(89)} mmHg
   RR: 13 (6 - 24) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  2,302 mL
                                                                  1,370 mL
   PO:
             TF:
                                                                  1,702 mL
                                                                    988 mL
   IVF:
                                                                    480 mL
                                                                    282 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                    200 mL
   Urine:
   NG:
   Stool:
                                                                    100 mL
                                                                    200 mL
   Drains:
   Balance:
                                                                  2,202 mL
                                                                  1,170 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 464 (417 - 576) mL
   PS : 8 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 92
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 8 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.1 g/dL
   157 K/uL
   115 mg/dL
   2.4 mg/dL
   29 mEq/L
   4.8 mEq/L
   33 mg/dL
   112 mEq/L
   146 mEq/L
   25.1 %
   11.3 K/uL
        [image002.jpg]
                             [**2151-1-12**]  04:29 AM
                             [**2151-1-13**]  04:00 AM
                             [**2151-1-14**]  04:41 AM
                             [**2151-1-15**]  05:27 AM
                             [**2151-1-16**]  03:51 AM
                             [**2151-1-18**]  03:07 AM
                             [**2151-1-18**]  03:33 AM
                             [**2151-1-18**]  04:33 AM
                             [**2151-1-19**]  04:36 AM
                             [**2151-1-20**]  04:08 AM
   WBC
   11.6
   13.6
   14.6
   16.4
   13.8
   16.1
   6.9
   11.3
   Hct
   25.2
   24.5
   26.2
   25.8
   26.3
   25.9
   26
   23.7
   25.1
   Plt
   [**Telephone/Fax (3) 7711**]80
   188
   182
   144
   157
   Cr
   1.6
   2.2
   1.7
   2.3
   1.6
   2.5
   2.0
   2.4
   TCO2
   35
   33
   Glucose
   101
   105
   56
   69
   104
   95
   125
   115
   Other labs: PT / PTT / INR:19.9/38.0/1.9, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:78.1 %, Band:0.0 %, Lymph:16.1 %,
   Mono:5.3 %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
   76 yo male with prolonged hosptial course and now with reasonable
   stability in regards to ventilatory status and blood pressure.
   1)Respiratory Failure-
   -BIPAP to wean to trach mask
   -Nocturnal BIPAP
   2)Renal Failure-
   -Dialysis today
   -Goal I/O negative
   3)Scral Decubitus-
   -Plastics in to evaluate
   -Wound care to continue
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-20**] 01:00 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2151-01-21 07:47:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
   CPAP weaned to [**7-21**] but unable to go further [**1-18**] low tidal volumes
   -Sx removed bridge and said ostomy looked ok w/o evidence of infxn
   -coumadin was restarted at 2mg qd and on sc heparin
   -plastics debrided sacral ulcer extensively
   -HD was done- UFV 3.0 L
   -need to contact [**Name (NI) **] [**Name (NI) 756**] re question of transfer tomorrow
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-1-20**] 10:00 PM
   Other medications:
   Changes to medical and family history:none
   Review of systems is unchanged from admission except as noted below
   Review of systems: limited [**1-18**] trach but states has a lot of pain in
   buttocks
   Flowsheet Data as of  [**2151-1-21**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 79 (66 - 87) bpm
   BP: 89/42(57) {76/39(47) - 116/60(72)} mmHg
   RR: 15 (6 - 25) insp/min
   SpO2: 95%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  2,267 mL
                                                                    698 mL
   PO:
             TF:
                                                                  1,686 mL
                                                                    544 mL
   IVF:
                                                                    481 mL
                                                                    154 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  2,067 mL
                                                                    698 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 385 (385 - 501) mL
   PS : 8 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 55
   PIP: 13 cmH2O
   SpO2: 95%
   ABG: ///32/
   Ve: 5.9 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: Absent, Left: Trace, Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   151 K/uL
   7.2 g/dL
   122 mg/dL
   1.7 mg/dL
   32 mEq/L
   4.4 mEq/L
   23 mg/dL
   112 mEq/L
   148 mEq/L
   24.4 %
   12.3 K/uL
        [image002.jpg]
                             [**2151-1-13**]  04:00 AM
                             [**2151-1-14**]  04:41 AM
                             [**2151-1-15**]  05:27 AM
                             [**2151-1-16**]  03:51 AM
                             [**2151-1-18**]  03:07 AM
                             [**2151-1-18**]  03:33 AM
                             [**2151-1-18**]  04:33 AM
                             [**2151-1-19**]  04:36 AM
                             [**2151-1-20**]  04:08 AM
                             [**2151-1-21**]  04:26 AM
   WBC
   13.6
   14.6
   16.4
   13.8
   16.1
   6.9
   11.3
   12.3
   Hct
   24.5
   26.2
   25.8
   26.3
   25.9
   26
   23.7
   25.1
   24.4
   Plt
   [**Telephone/Fax (3) **]88
   182
   144
   157
   151
   Cr
   2.2
   1.7
   2.3
   1.6
   2.5
   2.0
   2.4
   1.7
   TCO2
   35
   33
   Glucose
   105
   56
   69
   104
   95
   125
   115
   122
   Other labs: PT / PTT / INR:17.4/41.8/1.5, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:78.1 %, Band:0.0 %, Lymph:16.1 %,
   Mono:5.3 %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
    # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Seems to be
   improving. Plastics debrided extensively [**1-20**] and placed wound vac. Cont
   current wound care,
   - Pain controlled reasonably well with 100 mcg fentanyl patch ,
   lidocaine patches and morphine PRN
    # Hypercarbic Respiratory Failure: Pt noted prior to transfer several
   weeks ago to have oxygen sats in the 70s and copious, thick secretions.
   Most recent bronch showing no granulation tissue at or above trach
   stie, unable to see below.  Suspect some tracheomalacia or tracheal
   stenosis that doesn
t allow air flow when PM valve is in place and make
   the patient unable to tolerate the valve.  O/n [**1-17**] trach positional for
   ventilation but  IP here [**1-19**] could not find prob with trach in multiple
   positions so will leave as is for now
   - Continue ventilator- PS weaned to [**7-21**] for now. Unable to wean further
   [**1-18**] low tidal volumes.
   - Atrovent nebs and prn albuterol nebs
   # Leukocytosis:  Rising slightly today from 11 to 12.  Has been
   afebrile, no symptoms of infection. Although has been hypotensive as
   late as [**1-18**] and ? cardiac vs infectious vs autonomic instability
   - will trend WBC and fever curve, low threshold for starting abx given
   known osteo (finished meropenem [**1-11**]) stage 4 sacral ulcer.
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Surgery has signed off. No TTP at site, brown stool and gas in bag.
   Bridge removed by surgery yesterday and stated no evidence of
   surrounding necrosis or cellulitis. Pt at high risk of ostomy pulling
   back into abd.
   - continue ostomy care
   # Anemia: Hct stable at 24 today. Pt has ESRD and is currently on Epo
   treatment, will keep transfusion goal Hct >21%
   - Trend Hct, infusion goal > 21%
   # Hypoglycemia: Since OR procedure pt
s CBGs have noted to be low, 56
   this morning.  Lantus was decreased recently to 10u. Pt
s insulin doses
   have not changed and neither has his tube feed regimen. Hypoglycemia
   may be [**1-18**] poor absorption of tube feeds from bowel wall edema given
   the recent procedure.  Possible that now that patient is no longer
   infected that his hyperglycemia is less and therefore needs less
   insulin
   - continue Lantus to 10u qd
   - continue SSI
   # Depression: The patient has been showing decreased interest and signs
   of depression give his current medical situation
   - Cont citalopram 30 mg daily- increased last weekend.
   - Social work following
   -OT consulted for possible other ways to communicate
    # Hypotension- Currently weaned off Levo since [**1-18**]. TSH elevated and
   free T4 low [**1-18**] but likely sick thyroid. Should recheck as outpt.
   Cortisol [**1-18**] nl at 19.
   - continue midodrine
   -monitor BPs, mentation
   # ESRD: On HD, [**1-18**] to diabetic nephropathy. Although HD line has
   surrounding erythema, per renal, has had this stable appearance with
   negative blood cxs in past.  HD [**1-20**] with 3L UFV removed.
   - Continue to monitor HD line site exam
   - f/u renal recs
   - HD MWF.
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
   # Atrial Fibrillation: No active issues. INR today 1.9.
   -restart coumadin at 2 today
   - Off nodal agents until BPs can better tolerate.
   # Osteomyelitis:  No active issues
   - finished meropenem ([**1-11**] was the completion of 6 week course).
   # R BKA/PVD
   Continue current wound care
      # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-21**] 05:23 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Possible transfer today to [**Hospital1 82**] pending family mtg with
   their administrators

2151-01-21 10:21:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Coumadin started
   Wound debrided
   HD with 3 liters negative
   Ostomy with bridge removed
   Remains on PSV support throughout
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-1-21**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2151-1-21**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 85 (66 - 87) bpm
   BP: 103/51(63) {76/39(47) - 108/51(64)} mmHg
   RR: 18 (11 - 25) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  2,267 mL
                                                                    920 mL
   PO:
             TF:
                                                                  1,686 mL
                                                                    717 mL
   IVF:
                                                                    481 mL
                                                                    204 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  2,067 mL
                                                                    920 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 434 (385 - 501) mL
   PS : 8 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 55
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: ///32/
   Ve: 8 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Ostomy site clean
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.2 g/dL
   151 K/uL
   122 mg/dL
   1.7 mg/dL
   32 mEq/L
   4.4 mEq/L
   23 mg/dL
   112 mEq/L
   148 mEq/L
   24.4 %
   12.3 K/uL
        [image002.jpg]
                             [**2151-1-13**]  04:00 AM
                             [**2151-1-14**]  04:41 AM
                             [**2151-1-15**]  05:27 AM
                             [**2151-1-16**]  03:51 AM
                             [**2151-1-18**]  03:07 AM
                             [**2151-1-18**]  03:33 AM
                             [**2151-1-18**]  04:33 AM
                             [**2151-1-19**]  04:36 AM
                             [**2151-1-20**]  04:08 AM
                             [**2151-1-21**]  04:26 AM
   WBC
   13.6
   14.6
   16.4
   13.8
   16.1
   6.9
   11.3
   12.3
   Hct
   24.5
   26.2
   25.8
   26.3
   25.9
   26
   23.7
   25.1
   24.4
   Plt
   [**Telephone/Fax (3) **]88
   182
   144
   157
   151
   Cr
   2.2
   1.7
   2.3
   1.6
   2.5
   2.0
   2.4
   1.7
   TCO2
   35
   33
   Glucose
   105
   56
   69
   104
   95
   125
   115
   122
   Other labs: PT / PTT / INR:17.4/41.8/1.5, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:78.1 %, Band:0.0 %, Lymph:16.1 %,
   Mono:5.3 %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
   76 yo male with prolonged hosptial course complicated now by persistent
   ventilatory failure and renal failure with sacral decubitus with
   continued debridement and started on Coumadin now that INR has deceased
   to therapeutic range.  He has remained afebrile and with excellent
   tolerance of dialysis yesterday.  Ventilatory support remains at
   baseline and with pain control with patch + pRN medications following
   debridement.
   1)Respiratory Failure-
   -continue PSV
   -Wean as possible
   -ABX off
   2)Renal Failure-
   -HD well tolerated
   -Continue with TIW
   3)Sacral Decubitus-
   -Continue with wound vac when placed by plastic surgery
   -Good response to debridement
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-21**] 05:23 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
Plan for rehab ([**Hospital1 82**]) Placement when able to be
   accepted as has done continued well
   Total time spent: 44 minutes

2151-01-22 07:53:00 Physician Resident Progress Note
Chief Complaint: Resp failure
   24 Hour Events:
   -Quiet day.  Was not discharged to rehab because his son was supposed
   to have a meeting with case management to discuss [**Hospital1 82**] but meeting
   didn't happen for unclear reasons.  Should happen tomorrow
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-1-21**] 10:00 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies pain
   Flowsheet Data as of  [**2151-1-22**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 84 (70 - 87) bpm
   BP: 91/40(51) {76/33(43) - 113/55(68)} mmHg
   RR: 19 (12 - 21) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  2,570 mL
                                                                    705 mL
   PO:
             TF:
                                                                  1,690 mL
                                                                    549 mL
   IVF:
                                                                    780 mL
                                                                    156 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,370 mL
                                                                    705 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 358 (358 - 541) mL
   PS : 8 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 56
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: ///31/
   Ve: 7.6 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: trach in place
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, colostomy in place
   Extremities: Right: Absent, Left: 1+, Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   175 K/uL
   6.9 g/dL
   124 mg/dL
   2.1 mg/dL
   31 mEq/L
   5.0 mEq/L
   31 mg/dL
   110 mEq/L
   143 mEq/L
   24.2 %
   15.3 K/uL
        [image002.jpg]
                             [**2151-1-14**]  04:41 AM
                             [**2151-1-15**]  05:27 AM
                             [**2151-1-16**]  03:51 AM
                             [**2151-1-18**]  03:07 AM
                             [**2151-1-18**]  03:33 AM
                             [**2151-1-18**]  04:33 AM
                             [**2151-1-19**]  04:36 AM
                             [**2151-1-20**]  04:08 AM
                             [**2151-1-21**]  04:26 AM
                             [**2151-1-22**]  04:03 AM
   WBC
   14.6
   16.4
   13.8
   16.1
   6.9
   11.3
   12.3
   15.3
   Hct
   26.2
   25.8
   26.3
   25.9
   26
   23.7
   25.1
   24.4
   24.2
   Plt
   183
   180
   188
   182
   144
   157
   151
   175
   Cr
   1.7
   2.3
   1.6
   2.5
   2.0
   2.4
   1.7
   2.1
   TCO2
   35
   33
   Glucose
   56
   69
   104
   95
   125
   115
   122
   124
   Other labs: PT / PTT / INR:16.4/38.7/1.5, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:78.1 %, Band:0.0 %, Lymph:16.1 %,
   Mono:5.3 %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
    # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Seems to be
   improving. Plastics debrided extensively [**1-20**] and placed wound vac.
   -Cont current wound care
   - Pain controlled reasonably well with 100 mcg fentanyl patch ,
   lidocaine patches and morphine PRN
    # Hypercarbic Respiratory Failure: Pt noted prior to transfer several
   weeks ago to have oxygen sats in the 70s and copious, thick secretions.
   Most recent bronch showing no granulation tissue at or above trach
   stie, unable to see below.  Suspect some tracheomalacia or tracheal
   stenosis that doesn
t allow air flow when PM valve is in place and make
   the patient unable to tolerate the valve.  O/n [**1-17**] trach positional for
   ventilation but  IP here [**1-19**] could not find prob with trach in multiple
   positions so will leave as is for now. Sputum from [**1-18**] now growing
   pseudomonas and serratia
   - Continue ventilator- PS weaned to [**7-21**] for now. Unable to wean further
   [**1-18**] low tidal volumes.
   - CXR today- lg left pleural effusion, worstening moderate pulmonary
   edema. consider cipro tx for serratia
   - Atrovent nebs and prn albuterol nebs
    # Leukocytosis:  Continues to rise to 15.3 today.  Has been afebrile,
   no symptoms of infection. Although has been hypotensive as late as [**1-18**]
   requiring pressors and ? cardiac vs infectious vs autonomic instability
   - will trend WBC and fever curve, low threshold for starting abx given
   known osteo (finished meropenem [**1-11**]) stage 4 sacral ulcer.
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Surgery has signed off. No TTP at site, brown stool and gas in bag.
   Bridge removed by surgery yesterday and stated no evidence of
   surrounding necrosis or cellulitis. Pt at high risk of ostomy pulling
   back into abd.
   - continue ostomy care
   # Anemia: Hct stable at 24 today. Pt has ESRD and is currently on Epo
   treatment, will keep transfusion goal Hct >21%
   - Trend Hct, infusion goal > 21%
   # Hypoglycemia: Since OR procedure pt
s CBGs have noted to be low, 56
   this morning.  Lantus was decreased recently to 10u. Pt
s insulin doses
   have not changed and neither has his tube feed regimen. Hypoglycemia
   may be [**1-18**] poor absorption of tube feeds from bowel wall edema given
   the recent procedure.  Possible that now that patient is no longer
   infected that his hyperglycemia is less and therefore needs less
   insulin
   - continue Lantus to 10u qd
   - continue SSI
    # Depression: The patient has been showing decreased interest and
   signs of depression give his current medical situation
   - Cont citalopram 30 mg daily- increased last weekend.
   - Social work following
   -OT consulted for possible other ways to communicate
    # Hypotension- Currently weaned off Levo since [**1-18**]. TSH elevated and
   free T4 low [**1-18**] but likely sick thyroid. Should recheck as outpt.
   Cortisol [**1-18**] nl at 19.
   - continue midodrine
   -monitor BPs, mentation
    # ESRD: On HD, [**1-18**] to diabetic nephropathy. Although HD line has
   surrounding erythema, per renal, has had this stable appearance with
   negative blood cxs in past.  HD today but unlikely able to take off
   sign volume
   - CVVH over weekend planned for fluid removal in setting of decr BP.
   - f/u renal recs
   - HD MWF.
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
   # Atrial Fibrillation: No active issues. INR today 1.9.
   -restart coumadin at 2 today
   - Off nodal agents until BPs can better tolerate.
   # Osteomyelitis:  No active issues
   - finished meropenem ([**1-11**] was the completion of 6 week course).
   # R BKA/PVD
   Continue current wound care
      # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-21**] 07:35 PM 70.[**Telephone/Fax (3) 7922**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU- possible transfer to [**Hospital1 82**] mon.

2151-01-22 12:03:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Paitent with good stability of ventilation
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-1-21**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2151-1-22**] 11:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 84 (73 - 87) bpm
   BP: 84/43(52) {76/33(43) - 113/55(68)} mmHg
   RR: 17 (12 - 21) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  2,570 mL
                                                                  1,129 mL
   PO:
             TF:
                                                                  1,690 mL
                                                                    832 mL
   IVF:
                                                                    780 mL
                                                                    237 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,370 mL
                                                                  1,129 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 322 (322 - 541) mL
   PS : 8 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 56
   PIP: 13 cmH2O
   SpO2: 97%
   ABG: ///31/
   Ve: 7.1 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Dullness : ), (Breath Sounds:
   Diminished: )
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.9 g/dL
   175 K/uL
   124 mg/dL
   2.1 mg/dL
   31 mEq/L
   5.0 mEq/L
   31 mg/dL
   110 mEq/L
   143 mEq/L
   24.2 %
   15.3 K/uL
        [image002.jpg]
                             [**2151-1-14**]  04:41 AM
                             [**2151-1-15**]  05:27 AM
                             [**2151-1-16**]  03:51 AM
                             [**2151-1-18**]  03:07 AM
                             [**2151-1-18**]  03:33 AM
                             [**2151-1-18**]  04:33 AM
                             [**2151-1-19**]  04:36 AM
                             [**2151-1-20**]  04:08 AM
                             [**2151-1-21**]  04:26 AM
                             [**2151-1-22**]  04:03 AM
   WBC
   14.6
   16.4
   13.8
   16.1
   6.9
   11.3
   12.3
   15.3
   Hct
   26.2
   25.8
   26.3
   25.9
   26
   23.7
   25.1
   24.4
   24.2
   Plt
   183
   180
   188
   182
   144
   157
   151
   175
   Cr
   1.7
   2.3
   1.6
   2.5
   2.0
   2.4
   1.7
   2.1
   TCO2
   35
   33
   Glucose
   56
   69
   104
   95
   125
   115
   122
   124
   Other labs: PT / PTT / INR:16.4/38.7/1.5, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:78.1 %, Band:0.0 %, Lymph:16.1 %,
   Mono:5.3 %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Imaging: CXR-None new
   Microbiology: Sputum--Pseudomonas and Serratia on Sputum from [**1-18**]
   Assessment and Plan
   76 yo male with prolonged hospital course compliacted by persistent
   ventilatory filure and renal failure now with improved stability of
   hemodynamics but need for continued ventilatory support and with
   provocative finding of GNR x2 in sputum sample with mild associated
   rise in WBC count.
   1)Respiratory Failure-
   -Secretions limited
   -WBC elevation slight but potentially significant
   -CXR today
   -Would Rx culture results for infiltrate and/or worsening tolerance of
   ventilator wean
   -Blood pressure has been with reasonable stability
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   -Continue dialysis and will move to CVVH across the weekend
   -CVVH given significant need for volume removal and electrolyte
   management given hypotension.
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-22**] 09:20 AM 70.[**Telephone/Fax (3) 7922**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes

2151-01-23 07:56:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
   - Renal doing HD but unlikely to be able to take off fluid [**1-18**]
   hypotension. Likely will need to start CVVH today after HD to take off
   fluid over weekend
   -per case mgmt ([**First Name8 (NamePattern2) **] [**Doctor Last Name **]) family mtg today with [**Hospital1 7957**] rehab
   talking to family about when to transfer back to [**Hospital1 **], CPR not indicated
   for pt. Family thinking and will get back on decision Mon. Possible
   transfer Tues to rehab ------------------> Family contact[**Name (NI) **] [**Name (NI) 756**] and
   no interest in [**Hospital1 82**]
   -Got ABG for unclear reasons, slight worse hypercarbia and hypoxia,
   increased PEEP and inspiratory pressures
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-1-22**] 08:00 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:c/o buttock and left heal pain
   Flowsheet Data as of  [**2151-1-23**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.5
C (95.9
   HR: 76 (66 - 85) bpm
   BP: 83/45(50) {81/36(48) - 109/53(66)} mmHg
   RR: 14 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  1,937 mL
                                                                  1,491 mL
   PO:
             TF:
                                                                  1,144 mL
                                                                    544 mL
   IVF:
                                                                    734 mL
                                                                    947 mL
   Blood products:
   Total out:
                                                                    589 mL
                                                                  1,797 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,348 mL
                                                                   -306 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 341 (341 - 441) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 188
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.24/75/111/29/1
   Ve: 6.4 L/min
   PaO2 / FiO2: 222
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: Absent, Left: Trace, Cyanosis
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   150 K/uL
   7.5 g/dL
   184 mg/dL
   1.1 mg/dL
   29 mEq/L
   4.6 mEq/L
   15 mg/dL
   110 mEq/L
   143 mEq/L
   26.6 %
   14.8 K/uL
        [image002.jpg]
                             [**2151-1-18**]  03:33 AM
                             [**2151-1-18**]  04:33 AM
                             [**2151-1-19**]  04:36 AM
                             [**2151-1-20**]  04:08 AM
                             [**2151-1-21**]  04:26 AM
                             [**2151-1-22**]  04:03 AM
                             [**2151-1-22**]  07:59 PM
                             [**2151-1-22**]  08:24 PM
                             [**2151-1-23**]  01:13 AM
                             [**2151-1-23**]  04:21 AM
   WBC
   16.1
   6.9
   11.3
   12.3
   15.3
   14.8
   Hct
   25.9
   26
   23.7
   25.1
   24.4
   24.2
   26.6
   Plt
   182
   144
   157
   151
   175
   150
   Cr
   2.5
   2.0
   2.4
   1.7
   2.1
   1.3
   1.1
   TCO2
   33
   36
   34
   Glucose
   95
   125
   115
   122
   124
   115
   184
   Other labs: PT / PTT / INR:17.8/67.2/1.6, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:78.1 %, Band:0.0 %, Lymph:16.1 %,
   Mono:5.3 %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
     # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Seems to
   be improving. Plastics debrided extensively [**1-20**] and placed wound vac.
   -Cont current wound care
   - Pain controlled reasonably well with 100 mcg fentanyl patch ,
   lidocaine patches and morphine PRN
     # Hypercarbic Respiratory Failure: Pt noted prior to transfer several
   weeks ago to have oxygen sats in the 70s and copious, thick secretions.
   Most recent bronch showing no granulation tissue at or above trach
   stie, unable to see below.  Suspect some tracheomalacia or tracheal
   stenosis that doesn
t allow air flow when PM valve is in place and make
   the patient unable to tolerate the valve.  O/n [**1-17**] trach positional for
   ventilation but  IP here [**1-19**] could not find prob with trach in multiple
   positions so will leave as is for now. Sputum from [**1-18**] now growing
   pseudomonas and serratia
   - Continue ventilator- PS weaned to [**7-21**] for now. Unable to wean further
   [**1-18**] low tidal volumes.
   - CXR today- lg left pleural effusion, worstening moderate pulmonary
   edema. consider cipro tx for serratia
   - Atrovent nebs and prn albuterol nebs
    # Leukocytosis:  Continues to rise to 15.3 today.  Has been afebrile,
   no symptoms of infection. Although has been hypotensive as late as [**1-18**]
   requiring pressors and ? cardiac vs infectious vs autonomic instability
   - will trend WBC and fever curve, low threshold for starting abx given
   known osteo (finished meropenem [**1-11**]) stage 4 sacral ulcer.
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Surgery has signed off. No TTP at site, brown stool and gas in bag.
   Bridge removed by surgery yesterday and stated no evidence of
   surrounding necrosis or cellulitis. Pt at high risk of ostomy pulling
   back into abd.
   - continue ostomy care
    # Anemia: Hct stable at 24 today. Pt has ESRD and is currently on Epo
   treatment, will keep transfusion goal Hct >21%
   - Trend Hct, infusion goal > 21%
   # Hypoglycemia: Since OR procedure pt
s CBGs have noted to be low, 56
   this morning.  Lantus was decreased recently to 10u. Pt
s insulin doses
   have not changed and neither has his tube feed regimen. Hypoglycemia
   may be [**1-18**] poor absorption of tube feeds from bowel wall edema given
   the recent procedure.  Possible that now that patient is no longer
   infected that his hyperglycemia is less and therefore needs less
   insulin
   - continue Lantus to 10u qd
   - continue SSI
    # Depression: The patient has been showing decreased interest and
   signs of depression give his current medical situation
   - Cont citalopram 30 mg daily- increased last weekend.
   - Social work following
   -OT consulted for possible other ways to communicate
    # Hypotension- Currently weaned off Levo since [**1-18**]. TSH elevated and
   free T4 low [**1-18**] but likely sick thyroid. Should recheck as outpt.
   Cortisol [**1-18**] nl at 19.
   - continue midodrine
   -monitor BPs, mentation
    # ESRD: On HD, [**1-18**] to diabetic nephropathy. Although HD line has
   surrounding erythema, per renal, has had this stable appearance with
   negative blood cxs in past.  HD today but unlikely able to take off
   sign volume
   - CVVH over weekend planned for fluid removal in setting of decr BP.
   - f/u renal recs
   - HD MWF.
    # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
    # Atrial Fibrillation: No active issues. INR today 1.9.
   -restart coumadin at 2 today
   - Off nodal agents until BPs can better tolerate.
   # Osteomyelitis:  No active issues
   - finished meropenem ([**1-11**] was the completion of 6 week course).
    # R BKA/PVD
   Continue current wound care
       # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-22**] 11:27 PM 70.[**Telephone/Fax (3) 7922**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2151-01-23 21:16:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
   - Renal doing HD but unlikely to be able to take off fluid [**1-18**]
   hypotension. Likely will need to start CVVH today after HD to take off
   fluid over weekend
   -per case mgmt ([**First Name8 (NamePattern2) **] [**Doctor Last Name **]) family mtg today with [**Hospital1 7957**] rehab
   talking to family about when to transfer back to [**Hospital1 **], CPR not indicated
   for pt. Family thinking and will get back on decision Mon. Possible
   transfer Tues to rehab ------------------> Family contact[**Name (NI) **] [**Name (NI) 756**] and
   no interest in [**Hospital1 82**]
   -Got ABG for unclear reasons, slight worse hypercarbia and hypoxia,
   increased PEEP and inspiratory pressures
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-1-22**] 08:00 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:c/o buttock and left heal pain
   Flowsheet Data as of  [**2151-1-23**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.5
C (95.9
   HR: 76 (66 - 85) bpm
   BP: 83/45(50) {81/36(48) - 109/53(66)} mmHg
   RR: 14 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  1,937 mL
                                                                  1,491 mL
   PO:
             TF:
                                                                  1,144 mL
                                                                    544 mL
   IVF:
                                                                    734 mL
                                                                    947 mL
   Blood products:
   Total out:
                                                                    589 mL
                                                                  1,797 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,348 mL
                                                                   -306 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 341 (341 - 441) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 188
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.24/75/111/29/1
   Ve: 6.4 L/min
   PaO2 / FiO2: 222
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: Absent, Left: Trace, Cyanosis
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   150 K/uL
   7.5 g/dL
   184 mg/dL
   1.1 mg/dL
   29 mEq/L
   4.6 mEq/L
   15 mg/dL
   110 mEq/L
   143 mEq/L
   26.6 %
   14.8 K/uL
        [image002.jpg]
                             [**2151-1-18**]  03:33 AM
                             [**2151-1-18**]  04:33 AM
                             [**2151-1-19**]  04:36 AM
                             [**2151-1-20**]  04:08 AM
                             [**2151-1-21**]  04:26 AM
                             [**2151-1-22**]  04:03 AM
                             [**2151-1-22**]  07:59 PM
                             [**2151-1-22**]  08:24 PM
                             [**2151-1-23**]  01:13 AM
                             [**2151-1-23**]  04:21 AM
   WBC
   16.1
   6.9
   11.3
   12.3
   15.3
   14.8
   Hct
   25.9
   26
   23.7
   25.1
   24.4
   24.2
   26.6
   Plt
   182
   144
   157
   151
   175
   150
   Cr
   2.5
   2.0
   2.4
   1.7
   2.1
   1.3
   1.1
   TCO2
   33
   36
   34
   Glucose
   95
   125
   115
   122
   124
   115
   184
   Other labs: PT / PTT / INR:17.8/67.2/1.6, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:78.1 %, Band:0.0 %, Lymph:16.1 %,
   Mono:5.3 %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
     # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Seems to
   be improving. Plastics debrided extensively [**1-20**] and placed wound vac.
   -Cont current wound care
   - Pain controlled reasonably well with 100 mcg fentanyl patch ,
   lidocaine patches and morphine PRN
     # Hypercarbic Respiratory Failure: Pt noted prior to transfer several
   weeks ago to have oxygen sats in the 70s and copious, thick secretions.
   Most recent bronch showing no granulation tissue at or above trach
   stie, unable to see below.  Suspect some tracheomalacia or tracheal
   stenosis that doesn
t allow air flow when PM valve is in place and make
   the patient unable to tolerate the valve.  O/n [**1-17**] trach positional for
   ventilation but  IP here [**1-19**] could not find prob with trach in multiple
   positions so will leave as is for now. Sputum from [**1-18**] now growing
   pseudomonas and serratia. ABG overnight [**1-22**] with slightly worse
   hypercarbia and hypoxia so increased PEEP and inspiratory pressures.
   - Continue ventilator- PS wean as tol
   -Cipro for 14D course for serratia in sputum. Day 1- [**1-22**]
   - Atrovent nebs and prn albuterol nebs
    # Leukocytosis:  Down slightly today to 14.8.  Has been afebrile, no
   symptoms of infection except possible PNA as above. Last  hypotensive
   [**1-18**] requiring pressors and ? cardiac vs infectious vs autonomic
   instability
   - will trend WBC and fever curve, low threshold for starting abx given
   known osteo (finished meropenem [**1-11**]) stage 4 sacral ulcer.
   # ESRD: On HD, [**1-18**] to diabetic nephropathy. Although HD line has
   surrounding erythema, per renal, has had this stable appearance with
   negative blood cxs in past.  HD fri [**1-22**] but unable to take off sign
   volume [**1-18**] hypotension
   - CVVH this weekend for fluid removal. Pushing for up to 300cc/hr
   - f/u renal recs
   - HD MWF.
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Surgery has signed off. No TTP at site, brown stool and gas in bag.
   Bridge removed by surgery yesterday and stated no evidence of
   surrounding necrosis or cellulitis. Pt at high risk of ostomy pulling
   back into abd.
   - continue ostomy care
    # Anemia: Hct stable at 24 today. Pt has ESRD and is currently on Epo
   treatment, will keep transfusion goal Hct >21%
   - Trend Hct, infusion goal > 21%
   # Hypoglycemia: Since OR procedure pt
s CBGs have noted to be low, 56
   this morning.  Lantus was decreased recently to 10u. Pt
s insulin doses
   have not changed and neither has his tube feed regimen. Hypoglycemia
   may be [**1-18**] poor absorption of tube feeds from bowel wall edema given
   the recent procedure.  Possible that now that patient is no longer
   infected that his hyperglycemia is less and therefore needs less
   insulin
   - continue Lantus to 10u qd
   - continue SSI
    # Depression: The patient has been showing decreased interest and
   signs of depression give his current medical situation
   - Cont citalopram 30 mg daily- increased last weekend.
   - Social work following
   -OT consulted for possible other ways to communicate
    # Hypotension- Currently weaned off Levo since [**1-18**]. TSH elevated and
   free T4 low [**1-18**] but likely sick thyroid. Should recheck as outpt.
   Cortisol [**1-18**] nl at 19.
   - continue midodrine
   -monitor BPs, mentation
    # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
    # Atrial Fibrillation: No active issues. INR today 1.9.
   -restart coumadin at 2 today
   - Off nodal agents until BPs can better tolerate.
   # Osteomyelitis:  No active issues
   - finished meropenem ([**1-11**] was the completion of 6 week course).
    # R BKA/PVD
   Continue current wound care
       # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-22**] 11:27 PM 70.[**Telephone/Fax (3) 7922**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2151-01-24 09:29:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
   - started neutraphos [**Hospital1 **] while on CVVH as can further lower phos
   levels. [**Month (only) 60**] need to increase to TID- will monitor
   - incr fluid removal with CVVH as BP dose not seem responsive to this
   and pt mentating well. Taking off 300cc/hr
   -weaning vent as tol
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-1-24**] 07:47 AM
   Heparin Sodium (Prophylaxis) - [**2151-1-24**] 07:47 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: states has pain in buttocks and left leg.
   Flowsheet Data as of  [**2151-1-24**] 09:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.2
C (97.1
   HR: 88 (81 - 91) bpm
   BP: 96/47(59) {77/15(34) - 122/71(77)} mmHg
   RR: 18 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  6,946 mL
                                                                  3,010 mL
   PO:
                                                                     90 mL
             TF:
                                                                  1,695 mL
                                                                    663 mL
   IVF:
                                                                  5,071 mL
                                                                  2,297 mL
   Blood products:
   Total out:
                                                                 11,942 mL
                                                                  4,834 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,996 mL
                                                                 -1,824 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 466 (424 - 578) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 94
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: 1+, Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, Tone: Decreased
   Labs / Radiology
   146 K/uL
   7.6 g/dL
   202 mg/dL
   0.9 mg/dL
   27 mEq/L
   5.2 mEq/L
   14 mg/dL
   107 mEq/L
   142 mEq/L
   26.0 %
   16.1 K/uL
        [image002.jpg]
                             [**2151-1-22**]  04:03 AM
                             [**2151-1-22**]  07:59 PM
                             [**2151-1-22**]  08:24 PM
                             [**2151-1-23**]  01:13 AM
                             [**2151-1-23**]  04:21 AM
                             [**2151-1-23**]  07:58 AM
                             [**2151-1-23**]  09:58 AM
                             [**2151-1-23**]  08:52 PM
                             [**2151-1-24**]  03:29 AM
                             [**2151-1-24**]  03:30 AM
   WBC
   15.3
   14.8
   16.1
   Hct
   24.2
   26.6
   26.0
   Plt
   175
   150
   146
   Cr
   2.1
   1.3
   1.1
   1.0
   0.8
   0.9
   TCO2
   36
   34
   29
   Glucose
   124
   115
   184
   206
   88
   190
   202
   Other labs: PT / PTT / INR:22.3/56.7/2.1, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:78.1 %, Band:0.0 %, Lymph:16.1 %,
   Mono:5.3 %, Eos:0.3 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
     # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Seems to
   be improving. Plastics debrided extensively [**1-20**] and placed wound vac.
   -Cont current wound care
   -Will need plastics follow up this week
   - Pain controlled reasonably well with 100 mcg fentanyl patch ,
   lidocaine patches and morphine PRN
     # Hypercarbic Respiratory Failure: Pt noted prior to transfer several
   weeks ago to have oxygen sats in the 70s and copious, thick secretions.
   Most recent bronch showing no granulation tissue at or above trach
   stie, unable to see below.  Suspect some tracheomalacia or tracheal
   stenosis that doesn
t allow air flow when PM valve is in place and make
   the patient unable to tolerate the valve.  O/n [**1-17**] trach positional for
   ventilation but  IP here [**1-19**] could not find prob with trach in multiple
   positions so will leave as is for now. Sputum from [**1-18**] now growing
   pseudomonas and serratia. ABG overnight [**1-22**] with slightly worse
   hypercarbia and hypoxia so increased PEEP and inspiratory pressures.
   - Continue ventilator- PS wean as tol
   -Cipro for 14D course for serratia in sputum. Day 1- [**1-22**]
   - Atrovent nebs and prn albuterol nebs
    # Leukocytosis:  Down slightly today to 16.1.  Has been afebrile, no
   symptoms of infection except possible PNA as above. Last  hypotensive
   [**1-18**] requiring pressors and ? cardiac vs infectious vs autonomic
   instability
   - will trend WBC and fever curve, low threshold for starting abx given
   known osteo (finished meropenem [**1-11**]) stage 4 sacral ulcer.
   # ESRD: On HD, [**1-18**] to diabetic nephropathy. Although HD line has
   surrounding erythema, per renal, has had this stable appearance with
   negative blood cxs in past.  HD fri [**1-22**] but unable to take off sign
   volume [**1-18**] hypotension
   - CVVH this weekend for fluid removal. Pushing for up to 300cc/hr if
   BP/ mentation tolerate
   - f/u renal recs
   - HD MWF.
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Surgery has signed off. No TTP at site, brown stool and gas in bag.
   Bridge removed by surgery yesterday and stated no evidence of
   surrounding necrosis or cellulitis. Pt at high risk of ostomy pulling
   back into abd.
   - continue ostomy care
    # Anemia: Hct stable at 24 today. Pt has ESRD and is currently on Epo
   treatment, will keep transfusion goal Hct >21%
   - Trend Hct, infusion goal > 21%
   # Hypoglycemia: Since OR procedure pt
s CBGs have noted to be low, 56
   this morning.  Lantus was decreased recently to 10u. Pt
s insulin doses
   have not changed and neither has his tube feed regimen. Hypoglycemia
   may be [**1-18**] poor absorption of tube feeds from bowel wall edema given
   the recent procedure.  Possible that now that patient is no longer
   infected that his hyperglycemia is less and therefore needs less
   insulin
   - continue Lantus to 10u qd
   - continue SSI
    # Depression: The patient has been showing decreased interest and
   signs of depression give his current medical situation
   - Cont citalopram 30 mg daily- increased last weekend.
   - Social work following
   -OT consulted for possible other ways to communicate
    # Hypotension- Currently weaned off Levo since [**1-18**]. TSH elevated and
   free T4 low [**1-18**] but likely sick thyroid. Should recheck as outpt.
   Cortisol [**1-18**] nl at 19.
   - continue midodrine
   -monitor BPs, mentation
     # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
     # Atrial Fibrillation: No active issues. INR today 1.9.
   -restart coumadin at 2 today
   - Off nodal agents until BPs can better tolerate.
   # Osteomyelitis:  No active issues
   - finished meropenem ([**1-11**] was the completion of 6 week course).
    # R BKA/PVD
   Continue current wound care
       # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-24**] 03:46 AM 70.[**Telephone/Fax (3) 7922**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2151-01-24 10:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -CVVH with fluid removal effected over yesterday but compromised by
   hypotension last pm
   -COntinued PSV required.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-1-24**] 07:47 AM
   Heparin Sodium (Prophylaxis) - [**2151-1-24**] 07:47 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-24**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.2
C (97.1
   HR: 88 (81 - 91) bpm
   BP: 90/31(46) {77/15(34) - 122/71(77)} mmHg
   RR: 17 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  6,946 mL
                                                                  3,294 mL
   PO:
                                                                     90 mL
             TF:
                                                                  1,695 mL
                                                                    732 mL
   IVF:
                                                                  5,071 mL
                                                                  2,512 mL
   Blood products:
   Total out:
                                                                 11,942 mL
                                                                  5,499 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,996 mL
                                                                 -2,205 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 466 (424 - 578) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 94
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   146 K/uL
   202 mg/dL
   0.9 mg/dL
   27 mEq/L
   5.2 mEq/L
   14 mg/dL
   107 mEq/L
   142 mEq/L
   26.0 %
   16.1 K/uL
        [image002.jpg]
                             [**2151-1-22**]  04:03 AM
                             [**2151-1-22**]  07:59 PM
                             [**2151-1-22**]  08:24 PM
                             [**2151-1-23**]  01:13 AM
                             [**2151-1-23**]  04:21 AM
                             [**2151-1-23**]  07:58 AM
                             [**2151-1-23**]  09:58 AM
                             [**2151-1-23**]  08:52 PM
                             [**2151-1-24**]  03:29 AM
                             [**2151-1-24**]  03:30 AM
   WBC
   15.3
   14.8
   16.1
   Hct
   24.2
   26.6
   26.0
   Plt
   175
   150
   146
   Cr
   2.1
   1.3
   1.1
   1.0
   0.8
   0.9
   TCO2
   36
   34
   29
   Glucose
   124
   115
   184
   206
   88
   190
   202
   Other labs: PT / PTT / INR:22.3/56.7/2.1, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:78.1 %, Band:0.0 %, Lymph:16.1 %,
   Mono:5.3 %, Eos:0.3 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   76 yo male with now persistent renal failure and respiratory failure.
   He has ongoing need for volume removal with persistent ventilatory
   failure and likely contribution of pulmonary edema to persistent
   respiratory failure.
   Respiratory Failure
   -Move to wean PSV today to [**4-20**]
   -Will be dependent upon volume overload
   Renal Failure
   -Continue CVVH and volume removal through to next week
   -Follow BP
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-24**] 03:46 AM 70.[**Telephone/Fax (3) 7922**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes

2151-01-25 08:03:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
   -nutrition is unable to perform a nitrogen balance study because
   patient is receiving hemodialysis and losses in HD are unaccounted for;
   they will assess him tomorrow though (c/s placed)
   -Continued on CVVH
   Patient unable to provide history: trached
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-1-24**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-25**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 96 (85 - 98) bpm
   BP: 69/37(44) {69/27(41) - 96/65(69)} mmHg
   RR: 18 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  7,982 mL
                                                                  3,027 mL
   PO:
             TF:
                                                                  1,622 mL
                                                                    561 mL
   IVF:
                                                                  6,210 mL
                                                                  2,465 mL
   Blood products:
   Total out:
                                                                 13,361 mL
                                                                  2,641 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,379 mL
                                                                    386 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 412 (347 - 564) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 63
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 8.5 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Cyanosis
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   154 K/uL
   7.8 g/dL
   134 mg/dL
   0.9 mg/dL
   34 mEq/L
   4.9 mEq/L
   17 mg/dL
   102 mEq/L
   140 mEq/L
   27.0 %
   14.1 K/uL
        [image002.jpg]
                             [**2151-1-22**]  08:24 PM
                             [**2151-1-23**]  01:13 AM
                             [**2151-1-23**]  04:21 AM
                             [**2151-1-23**]  07:58 AM
                             [**2151-1-23**]  09:58 AM
                             [**2151-1-23**]  08:52 PM
                             [**2151-1-24**]  03:29 AM
                             [**2151-1-24**]  03:30 AM
                             [**2151-1-24**]  08:43 PM
                             [**2151-1-25**]  04:10 AM
   WBC
   14.8
   16.1
   14.1
   Hct
   26.6
   26.0
   27.0
   Plt
   150
   146
   154
   Cr
   1.1
   1.0
   0.8
   0.9
   0.9
   TCO2
   36
   34
   29
   Glucose
   184
   206
   88
   190
   202
   198
   134
   Other labs: PT / PTT / INR:25.3/49.3/2.5, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:89.0 %, Band:1.0 %, Lymph:6.0 %,
   Mono:3.0 %, Eos:1.0 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:8.3 mg/dL, Mg++:1.6 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
     # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Seems to
   be improving. Plastics debrided extensively [**1-20**] and placed wound vac.
   -Cont current wound care
   -Will need plastics follow up this week
   - Pain controlled reasonably well with 100 mcg fentanyl patch ,
   lidocaine patches and morphine PRN
     # Hypercarbic Respiratory Failure: Pt noted prior to transfer several
   weeks ago to have oxygen sats in the 70s and copious, thick secretions.
   Most recent bronch showing no granulation tissue at or above trach
   stie, unable to see below.  Suspect some tracheomalacia or tracheal
   stenosis that doesn
t allow air flow when PM valve is in place and make
   the patient unable to tolerate the valve.  O/n [**1-17**] trach positional for
   ventilation but  IP here [**1-19**] could not find prob with trach in multiple
   positions so will leave as is for now. Sputum from [**1-18**] now growing
   pseudomonas and serratia. ABG overnight [**1-22**] with slightly worse
   hypercarbia and hypoxia so increased PEEP and inspiratory pressures.
   - Continue ventilator- PS wean as tol
   -Cipro for 14D course for serratia in sputum. Day 1- [**1-22**]
   - Atrovent nebs and prn albuterol nebs
    # Leukocytosis:  Down slightly today to 16.1.  Has been afebrile, no
   symptoms of infection except possible PNA as above. Last  hypotensive
   [**1-18**] requiring pressors and ? cardiac vs infectious vs autonomic
   instability
   - will trend WBC and fever curve, low threshold for starting abx given
   known osteo (finished meropenem [**1-11**]) stage 4 sacral ulcer.
   # ESRD: On HD, [**1-18**] to diabetic nephropathy. Although HD line has
   surrounding erythema, per renal, has had this stable appearance with
   negative blood cxs in past.  HD fri [**1-22**] but unable to take off sign
   volume [**1-18**] hypotension
   - CVVH this weekend for fluid removal. Pushing for up to 300cc/hr if
   BP/ mentation tolerate
   - f/u renal recs
   - HD MWF.
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Surgery has signed off. No TTP at site, brown stool and gas in bag.
   Bridge removed by surgery yesterday and stated no evidence of
   surrounding necrosis or cellulitis. Pt at high risk of ostomy pulling
   back into abd.
   - continue ostomy care
    # Anemia: Hct stable at 24 today. Pt has ESRD and is currently on Epo
   treatment, will keep transfusion goal Hct >21%
   - Trend Hct, infusion goal > 21%
   # Hypoglycemia: Since OR procedure pt
s CBGs have noted to be low, 56
   this morning.  Lantus was decreased recently to 10u. Pt
s insulin doses
   have not changed and neither has his tube feed regimen. Hypoglycemia
   may be [**1-18**] poor absorption of tube feeds from bowel wall edema given
   the recent procedure.  Possible that now that patient is no longer
   infected that his hyperglycemia is less and therefore needs less
   insulin
   - continue Lantus to 10u qd
   - continue SSI
    # Depression: The patient has been showing decreased interest and
   signs of depression give his current medical situation
   - Cont citalopram 30 mg daily- increased last weekend.
   - Social work following
   -OT consulted for possible other ways to communicate
    # Hypotension- Currently weaned off Levo since [**1-18**]. TSH elevated and
   free T4 low [**1-18**] but likely sick thyroid. Should recheck as outpt.
   Cortisol [**1-18**] nl at 19.
   - continue midodrine
   -monitor BPs, mentation
     # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
     # Atrial Fibrillation: No active issues. INR today 1.9.
   -restart coumadin at 2 today
   - Off nodal agents until BPs can better tolerate.
   # Osteomyelitis:  No active issues
   - finished meropenem ([**1-11**] was the completion of 6 week course).
    # R BKA/PVD
   Continue current wound care
       # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-24**] 06:56 PM 70.[**Telephone/Fax (3) 7922**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-01-26 07:32:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
   -Unable to continue to take volume off as hypotension in the AM
   -Checked lactate to attempt to see if hypotension was primarily an
   artifact of poor recording and was normal at 1.3
   -Attempted to wean pressure support
   -[**Doctor First Name **] called to evaluate ostomy (concern about necrosis around site)
   -Current placement situation: Family refused [**Hospital1 82**] due to emphasis
   on code discussion, currently only one major facility ([**Hospital1 630**] in
   [**Location (un) 3873**]) is a real possibility.  If they refuse that unsure how much
   hospital will push.
   - called surgery to look at ostomy but they did not yet come by
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: states having pain. Otherwise limited ability to
   communicate [**1-18**] trach
   Flowsheet Data as of  [**2151-1-26**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.7
C (98.1
   HR: 92 (92 - 100) bpm
   BP: 87/41(48) {63/17(27) - 109/86(89)} mmHg
   RR: 20 (18 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  9,848 mL
                                                                  2,085 mL
   PO:
                                                                     70 mL
             TF:
                                                                  1,620 mL
                                                                    522 mL
   IVF:
                                                                  7,758 mL
                                                                  1,563 mL
   Blood products:
   Total out:
                                                                  9,405 mL
                                                                  2,280 mL
   Urine:
   NG:
   Stool:
                                                                    225 mL
   Drains:
                                                                    450 mL
   Balance:
                                                                    443 mL
                                                                   -195 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 342 (342 - 539) mL
   PS : 5 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 69
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///38/
   Ve: 8.4 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Trace, Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   144 K/uL
   7.1 g/dL
   198 mg/dL
   0.8 mg/dL
   38 mEq/L
   4.8 mEq/L
   15 mg/dL
   99 mEq/L
   141 mEq/L
   24.5 %
   15.3 K/uL
        [image002.jpg]
                             [**2151-1-23**]  08:52 PM
                             [**2151-1-24**]  03:29 AM
                             [**2151-1-24**]  03:30 AM
                             [**2151-1-24**]  08:43 PM
                             [**2151-1-25**]  04:10 AM
                             [**2151-1-25**]  10:22 AM
                             [**2151-1-25**]  12:00 PM
                             [**2151-1-25**]  04:28 PM
                             [**2151-1-25**]  10:42 PM
                             [**2151-1-26**]  04:51 AM
   WBC
   16.1
   14.1
   15.3
   Hct
   26.0
   27.0
   24.5
   Plt
   146
   154
   144
   Cr
   0.8
   0.9
   0.9
   0.8
   Glucose
   88
   190
   202
   198
   134
   156
   219
   137
   121
   198
   Other labs: PT / PTT / INR:29.1/57.9/2.9, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:89.0 %, Band:1.0 %, Lymph:6.0 %,
   Mono:3.0 %, Eos:1.0 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
     # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Seems to
   be improving. Plastics debrided extensively [**1-20**] and placed wound vac.
   -Cont current wound care
   -contact Plastics re: need to change wound vac today
   - Pain controlled reasonably well with 100 mcg fentanyl patch ,
   lidocaine patches and morphine PRN
     # Hypercarbic Respiratory Failure:  Exact etiology of respiratory
   failure unclear- may include some muscular weakness, PNA and difficulty
   [**1-18**] body habitus .  Suspect some tracheomalacia or tracheal stenosis
   that doesn
t allow air flow when PM valve is in place and make the
   patient unable to tolerate the valve.  O/n [**1-17**] trach positional for
   ventilation but  IP here [**1-19**] could not find prob with trach in multiple
   positions so will leave as is for now. Sputum from [**1-18**] now growing
   pseudomonas and serratia. Currently stable on [**4-20**].
   - Continue ventilator- PS wean as tol
   -Cipro for 14D course for serratia in sputum. Day 1- [**1-22**]
   - Atrovent nebs and prn albuterol nebs
    # Leukocytosis:  Stable today at 15.3.   Has been afebrile, no
   symptoms of infection except possible PNA as above. Last  hypotensive
   [**1-18**] requiring pressors and ? cardiac vs infectious vs autonomic
   instability
   -  trend WBC and fever curve
    # ESRD: On CVVH since [**1-22**] in order to remove fluid.  Yesterday was not
   successful removing fluid [**1-18**] hypotension. Plan to continue CVVH until
   this filter runs out then HD tomorrow, Wednesday .
   - f/u renal recs
   - HD MWF to restart tomorrow.
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Surgery has signed off. No TTP at site, brown stool and gas in bag.
   Bridge removed by surgery last week and stated no evidence of
   surrounding necrosis or cellulitis. Pt at high risk of ostomy pulling
   back into abd.  Today surgery [**1-26**] stated v poor wound healing with
   some skin loss and would rechk nutrition labs. [**Month (only) 60**] need debridement at
   some point but as there is currently no infection and this would leave
   him with a floating ostomy over fascia, will wait for now
   - continue ostomy care
   -surgery back today st
    # Anemia: Hct stable at 24 today. Pt has ESRD and is currently on Epo
   treatment, will keep transfusion goal Hct >21%
   - Trend Hct, infusion goal > 21%
   # Hypoglycemia: Since OR procedure pt
s CBGs have noted to be low, 56
   this morning.  Lantus was decreased recently to 10u. Pt
s insulin doses
   have not changed and neither has his tube feed regimen. Hypoglycemia
   may be [**1-18**] poor absorption of tube feeds from bowel wall edema given
   the recent procedure.  Possible that now that patient is no longer
   infected that his hyperglycemia is less and therefore needs less
   insulin
   - continue Lantus to 10u qd
   - continue SSI
    # Depression: The patient has been showing decreased interest and
   signs of depression give his current medical situation
   - Cont citalopram 30 mg daily
   - Social work following
   -OT consulted for possible other ways to communicate
    # Hypotension- Currently weaned off Levo since [**1-18**]. TSH elevated and
   free T4 low [**1-18**] but likely sick thyroid. Should recheck as outpt.
   Cortisol [**1-18**] nl at 19.
   - continue midodrine
   -monitor BPs, mentation
   -consider gentle boluses for hypotension prn
     # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
      # Atrial Fibrillation: No active issues. INR today 2.5
   - Off nodal agents until BPs can better tolerate.
    # Osteomyelitis:  No active issues
   - finished meropenem ([**1-11**] was the completion of 6 week course).
     # R BKA/PVD
   Continue current wound care
        # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   #Nutrition: Tube feed, nutrition consult pending about excessive
   caloric intake but catabolic given low prot state
   #Prophylaxis: Therapeutic on coumadin (holding today), on PPI
   #Code: Full
   #Disposition: ICU, speak to SW regarding ultimate placement.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-26**] 12:16 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2151-01-27 07:05:00 Physician Resident Progress Note
Chief Complaint: 75 yo M with chronic respiratory failure with trach,
   COPD, ESRD, DM 2, infected stage IV coccygeal ulcer, and multiple prior
   VAPs/HAPs with complicated hospital course who now was transferred
   again to the [**Hospital Unit Name 44**] for hypercarbic respiratory failure now s/p diverting
   colostomy to allow for healing of his coccygeal ulcer.
   24 Hour Events:
   - Talked to nutrition about minimizing free water, maximizing protein
   without excess calories. Changed beneprotein to 45gm/day from 15 and
   decr free water flushes
   -Plan to finish this filter for CVVH and stop CVVH. Plan for HD
   Wednesday [**1-27**]. Throughout day, titrating fluid taken off at CVVH based
   on BP/mentation
   -PICC lookign erythematous so blood cultures sent from line
   -sputum cx sent
   - warfarin down titrated to 1 mg daily from 2mg
   -epo dose adjusted per renal
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-1-26**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-27**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.5
   HR: 95 (89 - 107) bpm
   BP: 80/49(56) {67/24(42) - 147/117(124)} mmHg
   RR: 26 (18 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  9,009 mL
                                                                  1,076 mL
   PO:
             TF:
                                                                  1,693 mL
                                                                    492 mL
   IVF:
                                                                  6,876 mL
                                                                    533 mL
   Blood products:
   Total out:
                                                                 10,967 mL
                                                                    300 mL
   Urine:
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                 -1,958 mL
                                                                    776 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 411 (179 - 454) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 56
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///33/
   Ve: 8.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   163 K/uL
   6.8 g/dL
   127 mg/dL
   1.0 mg/dL
   33 mEq/L
   5.2 mEq/L
   19 mg/dL
   100 mEq/L
   141 mEq/L
   24.0 %
   15.3 K/uL
        [image002.jpg]
                             [**2151-1-25**]  04:10 AM
                             [**2151-1-25**]  10:22 AM
                             [**2151-1-25**]  12:00 PM
                             [**2151-1-25**]  04:28 PM
                             [**2151-1-25**]  10:42 PM
                             [**2151-1-26**]  04:51 AM
                             [**2151-1-26**]  10:17 AM
                             [**2151-1-26**]  04:38 PM
                             [**2151-1-26**]  10:00 PM
                             [**2151-1-27**]  04:50 AM
   WBC
   14.1
   15.3
   Hct
   27.0
   24.5
   24.0
   Plt
   154
   144
   163
   Cr
   0.9
   0.8
   0.9
   1.0
   Glucose
   134
   156
   219
   137
   121
   198
   147
   115
   234
   127
   Other labs: PT / PTT / INR:36.8/54.5/3.9, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:89.0 %, Band:1.0 %, Lymph:6.0 %,
   Mono:3.0 %, Eos:1.0 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
   # Hypercarbic Respiratory Failure:  Exact etiology of respiratory
   failure unclear- may include some muscular weakness, PNA and difficulty
   [**1-18**] body habitus .  Suspect some tracheomalacia or tracheal stenosis
   that doesn
t allow air flow when PM valve is in place and make the
   patient unable to tolerate the valve.  O/n [**1-17**] trach positional for
   ventilation but  IP here [**1-19**] could not find prob with trach in multiple
   positions so will leave as is for now. Sputum from [**1-18**] now growing
   pseudomonas and serratia. Currently stable on [**4-20**].
   - Continue ventilator- PS wean as tol
   - Cipro for 14D course for serratia in sputum. Day 1- [**1-22**].  Today is
   day 6.
   - Atrovent nebs and prn albuterol nebs
   # ESRD: On CVVH since [**1-22**] in order to remove fluid.   Was hypotensive
   to SBP of 70 during fluid removal yesterday and required small bolus
   with improvement of SBP to 80s.  Initially HD was planned to be started
   on [**2151-1-27**] but low SBP makes this less likely.
   - Continue boluses prn for hypotension
   - No HD today
   - Renal reccs were to decrease volume of tube foods so as to reduce
   volume reduction goals of dialysis but will continue bolusing with goal
   of patient
s SBP being adequate to ultimately tolerate HD
   # Hypotension:  Currently weaned off Levo since [**1-18**]. TSH elevated and
   free T4 low [**1-18**] but likely sick thyroid. Should recheck as outpt.
   Cortisol [**1-18**] nl at 19.
   -continue midodrine
   -monitor BPs, mentation
   -consider gentle boluses for hypotension prn
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Surgery has signed off. No TTP at site, brown stool and gas in bag.
   Bridge removed by surgery last week and stated no evidence of
   surrounding necrosis or cellulitis. Pt at high risk of ostomy pulling
   back into abd.  On [**1-26**],  surgery stated very poor wound healing with
   some skin loss and would rechk nutrition labs. [**Month (only) 60**] need debridement at
   some point but as there is currently no infection and this would leave
   him with a floating ostomy over fascia, will wait for now
   -continue ostomy care
   -f/u surgery reccs
   # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Seems to be
   improving. Plastics debrided extensively [**1-20**] and placed wound vac.
   - Cont current wound care
   - contact Plastics re: need to change wound vac
   - Pain controlled reasonably well with 100 mcg fentanyl patch ,
   lidocaine patches and morphine PRN
   # Anemia: Hct stable at 24 today. Pt has ESRD and is currently on Epo
   treatment, will keep transfusion goal Hct >21%
   - Trend Hct, infusion goal > 21%
   # Hypoglycemia: Since OR procedure pt
s CBGs have noted to be low, 56
   this morning.  Lantus was decreased recently to 10u. Pt
s insulin doses
   have not changed and neither has his tube feed regimen. Hypoglycemia
   may be [**1-18**] poor absorption of tube feeds from bowel wall edema given
   the recent procedure.  Possible that now that patient is no longer
   infected that his hyperglycemia is less and therefore needs less
   insulin
   - continue Lantus to 10u qd
   - continue SSI
   # Depression: The patient has been showing decreased interest and signs
   of depression give his current medical situation
   - Cont citalopram 30 mg daily
   - Social work following
   -OT consulted for possible other ways to communicate
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
   # Atrial Fibrillation: No active issues. INR today 2.5
   - Off nodal agents until BPs can better tolerate.
   # Osteomyelitis:  No active issues
   - finished meropenem ([**1-11**] was the completion of 6 week course).
   # R BKA/PVD
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   #Nutrition: Tube feed, nutrition consult pending about excessive
   caloric intake but catabolic given low prot state
   #Prophylaxis: Supratherapeutic on coumadin (holding today), on PPI
   #Code: Full
   #Disposition: ICU, speak to SW regarding ultimate placement.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-1-26**] 06:21 PM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-01-28 08:00:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
 BLOOD CULTURED - At [**2151-1-27**] 05:45 PM
   -Febrile to 101 -> cultured
   -warfarin held for inr 3.9
   -remained lethargic for entirety of day
   -given 1L total in fluid boluses for hypotension with little
   improvement in BP
   -K+ 6.8 in a.m. of [**1-28**]->got 30 kayexalate, ekg which showed no peaked
   q waves
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:none
   Review of systems is unchanged from admission except as noted below
   Review of systems: limited [**1-18**] difficulties with communication
   Flowsheet Data as of  [**2151-1-28**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.4
C (99.4
   HR: 104 (89 - 104) bpm
   BP: 87/42(50) {70/27(35) - 107/80(85)} mmHg
   RR: 28 (17 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  3,370 mL
                                                                    819 mL
   PO:
             TF:
                                                                  1,687 mL
                                                                    550 mL
   IVF:
                                                                  1,453 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,070 mL
                                                                    819 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 316 (134 - 547) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 95
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 8.1 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilat, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Trace, Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   196 K/uL
   6.7 g/dL
   151 mg/dL
   1.8 mg/dL
   31 mEq/L
   6.8 mEq/L
   34 mg/dL
   102 mEq/L
   140 mEq/L
   23.3 %
   18.4 K/uL
        [image002.jpg]
                             [**2151-1-25**]  10:22 AM
                             [**2151-1-25**]  12:00 PM
                             [**2151-1-25**]  04:28 PM
                             [**2151-1-25**]  10:42 PM
                             [**2151-1-26**]  04:51 AM
                             [**2151-1-26**]  10:17 AM
                             [**2151-1-26**]  04:38 PM
                             [**2151-1-26**]  10:00 PM
                             [**2151-1-27**]  04:50 AM
                             [**2151-1-28**]  04:02 AM
   WBC
   15.3
   15.8
   18.4
   Hct
   24.5
   24.0
   23.3
   Plt
   144
   163
   196
   Cr
   0.8
   0.9
   1.0
   1.8
   Glucose
   156
   219
   137
   121
   198
   147
   115
   234
   127
   151
   Other labs: PT / PTT / INR:33.1/50.8/3.5, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:84.0 %, Band:1.0 %, Lymph:12.0 %,
   Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
   # Hypercarbic Respiratory Failure:  Exact etiology of respiratory
   failure unclear- may include some muscular weakness, PNA and difficulty
   [**1-18**] body habitus .  Suspect some tracheomalacia or tracheal stenosis
   that doesn
t allow air flow when PM valve is in place and make the
   patient unable to tolerate the valve.  O/n [**1-17**] trach positional for
   ventilation but  IP here [**1-19**] could not find prob with trach in multiple
   positions so will leave as is for now. Sputum from [**1-18**] now growing
   pseudomonas and serratia. Currently stable on [**4-20**].
   - Continue ventilator- PS wean as tol
   - Cipro for 14D course for serratia in sputum. Day 1- [**1-22**].  Today is
   day 6.
   - Atrovent nebs and prn albuterol nebs
    # ESRD: On CVVH since [**1-22**] in order to remove fluid.   Was hypotensive
   to SBP of 70 during fluid removal yesterday and required small bolus
   with improvement of SBP to 80s.  Initially HD was planned to be started
   on [**2151-1-27**] but low SBP makes this less likely.
   - Continue boluses prn for hypotension
   - No HD today
   - Renal reccs were to decrease volume of tube foods so as to reduce
   volume reduction goals of dialysis but will continue bolusing with goal
   of patient
s SBP being adequate to ultimately tolerate HD
   # Hypotension:  Currently weaned off Levo since [**1-18**]. TSH elevated and
   free T4 low [**1-18**] but likely sick thyroid. Should recheck as outpt.
   Cortisol [**1-18**] nl at 19.
   -continue midodrine
   -monitor BPs, mentation
   -consider gentle boluses for hypotension prn
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Surgery has signed off. No TTP at site, brown stool and gas in bag.
   Bridge removed by surgery last week and stated no evidence of
   surrounding necrosis or cellulitis. Pt at high risk of ostomy pulling
   back into abd.  On [**1-26**],  surgery stated very poor wound healing with
   some skin loss and would rechk nutrition labs. [**Month (only) 60**] need debridement at
   some point but as there is currently no infection and this would leave
   him with a floating ostomy over fascia, will wait for now
   -continue ostomy care
   -f/u surgery reccs
   # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Seems to be
   improving. Plastics debrided extensively [**1-20**] and placed wound vac.
   - Cont current wound care
   - contact Plastics re: need to change wound vac
   - Pain controlled reasonably well with 100 mcg fentanyl patch ,
   lidocaine patches and morphine PRN
   # Anemia: Hct stable at 24 today. Pt has ESRD and is currently on Epo
   treatment, will keep transfusion goal Hct >21%
   - Trend Hct, infusion goal > 21%
   # Hypoglycemia: Since OR procedure pt
s CBGs have noted to be low, 56
   this morning.  Lantus was decreased recently to 10u. Pt
s insulin doses
   have not changed and neither has his tube feed regimen. Hypoglycemia
   may be [**1-18**] poor absorption of tube feeds from bowel wall edema given
   the recent procedure.  Possible that now that patient is no longer
   infected that his hyperglycemia is less and therefore needs less
   insulin
   - continue Lantus to 10u qd
   - continue SSI
   # Depression: The patient has been showing decreased interest and signs
   of depression give his current medical situation
   - Cont citalopram 30 mg daily
   - Social work following
   -OT consulted for possible other ways to communicate
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
   # Atrial Fibrillation: No active issues. INR today 2.5
   - Off nodal agents until BPs can better tolerate.
    # Osteomyelitis:  No active issues
   - finished meropenem ([**1-11**] was the completion of 6 week course).
    # R BKA/PVD
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   #Nutrition: Tube feed, nutrition consult pending about excessive
   caloric intake but catabolic given low prot state
   #Prophylaxis: Supratherapeutic on coumadin (holding today), on PPI
   #Code: Full
   #Disposition: ICU, speak to SW regarding ultimate placement.
   ICU Care
   Nutrition: TF on hold for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2151-01-29 07:36:00 Physician Resident Progress Note
Chief Complaint: resp failiure
   24 Hour Events:
   -Warfarin stopped
   -Got dialysis with no fluid removed and remained stable re: BP's
   -put on free water boluses for sodium of 150 with afternoon lytes
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-1-28**] 08:00 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt states feeling slightly better today, Has some
   pain but better than yesterday. No SOB.
   Flowsheet Data as of  [**2151-1-29**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.7
C (99.8
   HR: 88 (85 - 108) bpm
   BP: 93/40(52) {78/22(32) - 98/55(62)} mmHg
   RR: 20 (17 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  1,740 mL
                                                                    673 mL
   PO:
                  TF:
                                                                  1,156 mL
                                                                    373 mL
   IVF:
                                                                    109 mL
   Blood products:
   Total out:
                                                                  1,340 mL
                                                                    150 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    400 mL
                                                                    523 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 297 (217 - 434) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 94
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Trace, Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Movement: Purposeful,
   Tone: Normal
   Labs / Radiology
   186 K/uL
   6.3 g/dL
   102 mg/dL
   1.4 mg/dL
   32 mEq/L
   4.2 mEq/L
   26 mg/dL
   107 mEq/L
   147 mEq/L
   22.3 %
   14.6 K/uL
        [image002.jpg]
                             [**2151-1-25**]  12:00 PM
                             [**2151-1-25**]  04:28 PM
                             [**2151-1-25**]  10:42 PM
                             [**2151-1-26**]  04:51 AM
                             [**2151-1-26**]  10:17 AM
                             [**2151-1-26**]  04:38 PM
                             [**2151-1-26**]  10:00 PM
                             [**2151-1-27**]  04:50 AM
                             [**2151-1-28**]  04:02 AM
                             [**2151-1-29**]  05:44 AM
   WBC
   15.3
   15.8
   18.4
   14.6
   Hct
   24.5
   24.0
   23.3
   22.3
   Plt
   144
   163
   196
   186
   Cr
   0.8
   0.9
   1.0
   1.8
   1.4
   Glucose
   [**Telephone/Fax (3) 8050**]98
   147
   115
   [**Telephone/Fax (3) 8051**]
   102
   Other labs: PT / PTT / INR:22.3/35.9/2.1, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:81.9 %, Band:0.0 %, Lymph:13.2 %,
   Mono:3.2 %, Eos:1.4 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
   # Hypercarbic Respiratory Failure:  Exact etiology of respiratory
   failure unclear- may include some muscular weakness, PNA and difficulty
   [**1-18**] body habitus .  Suspect some tracheomalacia or tracheal stenosis
   that doesn
t allow air flow when PM valve is in place and make the
   patient unable to tolerate the valve.  O/n [**1-17**] trach positional for
   ventilation but  IP here [**1-19**] could not find prob with trach in multiple
   positions so will leave as is for now. Sputum from [**1-18**] now grew
   pseudomonas and serratia. Currently stable on [**4-20**]. Sputum from [**1-26**]
   growing 3 types GNRs one of which is pseudomonas
   -f/u speciation from [**1-26**] sputum cx
   - Continue ventilator- PS wean as tol
   - Cipro for 14D course for serratia in sputum. Day 1- [**1-22**].  Today is
   day 8.
   - Atrovent nebs and prn albuterol nebs
    # ESRD: On CVVH [**1-22**]- [**1-27**] in order to remove fluid.   HD reinitiated
   [**1-28**] but without fluid removal [**1-18**] persistently low BP.
   - Continue boluses prn for hypotension.  If SBP <70 and not responsive
   to fluids, would choose Levo as pressor of choice. Today, Hct low so if
   hypotensive, would give PRBCs 1unit first.
   - per renal recs, nutrition changed TF [**1-28**] so now getting 50cc/hr not
   70cc/hr
   # Hypotension:  Currently weaned off Levo since [**1-18**]. TSH elevated and
   free T4 low [**1-18**] but likely sick thyroid. Should recheck as outpt.
   Cortisol [**1-18**] nl at 19.
   -continue midodrine, flourinef
   -monitor BPs, mentation
   -consider gentle boluses for hypotension prn
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Surgery has signed off. No TTP at site, brown stool and gas in bag.
   Bridge removed by surgery last week and stated no evidence of
   surrounding necrosis or cellulitis. Pt at high risk of ostomy pulling
   back into abd.  On [**1-26**],  surgery stated very poor wound healing with
   some skin loss and would rechk nutrition labs. [**Month (only) 60**] need debridement at
   some point but as there is currently no infection and this would leave
   him with a floating ostomy over fascia, will wait for now. Family has
   been told there are no further surgical options. Ostomy may very well
   retract at some point which would be catastrophic likely spilling feces
   into abd.
   -continue ostomy care
   -f/u surgery reccs
   # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Seems to be
   improving. Plastics debrided extensively [**1-20**] and placed wound vac.
   - Cont current wound care
   - planned wound vac dressing change with wound care, ICU team and
   plastics today
   - Pain controlled reasonably well with 100 mcg fentanyl patch ,
   lidocaine patches and morphine PRN
   # Anemia: Hct slightly down at 22 today. Pt has ESRD and is currently
   on Epo treatment, will keep transfusion goal Hct >21%
   - Trend Hct, infusion goal > 21%. Consider tx today if low BP.
   # Hypoglycemia: Since OR procedure pt
s CBGs were noted to be lower.
   Pt
s insulin doses have not changed. TF changed [**1-28**].  This issue seems
   to have resolved at this time.
   # Depression: The patient has been showing decreased interest and signs
   of depression give his current medical situation
   - Cont citalopram 30 mg daily
   - Social work following
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
   # Atrial Fibrillation: No active issues. INR today 3.9. While pt
   critically ill and undergoing procedures,  coumadin will be deferred as
   risk of anticoagulation greater than benefits.
   - Off nodal agents until BPs can better tolerate.
     # Osteomyelitis:  No active issues
   - finished meropenem ([**1-11**] was the completion of 6 week course).
     # R BKA/PVD
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   #Nutrition: Tube feeds changed today per nutrition recs
   #Prophylaxis: PPI
   #Code: Full
   #Disposition: ICU, speak to case mgmt regarding ultimate placement.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-1-29**] 03:14 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Planned family mtg with Dr. [**Last Name (STitle) 33**] today
   Code status: Full code
   Disposition:ICU

2151-01-30 08:05:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
   -Plastics with wound care and ICU team changed wound vac and debrided.
   Gross pus expressed as well
   - SBP dropped to 50's during debridement after getting 75 Fentanyl for
   pain. Gave 250cc NS. type and screened but did not need to give PRBCs
   as pressure rebounded nicely to 100s/30s
   - per [**First Name8 (NamePattern2) **] [**Doctor Last Name **]- family did not like [**Hospital1 630**]. Thinking about trying
   [**Hospital1 82**] again but won't go back until Tues.
   - Sputum from [**1-26**] growing 3 types GNR one of which is pseudomonas
   - Increased free water flushed in TF to 150 Q 4 in am for Na 147 which
   persisted in the evening
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2151-1-29**] 10:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-1-29**] 08:00 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt getting positioning change and c/o pain
   Flowsheet Data as of  [**2151-1-30**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 98 (88 - 109) bpm
   BP: 103/50(62) {56/10(42) - 129/61(63)} mmHg
   RR: 32 (19 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  2,106 mL
                                                                    698 mL
   PO:
                  TF:
                                                                  1,216 mL
                                                                    398 mL
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                    610 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                    460 mL
   Balance:
                                                                  1,496 mL
                                                                    698 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 373 (296 - 438) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 63
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 7.1 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Trace, Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   173 K/uL
   5.9 g/dL
   78 mg/dL
   2.0 mg/dL
   30 mEq/L
   4.6 mEq/L
   41 mg/dL
   105 mEq/L
   148 mEq/L
   20.5 %
   15.2 K/uL
        [image002.jpg]
                             [**2151-1-25**]  04:28 PM
                             [**2151-1-25**]  10:42 PM
                             [**2151-1-26**]  04:51 AM
                             [**2151-1-26**]  10:17 AM
                             [**2151-1-26**]  04:38 PM
                             [**2151-1-26**]  10:00 PM
                             [**2151-1-27**]  04:50 AM
                             [**2151-1-28**]  04:02 AM
                             [**2151-1-29**]  05:44 AM
                             [**2151-1-30**]  05:03 AM
   WBC
   15.3
   15.8
   18.4
   14.6
   15.2
   Hct
   24.5
   24.0
   23.3
   22.3
   20.5
   Plt
   144
   163
   196
   186
   173
   Cr
   0.8
   0.9
   1.0
   1.8
   1.4
   2.0
   Glucose
   137
   121
   198
   147
   115
   234
   127
   151
   102
   78
   Other labs: PT / PTT / INR:20.1/35.9/1.9, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:81.9 %, Band:0.0 %, Lymph:13.2 %,
   Mono:3.2 %, Eos:1.4 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
   # Hypercarbic Respiratory Failure:  Exact etiology of respiratory
   failure unclear- may include some muscular weakness, PNA and difficulty
   [**1-18**] body habitus .  Suspect some tracheomalacia or tracheal stenosis
   that doesn
t allow air flow when PM valve is in place and make the
   patient unable to tolerate the valve.  O/n [**1-17**] trach positional for
   ventilation but  IP here [**1-19**] could not find prob with trach in multiple
   positions so will leave as is for now. Sputum from [**1-18**] now grew
   pseudomonas and serratia. Currently stable on [**4-20**]. Sputum from [**1-26**]
   growing 3 types GNRs one of which is pseudomonas
   -f/u speciation from [**1-26**] sputum cx
   - Continue ventilator- PS wean as tol
   - Cipro for 14D course for serratia in sputum. Day 1- [**1-22**].  Today is
   day 8.
   - Atrovent nebs and prn albuterol nebs
    # ESRD: On CVVH [**1-22**]- [**1-27**] in order to remove fluid.   HD reinitiated
   [**1-28**] but without fluid removal [**1-18**] persistently low BP.
   - Continue boluses prn for hypotension.  If SBP <70 and not responsive
   to fluids, would choose Levo as pressor of choice. Today, Hct low so if
   hypotensive, would give PRBCs 1unit first.
   - per renal recs, nutrition changed TF [**1-28**] so now getting 50cc/hr not
   70cc/hr
   # Hypotension:  Currently weaned off Levo since [**1-18**]. TSH elevated and
   free T4 low [**1-18**] but likely sick thyroid. Should recheck as outpt.
   Cortisol [**1-18**] nl at 19.
   -continue midodrine, flourinef
   -monitor BPs, mentation
   -consider gentle boluses for hypotension prn
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Surgery has signed off. No TTP at site, brown stool and gas in bag.
   Bridge removed by surgery last week and stated no evidence of
   surrounding necrosis or cellulitis. Pt at high risk of ostomy pulling
   back into abd.  On [**1-26**],  surgery stated very poor wound healing with
   some skin loss and would rechk nutrition labs. [**Month (only) 60**] need debridement at
   some point but as there is currently no infection and this would leave
   him with a floating ostomy over fascia, will wait for now. Family has
   been told there are no further surgical options. Ostomy may very well
   retract at some point which would be catastrophic likely spilling feces
   into abd.
   -continue ostomy care
   -f/u surgery reccs
   # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Seems to be
   improving. Plastics debrided extensively [**1-20**] and placed wound vac.
   - Cont current wound care
   - planned wound vac dressing change with wound care, ICU team and
   plastics today
   - Pain controlled reasonably well with 100 mcg fentanyl patch ,
   lidocaine patches and morphine PRN
   # Anemia: Hct slightly down at 22 today. Pt has ESRD and is currently
   on Epo treatment, will keep transfusion goal Hct >21%
   - Trend Hct, infusion goal > 21%. Consider tx today if low BP.
   # Hypoglycemia: Since OR procedure pt
s CBGs were noted to be lower.
   Pt
s insulin doses have not changed. TF changed [**1-28**].  This issue seems
   to have resolved at this time.
   # Depression: The patient has been showing decreased interest and signs
   of depression give his current medical situation
   - Cont citalopram 30 mg daily
   - Social work following
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
   # Atrial Fibrillation: No active issues. INR today 3.9. While pt
   critically ill and undergoing procedures,  coumadin will be deferred as
   risk of anticoagulation greater than benefits.
   - Off nodal agents until BPs can better tolerate.
     # Osteomyelitis:  No active issues
   - finished meropenem ([**1-11**] was the completion of 6 week course).
     # R BKA/PVD
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   #Nutrition: Tube feeds changed today per nutrition recs
   #Prophylaxis: PPI
   #Code: Full
   #Disposition: ICU, speak to case mgmt regarding ultimate placement.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-1-29**] 10:55 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2151-01-30 11:09:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 M with COPD and chr resp failure s/p trach, Afib, ESRD on HD,
   infected stage IV coccygeal ulcer s/p diverting colostomy [**1-6**] to aid
   in coccygeal wound healing, and multiple prior VAPs/HAPs with
   complicated hospital course transferred [**12-24**] for hypercarbic respiratory
   failure, likely related to oversedation/obesity hypoventilation.
   24 Hour Events:
   Wound debridement by plastics s/p wound vac
   Hypotension in the setting of pain control for above
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2151-1-30**] 10:05 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-1-30**] 09:24 AM
   Heparin Sodium (Prophylaxis) - [**2151-1-30**] 09:24 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-30**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 97 (88 - 109) bpm
   BP: 122/47(65) {56/10(42) - 129/61(65)} mmHg
   RR: 26 (19 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  2,106 mL
                                                                    915 mL
   PO:
                  TF:
                                                                  1,216 mL
                                                                    555 mL
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                    610 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                    460 mL
   Balance:
                                                                  1,496 mL
                                                                    915 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 383 (296 - 383) mL
   PS : 5 cmH2O
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 63
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 13.1 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Ostomy unchanged
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   5.9 g/dL
   173 K/uL
   78 mg/dL
   2.0 mg/dL
   30 mEq/L
   4.6 mEq/L
   41 mg/dL
   105 mEq/L
   148 mEq/L
   20.5 %
   15.2 K/uL
        [image002.jpg]
                             [**2151-1-25**]  04:28 PM
                             [**2151-1-25**]  10:42 PM
                             [**2151-1-26**]  04:51 AM
                             [**2151-1-26**]  10:17 AM
                             [**2151-1-26**]  04:38 PM
                             [**2151-1-26**]  10:00 PM
                             [**2151-1-27**]  04:50 AM
                             [**2151-1-28**]  04:02 AM
                             [**2151-1-29**]  05:44 AM
                             [**2151-1-30**]  05:03 AM
   WBC
   15.3
   15.8
   18.4
   14.6
   15.2
   Hct
   24.5
   24.0
   23.3
   22.3
   20.5
   Plt
   144
   163
   196
   186
   173
   Cr
   0.8
   0.9
   1.0
   1.8
   1.4
   2.0
   Glucose
   137
   121
   198
   147
   115
   234
   127
   151
   102
   78
   Other labs: PT / PTT / INR:20.1/35.9/1.9, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:81.9 %, Band:0.0 %, Lymph:13.2 %,
   Mono:3.2 %, Eos:1.4 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Imaging: No new imaging.
   Microbiology: No new micro data.
   Assessment and Plan
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who was transferred [**12-24**] to the [**Hospital Unit Name 44**] for
   hypercarbic respiratory failure.
   # Hypercarbic Respiratory Failure: Likely [**1-18**] OSA/body
   habitus/weakness.  Currently being treated for serratia PNA.
   - F/U most recent sputum culture.
   - Finish Cipro course
   - Vent/TC as tolerated
    # ESRD: HD today. F/U sodium after HD.
   # Hypotension:  Multifactorial
 stable now.  Follow.
   All other issues per resident note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-1-30**] 08:52 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 28 minutes
   Patient is critically ill and prognosis is grave given poor wound
   healing/ dehiscence

2151-01-31 07:39:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failure
   24 Hour Events:
   -surgery came by and looked at colostomy.  No [**Last Name (LF) 8080**], [**First Name3 (LF) 178**] just cont to
   follow.
   -Got free water boluses for hypernatremia
   -Per report family is considering [**Hospital1 82**] placement once again
   Patient unable to provide history: trached and no speaking valve
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2151-1-30**] 10:05 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-1-30**] 08:06 PM
   Heparin Sodium (Prophylaxis) - [**2151-1-30**] 10:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-31**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.2
   HR: 101 (93 - 108) bpm
   BP: 95/33(45) {92/20(41) - 122/48(65)} mmHg
   RR: 29 (21 - 30) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  2,054 mL
                                                                    779 mL
   PO:
             TF:
                                                                  1,204 mL
                                                                    381 mL
   IVF:
   38 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -146 mL
                                                                    779 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 310 (310 - 417) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 69
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///31/
   Ve: 8.7 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese, ostomy in
   place and PEG, difficult to assess actual ostomy tissue
   Extremities: Right: Absent, Left: Absent, right lower extremity absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   190 K/uL
   7.0 g/dL
   148 mg/dL
   1.4 mg/dL
   31 mEq/L
   3.4 mEq/L
   27 mg/dL
   104 mEq/L
   144 mEq/L
   23.5 %
   15.2 K/uL
        [image002.jpg]
                             [**2151-1-26**]  04:51 AM
                             [**2151-1-26**]  10:17 AM
                             [**2151-1-26**]  04:38 PM
                             [**2151-1-26**]  10:00 PM
                             [**2151-1-27**]  04:50 AM
                             [**2151-1-28**]  04:02 AM
                             [**2151-1-29**]  05:44 AM
                             [**2151-1-30**]  05:03 AM
                             [**2151-1-30**]  06:13 PM
                             [**2151-1-31**]  02:24 AM
   WBC
   15.3
   15.8
   18.4
   14.6
   15.2
   Hct
   24.5
   24.0
   23.3
   22.3
   20.5
   23.5
   Plt
   144
   163
   196
   186
   173
   190
   Cr
   0.8
   0.9
   1.0
   1.8
   1.4
   2.0
   1.1
   1.4
   Glucose
   198
   147
   115
   [**Telephone/Fax (3) 8051**]
   102
   78
   137
   148
   Other labs: PT / PTT / INR:16.9/32.4/1.5, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:79.0 %, Band:0.0 %, Lymph:12.0 %,
   Mono:7.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.5 mg/dL, Mg++:1.5 mg/dL, PO4:1.8 mg/dL
   Microbiology: [**1-26**]
   RESPIRATORY CULTURE (Preliminary):
         Due to mixed bacterial types ( >= 3 colony types) an abbreviated
         workup will be performed appropriate to the isolates recovered
   from
         this site.
         MODERATE GROWTH OROPHARYNGEAL FLORA.
         PROVIDENCIA STUARTII.    MODERATE GROWTH.
         PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH.
         GRAM NEGATIVE ROD #3.    MODERATE GROWTH.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                              PROVIDENCIA STUARTII
                                              |               PSEUDOMONAS
   AERUGINOSA
                                              |                |
   AMIKACIN--------------    <=2 S
   CEFEPIME--------------   <=1 S          16 I
   CEFTAZIDIME----------- <=1 S            4 S
   CEFTRIAXONE--------- <=1 S
   CIPROFLOXACIN------ =>4 R        =>4 R
   GENTAMICIN-----------=>16 R            4 S
   MEROPENEM--------<=0.25 S      =>16 R
   PIPERACILLIN-------   <=4 S            16 S
   PIPERACILLIN/TAZO-<=4 S             8 S
   TOBRAMYCIN----------     4 I          <=1 S
   TMP/SULFA------------=>16 R
   Assessment and Plan
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
   # Hypercarbic Respiratory Failure:  Exact etiology of respiratory
   failure unclear- may include some muscular weakness, PNA and difficulty
   [**1-18**] body habitus .  Suspect some tracheomalacia or tracheal stenosis
   that doesn
t allow air flow when PM valve is in place and make the
   patient unable to tolerate the valve.  O/n [**1-17**] trach positional for
   ventilation but  IP here [**1-19**] could not find prob with trach in multiple
   positions so will leave as is for now. Sputum from [**1-18**] now grew
   pseudomonas and serratia. Currently stable on [**4-20**]. Sputum from [**1-26**]
   growing 3 types GNRs one of which is pseudomonas
   -f/u speciation from [**1-26**] sputum cx
   - Continue ventilator
   - Cipro for 14D course for serratia in sputum. Day 1- [**1-22**].
   - Atrovent nebs and prn albuterol nebs
    # ESRD: On CVVH [**1-22**]- [**1-27**] in order to remove fluid.   HD reinitiated
   [**1-28**] but without fluid removal [**1-18**] persistently low BP.
   - Continue boluses prn for hypotension.  If SBP <70 and not responsive
   to fluids, would choose Levo as pressor of choice.
   - per renal recs, nutrition changed TF [**1-28**] so now getting 50cc/hr not
   70cc/hr
   -HD today
   # Hypotension:  Currently weaned off Levo since [**1-18**]. TSH elevated and
   free T4 low [**1-18**] but likely sick thyroid. Should recheck as outpt.
   Cortisol [**1-18**] nl at 19.
   -continue midodrine, flourinef
   -monitor BPs, mentation
   -consider gentle boluses for hypotension prn
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Surgery has signed off. No TTP at site, brown stool and gas in bag.
   Bridge removed by surgery last week and stated no evidence of
   surrounding necrosis or cellulitis. Pt at high risk of ostomy pulling
   back into abd.  On [**1-26**],  surgery stated very poor wound healing with
   some skin loss and would rechk nutrition labs. [**Month (only) 60**] need debridement at
   some point but as there is currently no infection and this would leave
   him with a floating ostomy over fascia, will wait for now. Family has
   been told there are no further surgical options. Ostomy may very well
   retract at some point which would be catastrophic likely spilling feces
   into abd.
   -continue ostomy care
   -f/u surgery [**Month (only) 8080**]
   # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Seems to be
   improving. Plastics debrided extensively [**1-20**] and placed wound vac.
   Debrided again and wound vac replaced [**1-29**].
   - Cont current wound care
   - Pain controlled reasonably well with 100 mcg fentanyl patch ,
   lidocaine patches and morphine PRN
   # Anemia: Hct slightly down at 20  today. Pt has ESRD and is currently
   on Epo treatment, will keep transfusion goal Hct >21%
   - transfuse 1u PRBCs today
   # Hypoglycemia: Since OR procedure pt
s CBGs were noted to be lower.
   Pt
s insulin doses have not changed. TF changed [**1-28**].  This issue seems
   to have resolved at this time.
   # Depression: The patient has been showing decreased interest and signs
   of depression give his current medical situation
   - Cont citalopram 30 mg daily
   - Social work following
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
   # Atrial Fibrillation: No active issues. INR today 3.9. While pt
   critically ill and undergoing procedures,  coumadin will be deferred as
   risk of anticoagulation greater than benefits.
   - Off nodal agents until BPs can better tolerate.
     # Osteomyelitis:  No active issues
   -          finished meropenem ([**1-11**] was the completion of 6 week
   course).
     # R BKA/PVD
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   #Prophylaxis: PPI
   #Code: Full
   #Disposition: ICU, case mgmt on board re ultimate placement.
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-1-31**] 04:22 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2151-01-31 11:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2151-1-30**] 10:05 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-1-31**] 08:04 AM
   Heparin Sodium (Prophylaxis) - [**2151-1-31**] 08:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-31**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.1
   HR: 98 (93 - 108) bpm
   BP: 94/42(53) {92/20(41) - 121/48(59)} mmHg
   RR: 31 (21 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  2,054 mL
                                                                  1,093 mL
   PO:
             TF:
                                                                  1,204 mL
                                                                    583 mL
   IVF:
   50 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -146 mL
                                                                  1,093 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 387 (310 - 417) mL
   PS : 5 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 69
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 10.2 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.0 g/dL
   190 K/uL
   148 mg/dL
   1.4 mg/dL
   31 mEq/L
   3.4 mEq/L
   27 mg/dL
   104 mEq/L
   144 mEq/L
   23.5 %
   15.2 K/uL
        [image002.jpg]
                             [**2151-1-26**]  04:51 AM
                             [**2151-1-26**]  10:17 AM
                             [**2151-1-26**]  04:38 PM
                             [**2151-1-26**]  10:00 PM
                             [**2151-1-27**]  04:50 AM
                             [**2151-1-28**]  04:02 AM
                             [**2151-1-29**]  05:44 AM
                             [**2151-1-30**]  05:03 AM
                             [**2151-1-30**]  06:13 PM
                             [**2151-1-31**]  02:24 AM
   WBC
   15.3
   15.8
   18.4
   14.6
   15.2
   Hct
   24.5
   24.0
   23.3
   22.3
   20.5
   23.5
   Plt
   144
   163
   196
   186
   173
   190
   Cr
   0.8
   0.9
   1.0
   1.8
   1.4
   2.0
   1.1
   1.4
   Glucose
   198
   147
   115
   [**Telephone/Fax (3) 8051**]
   102
   78
   137
   148
   Other labs: PT / PTT / INR:16.9/32.4/1.5, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:79.0 %, Band:0.0 %, Lymph:12.0 %,
   Mono:7.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.5 mg/dL, Mg++:1.5 mg/dL, PO4:1.8 mg/dL
   Imaging: No new imaging
   Microbiology: Sputum with pseudomonas x 2 and providencia stuartii
   Assessment and Plan
   76 M with COPD and chr resp failure s/p trach, Afib, ESRD on HD,
   infected stage IV coccygeal ulcer s/p diverting colostomy [**1-6**] to aid
   in coccygeal wound healing, and multiple prior VAPs/HAPs with
   complicated hospital course transferred [**12-24**] for hypercarbic respiratory
   failure, likely related to oversedation/obesity hypoventilation.
   # Hypercarbic Respiratory Failure: Likely [**1-18**] OSA/body
   habitus/weakness.  Currently being treated for serratia PNA.
   - Sputum culture likely colonizer
 will follow respiratory status and
   treat if decompensates.
   - Finish Cipro course
   - PS/TC as tolerated
    # ESRD: On HD.
   # Hypotension:  Multifactorial
 stable now.  Follow.
   All other issues per resident note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-1-31**] 04:22 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 20 minutes
   Patient is critically ill

2151-02-01 07:52:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
   -Started on lactulose as stools getting harder and not passing through
   ostomy well
   -sputum cx grew back Providencia as well as known Pseudomonas but
   elected not to treat as BP's better and no other signs of toxicity
   -PICC was not drawing in the AM so given order for TPA
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2151-1-30**] 10:05 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-1-31**] 08:04 AM
   Heparin Sodium (Prophylaxis) - [**2151-1-31**] 08:00 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: limited [**1-18**] trach. C/o pain
   Flowsheet Data as of  [**2151-2-1**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.9
C (98.4
   HR: 90 (90 - 103) bpm
   BP: 104/36(47) {85/28(44) - 105/58(65)} mmHg
   RR: 32 (23 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  2,196 mL
                                                                    688 mL
   PO:
                  TF:
                                                                  1,206 mL
                                                                    388 mL
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,196 mL
                                                                    688 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 218 (218 - 218) mL
   Vt (Spontaneous): 232 (232 - 387) mL
   PS : 5 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 92
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 9.1 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : at bases bilat)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Trace, Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   259 K/uL
   6.6 g/dL
   148 mg/dL
   1.4 mg/dL
   31 mEq/L
   3.4 mEq/L
   27 mg/dL
   104 mEq/L
   144 mEq/L
   23.0 %
   16.4 K/uL
        [image002.jpg]
                             [**2151-1-26**]  10:17 AM
                             [**2151-1-26**]  04:38 PM
                             [**2151-1-26**]  10:00 PM
                             [**2151-1-27**]  04:50 AM
                             [**2151-1-28**]  04:02 AM
                             [**2151-1-29**]  05:44 AM
                             [**2151-1-30**]  05:03 AM
                             [**2151-1-30**]  06:13 PM
                             [**2151-1-31**]  02:24 AM
                             [**2151-2-1**]  05:00 AM
   WBC
   15.8
   18.4
   14.6
   15.2
   14.2
   16.4
   Hct
   24.0
   23.3
   22.3
   20.5
   23.5
   23.0
   Plt
   163
   196
   186
   173
   190
   259
   Cr
   0.9
   1.0
   1.8
   1.4
   2.0
   1.1
   1.4
   Glucose
   147
   115
   234
   127
   151
   102
   78
   137
   148
   Other labs: PT / PTT / INR:16.9/32.4/1.5, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:79.0 %, Band:0.0 %, Lymph:12.0 %,
   Mono:7.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.5 mg/dL, Mg++:1.5 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
   # Hypercarbic Respiratory Failure:  Probable multifactorial respiratory
   failure secondary to muscular weakness, PNA and difficulty due to body
   habitus.   O/n [**1-17**] trach positional for ventilation but IP here [**1-19**]
   could not find problem with trach in multiple positions so will leave
   as is for now. Sputum from [**1-18**] now grew pseudomonas and serratia and on
   [**9-25**] no longer serratia but with providencia and pseudomonas.
   Thought to be colonized and not active infection although sputum is
   green with low- grade fever. WBC flat.
   - Continue [**4-20**]
   - Cipro for 14D course started [**1-22**].
   - Atrovent nebs and prn albuterol nebs
     # ESRD: Tolerating HD currently and got Sat [**1-30**].  BP
s stable.
   -HD planned today
   - Continue boluses prn for hypotension.  If SBP <70 and not responsive
   to fluids, would choose Levo as pressor of choice.
   - per renal recs, nutrition changed TF [**1-28**] so now getting 50cc/hr not
   70cc/hr
   # Hypotension:  Most likely multifactorial with chronic wound
   infection, retracting ostomy and other issues.  Weaned off Levo since
   [**1-18**]. TSH elevated and free T4 low [**1-18**] but likely sick thyroid.
   Cortisol checked and normal.
   -continue midodrine, flourinef
   -monitor BPs, mentation
   -consider gentle boluses for hypotension prn
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Bridge removed during 1^st week of [**Month (only) 1088**] and some necrosis around
   site.  Surgery aware and think appearance is not encouraging but few
   options for management.  Family aware there are no further surgical
   options and ostomy may retract into abdomen leading to catastrophic
   stool contamination.
   -continue ostomy care
   -f/u surgery reccs
   # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Seems to be
   improving. Plastics debrided extensively [**1-20**] and placed wound vac.
   Debrided again and wound vac replaced [**1-29**].
   - Cont current wound care
   - Pain controlled reasonably well with 100 mcg fentanyl patch ,
   lidocaine patches and morphine PRN
   -Change wound vac again today
   # Anemia: Hct back to 23 today.  Will keep transfusion goal Hct >21%
   # Hypoglycemia: Since OR procedure pt
s CBGs were noted to be lower.
   Pt
s insulin doses have not changed. TF changed [**1-28**].  This issue seems
   to have resolved at this time.
   # Depression: The patient has been showing decreased interest and signs
   of depression given his current medical situation
   - Cont citalopram 30 mg daily
   - Social work following
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
   # Atrial Fibrillation: No active issues.  INR subtherapeutic but
   holding coumadin  for the moment given multiple other medications,
   potential for more procedures, and generally poor prognosis.
     # Osteomyelitis:  No active issues
   -          finished meropenem ([**1-11**] was the completion of 6 week
   course).
     # R BKA/PVD
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   #Prophylaxis: PPI, heparin SC
   #Code: Full
   #Disposition: ICU, case mgmt on board re ultimate placement.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-1-31**] 11:32 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   After discussion with team, Ceftazidime was started today for
   pseudomonas in sputum.
   ------ Protected Section Addendum Entered By:[**Name (NI) 6210**] [**Last Name (NamePattern1) 1112**], MD
   on:[**2151-2-1**] 11:31 ------

2151-02-01 10:48:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Sepsis from sacral and foot ulcers ( non healing), S?P diverting
   colostomy
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2151-2-1**] 08:10 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-2-1**] 08:10 AM
   Lansoprazole (Prevacid) - [**2151-2-1**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-1**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.4
C (97.5
   HR: 90 (90 - 100) bpm
   BP: 85/38(48) {85/28(44) - 105/58(65)} mmHg
   RR: 27 (23 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  2,197 mL
                                                                    843 mL
   PO:
                  TF:
                                                                  1,207 mL
                                                                    543 mL
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,197 mL
                                                                    843 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 218 (218 - 218) mL
   Vt (Spontaneous): 293 (232 - 378) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 92
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 7.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.6 g/dL
   259 K/uL
   176 mg/dL
   2.2 mg/dL
   32 mEq/L
   5.1 mEq/L
   49 mg/dL
   102 mEq/L
   140 mEq/L
   23.0 %
   16.4 K/uL
        [image002.jpg]
                             [**2151-1-26**]  10:17 AM
                             [**2151-1-26**]  04:38 PM
                             [**2151-1-26**]  10:00 PM
                             [**2151-1-27**]  04:50 AM
                             [**2151-1-28**]  04:02 AM
                             [**2151-1-29**]  05:44 AM
                             [**2151-1-30**]  05:03 AM
                             [**2151-1-30**]  06:13 PM
                             [**2151-1-31**]  02:24 AM
                             [**2151-2-1**]  05:00 AM
   WBC
   15.8
   18.4
   14.6
   15.2
   14.2
   16.4
   Hct
   24.0
   23.3
   22.3
   20.5
   23.5
   23.0
   Plt
   163
   196
   186
   173
   190
   259
   Cr
   0.9
   1.0
   1.8
   1.4
   2.0
   1.1
   1.4
   2.2
   Glucose
   147
   115
   234
   127
   151
   102
   78
   137
   148
   176
   Other labs: PT / PTT / INR:16.9/32.4/1.5, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:79.0 %, Band:0.0 %, Lymph:12.0 %,
   Mono:7.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.5 mg/dL, Mg++:1.5 mg/dL, PO4:1.8 mg/dL
   Imaging: No new imaging.
   Microbiology: No new micro data.
   Assessment and Plan
   76 M with COPD and chr resp failure s/p trach, Afib, ESRD on HD,
   infected stage IV coccygeal ulcer s/p diverting colostomy [**1-6**] to aid
   in coccygeal wound healing, and multiple prior VAPs/HAPs with
   complicated hospital course transferred [**12-24**] for hypercarbic respiratory
   failure, likely related to oversedation/obesity hypoventilation.
    # Hypercarbic Respiratory Failure: Likely [**1-18**] OSA/body
   habitus/weakness.  Currently being treated for serratia PNA.
   - Sputum culture with Psuedomonas with increased sputum
   production/change in color to green.
   - Ceftaz x 10 days
   - Finish Cipro course
   - PS/TC as tolerated
    # ESRD: On HD.
   # Hypotension:  Multifactorial
 stable now.  Follow.
   All other issues per resident note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-2-1**] 09:25 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2151-02-02 07:52:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
   -Had HD- took off 1.5L
   - plan for QOD labs- will draw again Mon
   - wound vac changed but ICU nurses.
   -started ceftaz for pseudomonas in sputum.
   Patient unable to provide history: trach
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2151-2-1**] 08:10 AM
   Ceftazidime - [**2151-2-1**] 04:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-2-1**] 08:10 AM
   Heparin Sodium (Prophylaxis) - [**2151-2-1**] 07:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: [**4-21**] ModeratePain location: sacrum
   Flowsheet Data as of  [**2151-2-2**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.2
   HR: 91 (88 - 100) bpm
   BP: 77/21(33) {68/21(33) - 114/48(58)} mmHg
   RR: 21 (20 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  2,086 mL
                                                                  1,185 mL
   PO:
             TF:
                                                                  1,206 mL
                                                                    385 mL
   IVF:
                                                                     50 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                    150 mL
   Urine:
   NG:
   Stool:
   150 mL
   Drains:
                                                                    300 mL
   Balance:
                                                                  1,586 mL
                                                                  1,035 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 361 (271 - 382) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 75
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 7.3 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds:
   Diminished: )
   Extremities: Cyanosis, right BKA
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   279 K/uL
   6.7 g/dL
   222 mg/dL
   2.3 mg/dL
   31 mEq/L
   5.1 mEq/L
   51 mg/dL
   101 mEq/L
   140 mEq/L
   23.2 %
   16.7 K/uL
        [image002.jpg]
                             [**2151-1-26**]  04:38 PM
                             [**2151-1-26**]  10:00 PM
                             [**2151-1-27**]  04:50 AM
                             [**2151-1-28**]  04:02 AM
                             [**2151-1-29**]  05:44 AM
                             [**2151-1-30**]  05:03 AM
                             [**2151-1-30**]  06:13 PM
                             [**2151-1-31**]  02:24 AM
                             [**2151-2-1**]  05:00 AM
                             [**2151-2-1**]  12:47 PM
   WBC
   15.8
   18.4
   14.6
   15.2
   14.2
   16.4
   16.7
   Hct
   24.0
   23.3
   22.3
   20.5
   23.5
   23.0
   23.2
   Plt
   163
   196
   186
   173
   190
   259
   279
   Cr
   0.9
   1.0
   1.8
   1.4
   2.0
   1.1
   1.4
   2.2
   2.3
   Glucose
   115
   234
   127
   151
   102
   78
   137
   148
   176
   222
   Other labs: PT / PTT / INR:16.9/32.4/1.5, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:79.0 %, Band:0.0 %, Lymph:12.0 %,
   Mono:7.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Microbiology: PROVIDENCIA STUARTII.    MODERATE GROWTH.
         PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH.
         PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH.  2ND [**Last Name (un) 8105**].
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                PROVIDENCIA STUARTII
                                |                              PSEUDOMONAS
   AERUGINOSA
                                |                                |
              PSEUDOMONAS AERUGINOSA
                                |                                |
                   |
   AMIKACIN--------------     <=2 S
   CEFEPIME--------------    <=1 S             16 I                  16 I
   CEFTAZIDIME-----------  <=1 S            4 S                    4 S
   CEFTRIAXONE----------- <=1 S
   CIPROFLOXACIN------   =>4 R       =>4 R                =>4 R
   GENTAMICIN-----------  =>16 R           4 S                     4 S
   MEROPENEM----------<=0.25 S     =>16 R              =>16 R
   PIPERACILLIN-----------   <=4 S         16 S                  16 S
   PIPERACILLIN/TAZO---  <=4 S           8 S                    8 S
   TOBRAMYCIN------------      4 I         <=1 S                <=1 S
   TMP SULFA---------------   >16 R
   Assessment and Plan
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
   # Hypercarbic Respiratory Failure:  Probable multifactorial respiratory
   failure secondary to muscular weakness, PNA and difficulty due to body
   habitus.   O/n [**1-17**] trach positional for ventilation but IP here [**1-19**]
   could not find problem with trach in multiple positions so will leave
   as is for now. Sputum from [**1-18**] now grew pseudomonas and serratia and on
   [**9-25**] no longer serratia but with providencia and pseudomonas.   We are
   currently treating this as the patient has low grade fever and
   leukocytosis.  WBC flat.
   - Continue [**4-20**]
   - Ceftazidime for 10D course started [**2-2**].
   - Atrovent nebs and prn albuterol nebs
   # ESRD: More hypotensive and seems slightly less responsive this
   morning than previously.  Will discuss with nephrology re: plausible or
   indicated to continue HD when consistently required to give back
   volume.  Possible this is no longer indicated.
   -d/w feasibility of continued dialysis with nephrology
   -no emergent HD needs
   -no indication for CVVH as not a transitional theory to anything
   # Hypotension:  Most likely multifactorial with chronic wound
   infection, retracting ostomy and other issues.  Weaned off Levo since
   [**1-18**]. TSH elevated and free T4 low [**1-18**] but likely sick thyroid.
   Cortisol checked and normal.
   -continue midodrine, fludracortisone stopped after nephrology indicated
   cannot work w/ no renal function
   -monitor BPs, mentation
   -consider gentle boluses for hypotension prn
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Bridge removed during 1st week of [**Month (only) 1088**] and some necrosis around
   site.  Surgery aware and think appearance is not encouraging but few
   options for management.  Family aware there are no further surgical
   options and ostomy may retract into abdomen leading to catastrophic
   stool contamination.
   -continue ostomy care
   -f/u surgery reccs
   # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Seems to be
   improving. Plastics debrided extensively [**1-20**] and placed wound vac.
   Debrided again and wound vac replaced [**1-29**].
   - Cont current wound care
   - Pain not ideally controlled with 100 mcg fentanyl patch , lidocaine
   patches and morphine PRN
   # Anemia: Hct back to 23 today.  Will keep transfusion goal Hct >21%
   # Hyperglycemia: Patient persistently hyperglycemic with BG
s in
   200
s-300
s.  Will increase glargine from 10-15 units QAM.
   # Depression: The patient has been showing decreased interest and signs
   of depression given his current medical situation
   - Cont citalopram 30 mg daily
   - Social work following
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
   # Atrial Fibrillation: No active issues.  INR subtherapeutic but
   holding coumadin  for the moment given multiple other medications,
   potential for more procedures, and generally poor prognosis.
   # Osteomyelitis:  No active issues
          -finished meropenem ([**1-11**] was the completion of 6 week course).
   # R BKA/PVD
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   #Prophylaxis: PPI, heparin SC
   #Code: Full for moment
   #Ethics: Nursing and Housestaff with major concerns about futility and
   benefit of further procedures and intentions in this patient given poor
   functional status and fact that further pressors worsen wound
   dehiscence and breakdown, may consider pursuing hospital policy
   regarding futile care and CPR not indicated (will discuss w/ ethics and
   attending)
   #Disposition: ICU, case mgmt on board re ultimate placement.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-2-2**] 05:09 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2151-02-02 12:15:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2151-2-1**] 04:00 PM
   Ciprofloxacin - [**2151-2-2**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-2-2**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2151-2-2**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-2**] 12:11 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.7
C (98
   HR: 92 (87 - 100) bpm
   BP: 88/44(53) {68/21(33) - 114/48(58)} mmHg
   RR: 22 (18 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                  2,086 mL
                                                                  1,559 mL
   PO:
             TF:
                                                                  1,206 mL
                                                                    609 mL
   IVF:
                                                                     50 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                    350 mL
   Urine:
   NG:
   Stool:
   150 mL
   Drains:
                                                                    300 mL
   Balance:
                                                                  1,586 mL
                                                                  1,209 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 337 (271 - 382) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 75
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Ostomy necrotic
   Extremities: Right: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.7 g/dL
   279 K/uL
   222 mg/dL
   2.3 mg/dL
   31 mEq/L
   5.1 mEq/L
   51 mg/dL
   101 mEq/L
   140 mEq/L
   23.2 %
   16.7 K/uL
        [image002.jpg]
                             [**2151-1-26**]  04:38 PM
                             [**2151-1-26**]  10:00 PM
                             [**2151-1-27**]  04:50 AM
                             [**2151-1-28**]  04:02 AM
                             [**2151-1-29**]  05:44 AM
                             [**2151-1-30**]  05:03 AM
                             [**2151-1-30**]  06:13 PM
                             [**2151-1-31**]  02:24 AM
                             [**2151-2-1**]  05:00 AM
                             [**2151-2-1**]  12:47 PM
   WBC
   15.8
   18.4
   14.6
   15.2
   14.2
   16.4
   16.7
   Hct
   24.0
   23.3
   22.3
   20.5
   23.5
   23.0
   23.2
   Plt
   163
   196
   186
   173
   190
   259
   279
   Cr
   0.9
   1.0
   1.8
   1.4
   2.0
   1.1
   1.4
   2.2
   2.3
   Glucose
   115
   234
   127
   151
   102
   78
   137
   148
   176
   222
   Other labs: PT / PTT / INR:16.9/32.4/1.5, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:79.0 %, Band:0.0 %, Lymph:12.0 %,
   Mono:7.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   76 M with COPD and chr resp failure s/p trach, Afib, ESRD on HD,
   infected stage IV coccygeal ulcer s/p diverting colostomy [**1-6**] to aid
   in coccygeal wound healing, and multiple prior VAPs/HAPs with
   complicated hospital course transferred [**12-24**] for hypercarbic respiratory
   failure, likely related to oversedation/obesity hypoventilation.
    # Hypercarbic Respiratory Failure: Likely [**1-18**] OSA/body
   habitus/weakness.  Currently being treated for serratia PNA.
   - Sputum culture with Psuedomonas with increased sputum
   production/change in color to green.
   - Ceftaz x 10 days
   - Finish Cipro course
   - PS/TC as tolerated
   # ESRD: On HD.
   # Hypotension:  Multifactorial
 stable now.  Follow.
   All other issues per resident note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-2-2**] 05:09 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: We have had an extensive family meeting with housetaff, Dr
   [**Last Name (STitle) 6757**],  RN and social worker to apprise of current medical condition
   and therapies that are not only futile but harmful. These include the
   use of vasopressors which have only delayed/ worsened wound healing and
   CPR/shock. He is now CPR not indicated and we will not escalate therapy
   any more but target comfort as primary goal of care. If he is
   hemodynamically unstable, dialysis will not be offered either. No
   pressors or shock to be administered in the event of hemodynamic
   setbacks. Family understands the gravity of his situation and concur.
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2151-02-03 07:43:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
   -Family meetings between [**Last Name (LF) **], [**First Name3 (LF) **], [**Doctor Last Name 2123**], and family: discussion
   about inexorable clinical decline.  Conclusion->DNI/DNR, no pressors,
   no escalation of care, continue antibx, continue HD as tolerated, no
   CVVH, +pain medication as needed
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2151-2-1**] 04:00 PM
   Ciprofloxacin - [**2151-2-2**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-2-2**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2151-2-2**] 07:57 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt not communicating today
   Flowsheet Data as of  [**2151-2-3**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 96 (87 - 99) bpm
   BP: 72/33(40) {71/29(39) - 88/44(53)} mmHg
   RR: 23 (18 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  2,696 mL
                                                                    684 mL
   PO:
                  TF:
                                                                  1,206 mL
                                                                    384 mL
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                  2,246 mL
                                                                    684 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 244 (220 - 354) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 108
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///31/
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   291 K/uL
   6.3 g/dL
   166 mg/dL
   2.1 mg/dL
   31 mEq/L
   4.6 mEq/L
   44 mg/dL
   102 mEq/L
   140 mEq/L
   22.4 %
   16.2 K/uL
        [image002.jpg]
                             [**2151-1-26**]  10:00 PM
                             [**2151-1-27**]  04:50 AM
                             [**2151-1-28**]  04:02 AM
                             [**2151-1-29**]  05:44 AM
                             [**2151-1-30**]  05:03 AM
                             [**2151-1-30**]  06:13 PM
                             [**2151-1-31**]  02:24 AM
                             [**2151-2-1**]  05:00 AM
                             [**2151-2-1**]  12:47 PM
                             [**2151-2-3**]  04:24 AM
   WBC
   15.8
   18.4
   14.6
   15.2
   14.2
   16.4
   16.7
   16.2
   Hct
   24.0
   23.3
   22.3
   20.5
   23.5
   23.0
   23.2
   22.4
   Plt
   163
   196
   186
   173
   190
   259
   279
   291
   Cr
   1.0
   1.8
   1.4
   2.0
   1.1
   1.4
   2.2
   2.3
   2.1
   Glucose
   [**Telephone/Fax (3) 8116**]02
   78
   137
   148
   176
   222
   166
   Other labs: PT / PTT / INR:14.8/28.9/1.3, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:80.5 %, Band:0.0 %, Lymph:15.9 %,
   Mono:2.6 %, Eos:0.8 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
   # goals of care:  After family meeting with ICU team yesterday, family
   is aware that pt has exhausted medical and surgical treatment options.
   We will not be going any further surgery, CVVH, blood transfusions,
   pressors. We will be continuing current abx, HD and other tx.  Pt is
   DNR. We will be treating his pain regardless of hypotension.
   # Hypercarbic Respiratory Failure:  Probable multifactorial respiratory
   failure secondary to muscular weakness, PNA and difficulty due to body
   habitus.   O/n [**1-17**] trach positional for ventilation but IP here [**1-19**]
   could not find problem with trach in multiple positions so will leave
   as is for now. Sputum from [**1-18**] now grew pseudomonas and serratia and on
   [**9-25**] no longer serratia but with providencia and pseudomonas.   We are
   currently treating this as the patient has low grade fever and
   leukocytosis.  WBC flat.
   - Continue [**4-20**]
   - Ceftazidime for 10D course started [**2-2**].
   - Atrovent nebs and prn albuterol nebs
   # ESRD: More hypotensive and seems slightly less responsive over the
   last several days.
   -Continuing dialysis as long as tolerated.
   -HD today with no fluid being taken off.
   # Hypotension:  Most likely multifactorial with chronic wound
   infection, retracting ostomy and other issues.  Weaned off Levo since
   [**1-18**]. TSH elevated and free T4 low [**1-18**] but likely sick thyroid.
   Cortisol checked and normal.
   -continue midodrine
   -monitor BPs, mentation
   -pressors no longer indicated. Not bolusing with fluids
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Bridge removed during 1st week of [**Month (only) 1088**] and some necrosis around
   site.  Surgery aware and think appearance is not encouraging but few
   options for management.  Family aware there are no further surgical
   options and ostomy may retract into abdomen leading to catastrophic
   stool contamination.
   -continue ostomy care
   -f/u surgery reccs
   # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Plastics
   debrided extensively [**1-20**] and placed wound vac.  Debrided again and
   wound vac replaced [**1-29**].
   - Cont current wound care
   - Pain control with 100 mcg fentanyl patch , lidocaine patches and
   morphine PRN. Nursing aware that we are now treating all pain with
   morphine PRN and not holding off on treating pain for low BP.
   # Anemia: Hct back to 23 today.  Will keep transfusion goal Hct >21%
   # Hyperglycemia: Patient persistently hyperglycemic with BG
s in
   200
s-300
s.  Will increase glargine from 10-15 units QAM.
   # Depression: The patient has been showing decreased interest and signs
   of depression given his current medical situation
   - Cont citalopram 30 mg daily
   - Social work following
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until BPs tolerate.
   # Atrial Fibrillation: No active issues.  INR subtherapeutic but
   holding coumadin  for the moment given multiple other medications,
   potential for more procedures, and generally poor prognosis.
   # Osteomyelitis:  No active issues
          -finished meropenem ([**1-11**] was the completion of 6 week course).
   # R BKA/PVD
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   #Prophylaxis: PPI, heparin SC
   #Code: Full for moment
   #Ethics: Nursing and Housestaff with major concerns about futility and
   benefit of further procedures and intentions in this patient given poor
   functional status and fact that further pressors worsen wound
   dehiscence and breakdown, may consider pursuing hospital policy
   regarding futile care and CPR not indicated (will discuss w/ ethics and
   attending)
   #Disposition: ICU, case mgmt on board re ultimate placement.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-2-3**] 12:56 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2151-02-03 10:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   s/p Ethics discussion
   s/p Family meeting as below
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2151-2-1**] 04:00 PM
   Ciprofloxacin - [**2151-2-2**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-2-2**] 07:57 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-3**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 97 (90 - 99) bpm
   BP: 78/35(44) {72/29(39) - 88/44(53)} mmHg
   RR: 22 (18 - 29) insp/min
   SpO2: 99%
   Heart rhythm: VF (Ventricular Fibrillation)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  2,696 mL
                                                                    884 mL
   PO:
                  TF:
                                                                  1,206 mL
                                                                    524 mL
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                  2,246 mL
                                                                    884 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 267 (220 - 354) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 108
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: ///31/
   Ve: 3.7 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.3 g/dL
   291 K/uL
   166 mg/dL
   2.1 mg/dL
   31 mEq/L
   4.6 mEq/L
   44 mg/dL
   102 mEq/L
   140 mEq/L
   22.4 %
   16.2 K/uL
        [image002.gif]
                             [**2151-1-26**]  10:00 PM
                             [**2151-1-27**]  04:50 AM
                             [**2151-1-28**]  04:02 AM
                             [**2151-1-29**]  05:44 AM
                             [**2151-1-30**]  05:03 AM
                             [**2151-1-30**]  06:13 PM
                             [**2151-1-31**]  02:24 AM
                             [**2151-2-1**]  05:00 AM
                             [**2151-2-1**]  12:47 PM
                             [**2151-2-3**]  04:24 AM
   WBC
   15.8
   18.4
   14.6
   15.2
   14.2
   16.4
   16.7
   16.2
   Hct
   24.0
   23.3
   22.3
   20.5
   23.5
   23.0
   23.2
   22.4
   Plt
   163
   196
   186
   173
   190
   259
   279
   291
   Cr
   1.0
   1.8
   1.4
   2.0
   1.1
   1.4
   2.2
   2.3
   2.1
   Glucose
   [**Telephone/Fax (3) 8116**]02
   78
   137
   148
   176
   222
   166
   Other labs: PT / PTT / INR:14.8/28.9/1.3, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:80.5 %, Band:0.0 %, Lymph:15.9 %,
   Mono:2.6 %, Eos:0.8 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:1.6 mg/dL
   Imaging: No new imaging.
   Microbiology: No new micro data.
   Assessment and Plan
   76 M with COPD and chr resp failure s/p trach, Afib, ESRD on HD,
   infected stage IV coccygeal ulcer s/p diverting colostomy [**1-6**] to aid
   in coccygeal wound healing, and multiple prior VAPs/HAPs with
   complicated hospital course transferred [**12-24**] for hypercarbic respiratory
   failure, likely related to oversedation/obesity hypoventilation.
    # Hypercarbic Respiratory Failure: Likely [**1-18**] OSA/body
   habitus/weakness.  Currently being treated for serratia and pseudomonal
   PNAs.
   - Sputum culture with Psuedomonas with increased sputum
   production/change in color to green.
   - Ceftaz x 10 days
   - Finish Cipro course
   - PS/TC as tolerated
   # ESRD: On HD if tolerated.  No plans for CVVHD per no escalation of
   care discussion with family.
   # Hypotension:  Multifactorial
 stable now.  Follow.  No pressors.
   #Decubitus ulcers: Pain meds as needed for comfort given painful
   dressing changes.
   #Ostomy: Necrotic ostomy site with spillage of bowel contents into
   subcutaneous space tracking to peritoneum.
   All other issues per resident note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-2-3**] 10:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments: S/p ethics consult with family meeting to say
   there's nothing more we can do.  We agreed to continuing abx and vent
   support, but DNR, no pressors, and will only do HD if hemodynamically
   able - No CVVHD. Gave nurses permission to make him comfortable during
   wound dressing changes even if affects BP.  No blood transfusions.
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 20 minutes
   Patient is critically ill

2151-02-04 07:55:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
   -Persistently hypotensive- got HD but no fluid taken off on Wed.
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2151-2-1**] 04:00 PM
   Ciprofloxacin - [**2151-2-2**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: limited [**1-18**] pt somnolence but denies pain
   Flowsheet Data as of  [**2151-2-4**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.9
C (100.2
   HR: 99 (90 - 100) bpm
   BP: 85/34(47) {66/29(39) - 86/47(51)} mmHg
   RR: 30 (21 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  2,210 mL
                                                                    692 mL
   PO:
                  TF:
                                                                  1,200 mL
                                                                    392 mL
   IVF:
   Blood products:
   Total out:
                                                                    350 mL
                                                                    400 mL
   Urine:
   NG:
   Stool:
                                                                    350 mL
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,860 mL
                                                                    293 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 260 (226 - 476) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 7.4 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Trace, Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   291 K/uL
   6.3 g/dL
   166 mg/dL
   2.1 mg/dL
   31 mEq/L
   4.6 mEq/L
   44 mg/dL
   102 mEq/L
   140 mEq/L
   22.4 %
   16.2 K/uL
        [image002.jpg]
                             [**2151-1-26**]  10:00 PM
                             [**2151-1-27**]  04:50 AM
                             [**2151-1-28**]  04:02 AM
                             [**2151-1-29**]  05:44 AM
                             [**2151-1-30**]  05:03 AM
                             [**2151-1-30**]  06:13 PM
                             [**2151-1-31**]  02:24 AM
                             [**2151-2-1**]  05:00 AM
                             [**2151-2-1**]  12:47 PM
                             [**2151-2-3**]  04:24 AM
   WBC
   15.8
   18.4
   14.6
   15.2
   14.2
   16.4
   16.7
   16.2
   Hct
   24.0
   23.3
   22.3
   20.5
   23.5
   23.0
   23.2
   22.4
   Plt
   163
   196
   186
   173
   190
   259
   279
   291
   Cr
   1.0
   1.8
   1.4
   2.0
   1.1
   1.4
   2.2
   2.3
   2.1
   Glucose
   [**Telephone/Fax (3) 8116**]02
   78
   137
   148
   176
   222
   166
   Other labs: PT / PTT / INR:14.8/28.9/1.3, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:80.5 %, Band:0.0 %, Lymph:15.9 %,
   Mono:2.6 %, Eos:0.8 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
   # goals of care:  After family meeting with ICU team [**2-2**], family is
   aware that pt has exhausted medical and surgical treatment options. We
   will not be doing any further surgery, CVVH, blood transfusions,
   pressors. We will be continuing current abx, HD and other tx.  Pt is
   DNR. We will be treating his pain regardless of hypotension.  Per
   nephrology on [**2-4**], will try dialysis on [**2-5**] but stop if SBP < 70. If
   this happens and pt is determined to no longer be able to tolerate HD,
   will need to have another family mtg re: goals of care.
   # Hypercarbic Respiratory Failure:  Probable multifactorial respiratory
   failure secondary to muscular weakness, PNA and difficulty due to body
   habitus.   O/n [**1-17**] trach positional for ventilation but IP here [**1-19**]
   could not find problem with trach in multiple positions so will leave
   as is for now. Sputum from [**1-18**] now grew pseudomonas and serratia and on
   [**9-25**] no longer serratia but with providencia and pseudomonas.   We are
   currently treating this as the patient has low grade fever and
   leukocytosis.  WBC flat.
   - Continue [**4-20**]
   - Ceftazidime for 10D course started [**2-2**].
   - Atrovent nebs and prn albuterol nebs
   # ESRD: More hypotensive and seems slightly less responsive over the
   last several days.
   -Continuing dialysis as long as tolerated.
   -HD planned tomorrow as long as SBP>70
   # Hypotension:  Most likely multifactorial with chronic wound
   infection, retracting ostomy and other issues.  Weaned off Levo since
   [**1-18**]. TSH elevated and free T4 low [**1-18**] but likely sick thyroid.
   Cortisol checked and normal.
   -continue midodrine
   -monitor BPs, mentation
   -pressors no longer indicated. Not bolusing with fluids
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Bridge removed during 1st week of [**Month (only) 1088**] and some necrosis around
   site.  Surgery aware and think appearance is not encouraging but few
   options for management.  Family aware there are no further surgical
   options and ostomy may retract into abdomen leading to catastrophic
   stool contamination.
   -continue ostomy care
   -f/u surgery reccs
   # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Plastics
   debrided extensively [**1-20**] and placed wound vac.  Debrided again and
   wound vac replaced [**1-29**].
   - Cont current wound care
   - Pain control with 100 mcg fentanyl patch , lidocaine patches and
   morphine PRN. Nursing aware that we are now treating all pain with
   morphine PRN and not holding off on treating pain for low BP.
   # Anemia: Hct back to 22 yesterdat.  Transfusion no longer indicated.
   # Hyperglycemia: Patient persistently hyperglycemic with BG
s in
   200
s-300
s.  On glargine plus ISS. .
   # Depression: The patient has been showing decreased interest and signs
   of depression given his current medical situation
   - Cont citalopram 30 mg daily
   - Social work following
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB [**1-18**] hypotension
   # Atrial Fibrillation: No active issues.  INR subtherapeutic but
   holding coumadin  for the moment given multiple other medications,
   potential for more procedures, and generally poor prognosis.
   # Osteomyelitis:  No active issues
          -finished meropenem ([**1-11**] was the completion of 6 week course).
   # R BKA/PVD
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   #Prophylaxis: PPI, heparin SC
   #Disposition: ICU, case mgmt on board re ultimate placement.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-2-4**] 05:44 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition:ICU

2151-02-04 11:16:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2151-2-1**] 04:00 PM
   Ciprofloxacin - [**2151-2-2**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-2-4**] 08:26 AM
   Lansoprazole (Prevacid) - [**2151-2-4**] 08:26 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-4**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 96 (90 - 104) bpm
   BP: 75/32(41) {70/29(39) - 89/47(51)} mmHg
   RR: 23 (21 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  2,210 mL
                                                                    971 mL
   PO:
                  TF:
                                                                  1,200 mL
                                                                    561 mL
   IVF:
   Blood products:
   Total out:
                                                                    350 mL
                                                                    400 mL
   Urine:
   NG:
   Stool:
                                                                    350 mL
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,860 mL
                                                                    571 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 212 (212 - 476) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Extremities: Right: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.3 g/dL
   291 K/uL
   166 mg/dL
   2.1 mg/dL
   31 mEq/L
   4.6 mEq/L
   44 mg/dL
   102 mEq/L
   140 mEq/L
   22.4 %
   16.2 K/uL
        [image002.jpg]
                             [**2151-1-26**]  10:00 PM
                             [**2151-1-27**]  04:50 AM
                             [**2151-1-28**]  04:02 AM
                             [**2151-1-29**]  05:44 AM
                             [**2151-1-30**]  05:03 AM
                             [**2151-1-30**]  06:13 PM
                             [**2151-1-31**]  02:24 AM
                             [**2151-2-1**]  05:00 AM
                             [**2151-2-1**]  12:47 PM
                             [**2151-2-3**]  04:24 AM
   WBC
   15.8
   18.4
   14.6
   15.2
   14.2
   16.4
   16.7
   16.2
   Hct
   24.0
   23.3
   22.3
   20.5
   23.5
   23.0
   23.2
   22.4
   Plt
   163
   196
   186
   173
   190
   259
   279
   291
   Cr
   1.0
   1.8
   1.4
   2.0
   1.1
   1.4
   2.2
   2.3
   2.1
   Glucose
   [**Telephone/Fax (3) 8116**]02
   78
   137
   148
   176
   222
   166
   Other labs: PT / PTT / INR:14.8/28.9/1.3, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:80.5 %, Band:0.0 %, Lymph:15.9 %,
   Mono:2.6 %, Eos:0.8 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:1.6 mg/dL
   Imaging: No new imaging.
   Microbiology: no new micro.
   Assessment and Plan
   76 M with COPD and chr resp failure s/p trach, Afib, ESRD on HD,
   infected stage IV coccygeal ulcer s/p diverting colostomy [**1-6**] to aid
   in coccygeal wound healing, and multiple prior VAPs/HAPs with
   complicated hospital course transferred [**12-24**] for hypercarbic respiratory
   failure, likely related to oversedation/obesity hypoventilation.  We
   have now reached the limits of our options.
    # Hypercarbic Respiratory Failure: Likely [**1-18**] OSA/body
   habitus/weakness.  Currently being treated for serratia and pseudomonal
   PNAs.
   - Sputum culture with Psuedomonas with increased sputum
   production/change in color to green.
   - Ceftaz x 10 days
   - Finish Cipro course
   - PS/TC as tolerated
   # ESRD: On HD if tolerated.  No plans for CVVHD per no escalation of
   care discussion with family.
   - HD today, and if SBP drops below 70, then renal with terminally stop
   HD and inform family
   # Hypotension:  Multifactorial
 stable now.  Follow.  No pressors.
   #Decubitus ulcers: Pain meds as needed for comfort given painful
   dressing changes.
   #Ostomy: Necrotic ostomy site with spillage of bowel contents into
   subcutaneous space tracking to peritoneum.
   All other issues per resident note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-2-4**] 05:44 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 20 minutes
   Patient is critically ill

2151-02-05 07:48:00 Physician Resident Progress Note
Chief Complaint:  Hypercarbic respiratory failure
   24 Hour Events:
   - increased fentanyl and morphine PRN for pain
   -plan is for HD to be attempted tomorrow but if SBP falls below 70
   during HD, will stop. Then, need to have further discussion with family
   re: intolerance of HD and goals of care
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2151-2-2**] 08:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2151-2-4**] 05:35 PM
   Lansoprazole (Prevacid) - [**2151-2-4**] 08:09 PM
   Heparin Sodium (Prophylaxis) - [**2151-2-4**] 10:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-5**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.9
C (98.4
   HR: 87 (78 - 100) bpm
   BP: 65/43(49) {65/32(41) - 91/43(62)} mmHg
   RR: 26 (15 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  2,157 mL
                                                                    387 mL
   PO:
                  TF:
                                                                  1,337 mL
                                                                    387 mL
   IVF:
   Blood products:
   Total out:
                                                                    600 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,557 mL
                                                                    387 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 345 (212 - 367) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 96
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///29/
   Ve: 5.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   324 K/uL
   6.5 g/dL
   149 mg/dL
   2.3 mg/dL
   29 mEq/L
   4.5 mEq/L
   43 mg/dL
   98 mEq/L
   139 mEq/L
   22.7 %
   17.2 K/uL
        [image002.jpg]
                             [**2151-1-27**]  04:50 AM
                             [**2151-1-28**]  04:02 AM
                             [**2151-1-29**]  05:44 AM
                             [**2151-1-30**]  05:03 AM
                             [**2151-1-30**]  06:13 PM
                             [**2151-1-31**]  02:24 AM
                             [**2151-2-1**]  05:00 AM
                             [**2151-2-1**]  12:47 PM
                             [**2151-2-3**]  04:24 AM
                             [**2151-2-5**]  04:21 AM
   WBC
   15.8
   18.4
   14.6
   15.2
   14.2
   16.4
   16.7
   16.2
   17.2
   Hct
   24.0
   23.3
   22.3
   20.5
   23.5
   23.0
   23.2
   22.4
   22.7
   Plt
   163
   196
   186
   173
   190
   259
   279
   291
   324
   Cr
   1.0
   1.8
   1.4
   2.0
   1.1
   1.4
   2.2
   2.3
   2.1
   2.3
   Glucose
   127
   151
   102
   78
   137
   148
   176
   222
   166
   149
   Other labs: PT / PTT / INR:15.1/31.0/1.3, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:80.0 %, Band:1.0 %, Lymph:14.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
    # goals of care:  After family meeting with ICU team [**2-2**], family is
   aware that pt has exhausted medical and surgical treatment options. We
   will not be doing any further surgery, CVVH, blood transfusions,
   pressors. We will be continuing current abx, HD and other tx.  Pt is
   DNR. We will be treating his pain regardless of hypotension.  Per
   nephrology on [**2-4**], will try dialysis on [**2-5**] but stop if SBP < 70. If
   this happens and pt is determined to no longer be able to tolerate HD,
   will need to have another family mtg re: goals of care.
   # Hypercarbic Respiratory Failure:  Probable multifactorial respiratory
   failure secondary to muscular weakness, PNA and difficulty due to body
   habitus.   O/n [**1-17**] trach positional for ventilation but IP here [**1-19**]
   could not find problem with trach in multiple positions so will leave
   as is for now. Sputum from [**1-18**] now grew pseudomonas and serratia and on
   [**9-25**] no longer serratia but with providencia and pseudomonas.   We are
   currently treating this as the patient has low grade fever and
   leukocytosis.  WBC flat.
   - Continue [**4-20**]
   - Ceftazidime for 10D course started [**2-2**].
   - Atrovent nebs and prn albuterol nebs
    # ESRD: More hypotensive and seems slightly less responsive over the
   last several days.
   -Continuing dialysis as long as tolerated.
   -HD planned tomorrow as long as SBP>70
    # Hypotension:  Most likely multifactorial with chronic wound
   infection, retracting ostomy and other issues.  Weaned off Levo since
   [**1-18**]. TSH elevated and free T4 low [**1-18**] but likely sick thyroid.
   Cortisol checked and normal.
   -continue midodrine
   -monitor BPs, mentation
   -pressors no longer indicated. Not bolusing with fluids
    # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Bridge removed during 1st week of [**Month (only) 1088**] and some necrosis around
   site.  Surgery aware and think appearance is not encouraging but few
   options for management.  Family aware there are no further surgical
   options and ostomy may retract into abdomen leading to catastrophic
   stool contamination.
   -continue ostomy care
   -f/u surgery reccs
    # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Plastics
   debrided extensively [**1-20**] and placed wound vac.  Debrided again and
   wound vac replaced [**1-29**].
   - Cont current wound care
   - Pain control with 100 mcg fentanyl patch , lidocaine patches and
   morphine PRN. Nursing aware that we are now treating all pain with
   morphine PRN and not holding off on treating pain for low BP.
    # Anemia: Hct back to 22 yesterdat.  Transfusion no longer indicated.
    # Hyperglycemia: Patient persistently hyperglycemic with BG
s in
   200
s-300
s.  On glargine plus ISS. .
    # Depression: The patient has been showing decreased interest and
   signs of depression given his current medical situation
   - Cont citalopram 30 mg daily
   - Social work following
    # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB [**1-18**] hypotension
   # Atrial Fibrillation: No active issues.  INR subtherapeutic but
   holding coumadin  for the moment given multiple other medications,
   potential for more procedures, and generally poor prognosis.
    # Osteomyelitis:  No active issues
          -finished meropenem ([**1-11**] was the completion of 6 week course).
   # R BKA/PVD
   - Continue current wound care
    # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
    #Prophylaxis: PPI, heparin SC
    #Disposition: ICU, case mgmt on board re ultimate placement.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-2-4**] 11:00 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2151-02-05 11:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   On HD
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2151-2-4**] 05:35 PM
   Heparin Sodium (Prophylaxis) - [**2151-2-5**] 08:07 AM
   Lansoprazole (Prevacid) - [**2151-2-5**] 08:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-5**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.8
C (98.2
   HR: 89 (78 - 99) bpm
   BP: 94/41(53) {65/34(43) - 95/55(62)} mmHg
   RR: 26 (15 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  2,178 mL
                                                                    835 mL
   PO:
                  TF:
                                                                  1,358 mL
                                                                    715 mL
   IVF:
   Blood products:
   Total out:
                                                                    600 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,578 mL
                                                                    835 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 328 (328 - 367) mL
   PS : 5 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 96
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ///29/
   Ve: 9.8 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: , Rhonchorous: right)
   Abdominal: Soft, Non-tender, Bowel sounds present, Leaking ostomy
   Extremities: Right: 1+
   Skin:  Not assessed, Sacral wounds as previously described
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   6.5 g/dL
   324 K/uL
   149 mg/dL
   2.3 mg/dL
   29 mEq/L
   4.5 mEq/L
   43 mg/dL
   98 mEq/L
   139 mEq/L
   22.7 %
   17.2 K/uL
        [image002.jpg]
                             [**2151-1-27**]  04:50 AM
                             [**2151-1-28**]  04:02 AM
                             [**2151-1-29**]  05:44 AM
                             [**2151-1-30**]  05:03 AM
                             [**2151-1-30**]  06:13 PM
                             [**2151-1-31**]  02:24 AM
                             [**2151-2-1**]  05:00 AM
                             [**2151-2-1**]  12:47 PM
                             [**2151-2-3**]  04:24 AM
                             [**2151-2-5**]  04:21 AM
   WBC
   15.8
   18.4
   14.6
   15.2
   14.2
   16.4
   16.7
   16.2
   17.2
   Hct
   24.0
   23.3
   22.3
   20.5
   23.5
   23.0
   23.2
   22.4
   22.7
   Plt
   163
   196
   186
   173
   190
   259
   279
   291
   324
   Cr
   1.0
   1.8
   1.4
   2.0
   1.1
   1.4
   2.2
   2.3
   2.1
   2.3
   Glucose
   127
   151
   102
   78
   137
   148
   176
   222
   166
   149
   Other labs: PT / PTT / INR:15.1/31.0/1.3, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:80.0 %, Band:1.0 %, Lymph:14.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:1.3 mg/dL
   Imaging: No new imaging.
   Microbiology: No new data.
   Assessment and Plan
   76 M with COPD and chr resp failure s/p trach, Afib, ESRD on HD,
   infected stage IV coccygeal ulcer s/p diverting colostomy [**1-6**] to aid
   in coccygeal wound healing, and multiple prior VAPs/HAPs with
   complicated hospital course transferred [**12-24**] for hypercarbic respiratory
   failure, likely related to oversedation/obesity hypoventilation.  We
   have now reached the limits of our options.
    # Hypercarbic Respiratory Failure: Likely [**1-18**] OSA/body
   habitus/weakness.  Currently being treated for serratia and pseudomonal
   PNAs.
   - Sputum culture with Psuedomonas with increased sputum
   production/change in color to green.
   - Ceftaz x 10 days
   - PS/TC as tolerated
   # ESRD: On HD if tolerated.  No plans for CVVHD per no escalation of
   care discussion with family.
   - HD today, and if SBP drops below 70, then renal with terminally stop
   HD and inform family
   # Hypotension:  Multifactorial
 stable now.  Follow.  No pressors.
   #Decubitus ulcers: Pain meds as needed for comfort given painful
   dressing changes.
   #Ostomy: Necrotic ostomy site with spillage of bowel contents into
   subcutaneous space tracking to peritoneum.
   All other issues per resident note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-2-5**] 06:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 20 minutes
   Patient is critically ill

2151-02-06 07:59:00 Physician Resident Progress Note
Chief Complaint: Hypercarbic respiratory failure (acute on chronic)
   24 Hour Events:
   - got a session of HD and BP tolerated it without hypotension
   Patient unable to give history due to to no speaking valve
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2151-2-5**] 02:23 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-2-5**] 08:08 AM
   Heparin Sodium (Prophylaxis) - [**2151-2-5**] 09:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-6**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.4
C (97.6
   HR: 89 (87 - 106) bpm
   BP: 88/35(46) {81/31(42) - 97/55(61)} mmHg
   RR: 22 (22 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  1,884 mL
                                                                     44 mL
   PO:
                  TF:
                                                                  1,384 mL
                                                                     44 mL
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,384 mL
                                                                     44 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 320 (320 - 369) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 69
   SpO2: 100%
   ABG: ////
   Ve: 6.7 L/min
   Physical Examination
   Gen: Chronically unwell appearing obese gentleman in NAD
   HEENT  NC/AT, Trached, MMM
   CV: Irregular rate, no M/R/G
   Pulm: Scattered Crackles bilaterally
   Abdom: Soft, ostomy in place, few BS
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   [**2151-1-27**]  04:50 AM
                             [**2151-1-28**]  04:02 AM
                             [**2151-1-29**]  05:44 AM
                             [**2151-1-30**]  05:03 AM
                             [**2151-1-30**]  06:13 PM
                             [**2151-1-31**]  02:24 AM
                             [**2151-2-1**]  05:00 AM
                             [**2151-2-1**]  12:47 PM
                             [**2151-2-3**]  04:24 AM
                             [**2151-2-5**]  04:21 AM
   WBC
   15.8
   18.4
   14.6
   15.2
   14.2
   16.4
   16.7
   16.2
   17.2
   Hct
   24.0
   23.3
   22.3
   20.5
   23.5
   23.0
   23.2
   22.4
   22.7
   Plt
   163
   196
   186
   173
   190
   259
   279
   291
   324
   Cr
   1.0
   1.8
   1.4
   2.0
   1.1
   1.4
   2.2
   2.3
   2.1
   2.3
   Glucose
   127
   151
   102
   78
   137
   148
   176
   222
   166
   149
   Other labs: PT / PTT / INR:15.1/31.0/1.3, Differential-Neuts:80.0 %,
   Band:1.0 %, Lymph:14.0 %, Mono:4.0 %, Eos:0.0 %, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
    # goals of care:  After family meeting with ICU team [**2-2**], family is
   aware that pt has exhausted medical and surgical treatment options. We
   will not be doing any further surgery, CVVH, blood transfusions,
   pressors.  No new antibiotics.  HD will continue as tolerated by BP
   and we will treat pain as needed.  These goals reassessed and
   reaffirmed on [**2151-2-4**] w/ ethics.
    # Hypercarbic Respiratory Failure:  Presumably multifactorial and
   related to weakenss, PNA, and obesity/hypoventilation.  There has been
   question about position nature to trach in the past but last
   evalutation suggested this is not the case.  Sputum from [**1-18**] now grew
   pseudomonas and serratia and on [**9-25**] no longer serratia but with
   providencia and pseudomonas.   We are currently treating this as the
   patient had low grade fever and persistent leukocytosis.
   - Continue [**4-20**]
   - Ceftazidime for 10D course started [**2-2**].
   - Atrovent nebs and prn albuterol nebs
    # ESRD: Patient had HD w/o fluid removal yesterday and his pressures
   managed to tolerated.  Schedule is HD on MWF until unable to tolerated
   due to SBPS in 70
   # Hypotension:  Most likely multifactorial with chronic wound
   infection, retracting ostomy and other issues.  Weaned off Levo since
   [**1-18**]. TSH elevated and free T4 low [**1-18**] but likely sick thyroid.
   Cortisol checked and normal.
   -continue midodrine
   -monitor BPs, mentation
   -pressors no longer indicated. Not bolusing with fluids
    # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Bridge removed during 1st week of [**Month (only) 1088**] and some necrosis around
   site.  Site is failing but no options for further surgery.  If
   collapses into abdomen will most likely lead to massive stool
   contamination and sepsis.
   -continue ostomy care
   -f/u surgery reccs
    # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Plastics
   debrided extensively [**1-20**] and placed wound vac.  Debrided again and
   wound vac replaced [**1-29**].
   - Cont current wound care
   - Pain control with 100 mcg fentanyl patch , lidocaine patches and
   morphine PRN. Nursing aware that we are now treating all pain with
   morphine PRN and not holding off on treating pain for low BP.
    # Anemia: Hct stable yesterday, not checked today.  Tx no longer
   indicated.
    # Hyperglycemia: Patient persistently hyperglycemic with BG
s in
   200
s-300
s.  On glargine plus ISS. .
    # Depression: The patient has been showing decreased interest and
   signs of depression given his current medical situation
   - Cont citalopram 30 mg daily
   - Social work following
    # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB [**1-18**] hypotension
    # Atrial Fibrillation: No active issues.  Not anticoagulated given
   generally morbid prognosis.
   # Osteomyelitis:  No active issues
          -finished meropenem ([**1-11**] was the completion of 6 week course).
    # R BKA/PVD
   - Continue current wound care
    # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
    #Prophylaxis: PPI, heparin SC
    #Disposition: ICU, case mgmt on board re ultimate placement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2151-02-06 12:31:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   - dialysis yesterday
 maintained adequate BP throughout session
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2151-2-5**] 02:23 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-2-6**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-6**] 12:29 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.3
C (97.4
   HR: 92 (84 - 106) bpm
   BP: 91/37(49) {81/31(42) - 97/47(55)} mmHg
   RR: 24 (18 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  1,888 mL
                                                                    705 mL
   PO:
                  TF:
                                                                  1,388 mL
                                                                    615 mL
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,388 mL
                                                                    705 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 320 (320 - 369) mL
   PS : 5 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 69
   SpO2: 98%
   ABG: ////
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Obese, colostomy
   Skin:  Cool
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   6.5 g/dL
   324 K/uL
   149 mg/dL
   2.3 mg/dL
   29 mEq/L
   4.5 mEq/L
   43 mg/dL
   98 mEq/L
   139 mEq/L
   22.7 %
   17.2 K/uL
        [image002.jpg]
                             [**2151-1-27**]  04:50 AM
                             [**2151-1-28**]  04:02 AM
                             [**2151-1-29**]  05:44 AM
                             [**2151-1-30**]  05:03 AM
                             [**2151-1-30**]  06:13 PM
                             [**2151-1-31**]  02:24 AM
                             [**2151-2-1**]  05:00 AM
                             [**2151-2-1**]  12:47 PM
                             [**2151-2-3**]  04:24 AM
                             [**2151-2-5**]  04:21 AM
   WBC
   15.8
   18.4
   14.6
   15.2
   14.2
   16.4
   16.7
   16.2
   17.2
   Hct
   24.0
   23.3
   22.3
   20.5
   23.5
   23.0
   23.2
   22.4
   22.7
   Plt
   163
   196
   186
   173
   190
   259
   279
   291
   324
   Cr
   1.0
   1.8
   1.4
   2.0
   1.1
   1.4
   2.2
   2.3
   2.1
   2.3
   Glucose
   127
   151
   102
   78
   137
   148
   176
   222
   166
   149
   Other labs: PT / PTT / INR:15.1/31.0/1.3, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:80.0 %, Band:1.0 %, Lymph:14.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
   76 M with COPD and chr resp failure s/p trach, Afib, ESRD on HD,
   infected stage IV coccygeal ulcer s/p diverting colostomy [**1-6**] to aid
   in coccygeal wound healing, and multiple prior VAPs/HAPs with
   complicated hospital course transferred [**12-24**] for hypercarbic respiratory
   failure, likely related to oversedation/obesity hypoventilation.
    # Hypercarbic Respiratory Failure
   - Likely [**1-18**] OSA/body habitus/weaknes
   - Currently being treated for serratia and pseudomonal PNAs.
   - Sputum culture with Psuedomonas with increased sputum
   production/change in color to green.
   - Ceftaz x 10 days
   - PS/TC as tolerated
   # ESRD:
   - Cont HD as tolerated (maint SBP >70)
   - No plans for CVVHD per no escalation of care discussion with family.
   # Hypotension:
   - Multifactorial
 stable currently.
   - No pressors if status worsens.
   # Afib
   - off anticoag sec risk/benefit analysis
    #Decubitus ulcers:
   - Pain meds as needed for comfort given painful dressing changes.
    #Ostomy:
   - Necrotic ostomy site with spillage of bowel contents into
   subcutaneous space tracking to peritoneum.
   - Based on poor underlying status, no real options to address
    All other issues per resident note.

2151-02-07 08:29:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
   - got a session of HD and BP tolerated it without hypotension
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2151-2-5**] 02:23 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-2-6**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2151-2-6**] 10:00 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt non verbal today
   Flowsheet Data as of  [**2151-2-7**] 08:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98.1
   HR: 93 (86 - 100) bpm
   BP: 98/46(57) {82/36(47) - 106/46(57)} mmHg
   RR: 29 (18 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  1,415 mL
                                                                    335 mL
   PO:
                  TF:
                                                                  1,205 mL
                                                                    335 mL
   IVF:
   Blood products:
   Total out:
                                                                    320 mL
                                                                    400 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,095 mL
                                                                    -65 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 330 (330 - 333) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 89
   SpO2: 98%
   ABG: ///32/
   Ve: 8.4 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Trace, Cyanosis
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, pt not responding today although attentive at times
   Labs / Radiology
   337 K/uL
   6.6 g/dL
   58 mg/dL
   2.0 mg/dL
   32 mEq/L
   4.2 mEq/L
   37 mg/dL
   102 mEq/L
   140 mEq/L
   23.3 %
   14.8 K/uL
        [image002.jpg]
                             [**2151-1-28**]  04:02 AM
                             [**2151-1-29**]  05:44 AM
                             [**2151-1-30**]  05:03 AM
                             [**2151-1-30**]  06:13 PM
                             [**2151-1-31**]  02:24 AM
                             [**2151-2-1**]  05:00 AM
                             [**2151-2-1**]  12:47 PM
                             [**2151-2-3**]  04:24 AM
                             [**2151-2-5**]  04:21 AM
                             [**2151-2-7**]  04:47 AM
   WBC
   18.4
   14.6
   15.2
   14.2
   16.4
   16.7
   16.2
   17.2
   14.8
   Hct
   23.3
   22.3
   20.5
   23.5
   23.0
   23.2
   22.4
   22.7
   23.3
   Plt
   196
   186
   173
   190
   259
   279
   291
   324
   337
   Cr
   1.8
   1.4
   2.0
   1.1
   1.4
   2.2
   2.3
   2.1
   2.3
   2.0
   Glucose
   151
   102
   78
   137
   148
   176
   222
   166
   149
   58
   Other labs: PT / PTT / INR:14.0/28.1/1.2, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:86.0 %, Band:2.0 %, Lymph:7.0 %,
   Mono:0.0 %, Eos:3.0 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
    # goals of care:  After family meeting with ICU team [**2-2**], family is
   aware that pt has exhausted medical and surgical treatment options. We
   will not be doing any further surgery, CVVH, blood transfusions,
   pressors.  No new antibiotics.  HD will continue as tolerated by BP
   and we will treat pain as needed.  These goals reassessed and
   reaffirmed on [**2151-2-4**] w/ ethics.
    # Hypercarbic Respiratory Failure:  Presumably multifactorial and
   related to weakenss, PNA, and obesity/hypoventilation.  There has been
   question about position nature to trach in the past but last
   evalutation suggested this is not the case.  Sputum from [**1-18**] now grew
   pseudomonas and serratia and on [**9-25**] no longer serratia but with
   providencia and pseudomonas.   We are currently treating this as the
   patient had low grade fever and persistent leukocytosis.
   - Continue [**4-20**]- today increased to [**9-20**] as pt was tachypneic
   - Ceftazidime for 10D course started [**2-2**].
   - Atrovent nebs and prn albuterol nebs
    # ESRD: Patient had HD w/o fluid removal [**2-5**] and his pressures
   managed to tolerated.  Schedule is HD on MWF until unable to tolerated
   due to SBPS in 70
   # Hypotension:  Most likely multifactorial with chronic wound
   infection, retracting ostomy and other issues.  Weaned off Levo since
   [**1-18**]. TSH elevated and free T4 low [**1-18**] but likely sick thyroid.
   Cortisol checked and normal.
   -continue midodrine
   -monitor BPs, mentation
   -pressors no longer indicated. Not bolusing with fluids
    # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Bridge removed during 1st week of [**Month (only) 1088**] and some necrosis around
   site.  Site is failing but no options for further surgery.  If
   collapses into abdomen will most likely lead to massive stool
   contamination and sepsis.
   -continue ostomy care
   -f/u surgery reccs
    # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Plastics
   debrided extensively [**1-20**] and placed wound vac.  Debrided again and
   wound vac replaced [**1-29**].
   - Cont current wound care
   - Pain control with 100 mcg fentanyl patch , lidocaine patches and
   morphine PRN. Nursing aware that we are now treating all pain with
   morphine PRN and not holding off on treating pain for low BP.
   -At nursing
s request, will d/w wound care schedule of wound vac
   dressing. See if this could be twice rather than thrice weekly and
   preferably on weekdays
    # Anemia: Hct stable yesterday, not checked today.  Tx no longer
   indicated.
    # Hyperglycemia: Patient persistently hyperglycemic with BG
s in
   200
s-300
s.  On glargine plus ISS. .
    # Depression: The patient has been showing decreased interest and
   signs of depression given his current medical situation
   - Cont citalopram 30 mg daily
   - Social work following
    # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin , off BB [**1-18**] hypotension
    # Atrial Fibrillation: No active issues.  Not anticoagulated given
   generally morbid prognosis.
   # Osteomyelitis:  No active issues
          -finished meropenem ([**1-11**] was the completion of 6 week course).
    # R BKA/PVD
   - Continue current wound care
    # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
    #Prophylaxis: PPI, heparin SC
    #Disposition: ICU, case mgmt on board re ultimate placement.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2151-02-07 13:06:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Resp failure, ESRD
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   No events
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2151-2-5**] 02:23 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-2-6**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2151-2-7**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-7**] 01:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 96 (86 - 100) bpm
   BP: 103/51(64) {85/36(47) - 106/51(64)} mmHg
   RR: 29 (18 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  1,417 mL
                                                                    635 mL
   PO:
                  TF:
                                                                  1,207 mL
                                                                    635 mL
   IVF:
   Blood products:
   Total out:
                                                                    320 mL
                                                                    750 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,097 mL
                                                                   -115 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 321 (321 - 330) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 89
   SpO2: 95%
   ABG: ///32/
   Ve: 8.9 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese, colostomy
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   6.6 g/dL
   337 K/uL
   58 mg/dL
   2.0 mg/dL
   32 mEq/L
   4.2 mEq/L
   37 mg/dL
   102 mEq/L
   140 mEq/L
   23.3 %
   14.8 K/uL
        [image002.jpg]
                             [**2151-1-28**]  04:02 AM
                             [**2151-1-29**]  05:44 AM
                             [**2151-1-30**]  05:03 AM
                             [**2151-1-30**]  06:13 PM
                             [**2151-1-31**]  02:24 AM
                             [**2151-2-1**]  05:00 AM
                             [**2151-2-1**]  12:47 PM
                             [**2151-2-3**]  04:24 AM
                             [**2151-2-5**]  04:21 AM
                             [**2151-2-7**]  04:47 AM
   WBC
   18.4
   14.6
   15.2
   14.2
   16.4
   16.7
   16.2
   17.2
   14.8
   Hct
   23.3
   22.3
   20.5
   23.5
   23.0
   23.2
   22.4
   22.7
   23.3
   Plt
   196
   186
   173
   190
   259
   279
   291
   324
   337
   Cr
   1.8
   1.4
   2.0
   1.1
   1.4
   2.2
   2.3
   2.1
   2.3
   2.0
   Glucose
   151
   102
   78
   137
   148
   176
   222
   166
   149
   58
   Other labs: PT / PTT / INR:14.0/28.1/1.2, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:86.0 %, Band:2.0 %, Lymph:7.0 %,
   Mono:0.0 %, Eos:3.0 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
   76 M with COPD and chr resp failure s/p trach, Afib, ESRD on HD,
   infected stage IV coccygeal ulcer s/p diverting colostomy [**1-6**] to aid
   in coccygeal wound healing, and multiple prior VAPs/HAPs with
   complicated hospital course transferred [**12-24**] for hypercarbic respiratory
   failure, likely related to oversedation/obesity hypoventilation.
    # Hypercarbic Respiratory Failure
   - Likely [**1-18**] OSA/body habitus/weaknes
   - Currently being treated for serratia and pseudomonal PNAs.
   - Sputum culture with Psuedomonas with increased sputum
   production/change in color to green.
   - Ceftaz x 10 days
   - PS/TC as tolerated
   # ESRD:
   - Cont HD as tolerated (maint SBP >70) next session scheduled for
   tomorrow.
   - No plans for CVVHD if can
t tolerate HD per no escalation of care
   discussion with family.
   # Hypotension:
   - Multifactorial
 stable currently.
   - No pressors if status worsens.
   # Afib
   - off anticoag sec risk/benefit analysis
    #Decubitus ulcers:
   - Pain meds as needed for comfort given painful dressing changes.
    #Ostomy:
   - Necrotic ostomy site with spillage of bowel contents into
   subcutaneous space tracking to peritoneum.
   - Based on poor underlying status, no real options to address
    All other issues per resident note.

2151-02-08 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 75 yo M with chronic respiratory failure with trach,
   COPD, ESRD, DM 2, infected stage IV coccygeal ulcer, and multiple prior
   VAPs/HAPs with complicated hospital course who now was transferred
   again to the [**Hospital Unit Name 44**] for hypercarbic respiratory failure now s/p diverting
   colostomy to allow for healing of his coccygeal ulcer.
   24 Hour Events:
 FEVER - 101.8
F - [**2151-2-8**] 05:00 AM
   - Need to talk to nursing and wound care on Monday about less frequent
   wound vac changes (currently written S, T, Th) and also to be during
   the week.
   -Am labs ordered for Mon prior to HD
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2151-2-5**] 02:23 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-2-7**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-8**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.8
C (101.8
   HR: 100 (84 - 101) bpm
   BP: 96/43(54) {95/37(50) - 118/51(64)} mmHg
   RR: 30 (17 - 34) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  1,457 mL
                                                                    374 mL
   PO:
                  TF:
                                                                  1,207 mL
                                                                    374 mL
   IVF:
   Blood products:
   Total out:
                                                                    750 mL
                                                                  1,110 mL
   Urine:
   NG:
   Stool:
   Drains:
   460 mL
   Balance:
                                                                    707 mL
                                                                   -736 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 358 (312 - 358) mL
   PS : 10 cmH2O
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 123
   SpO2: 99%
   ABG: ///32/
   Ve: 9.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   375 K/uL
   6.4 g/dL
   94 mg/dL
   2.6 mg/dL
   32 mEq/L
   5.1 mEq/L
   51 mg/dL
   104 mEq/L
   141 mEq/L
   22.9 %
   15.1 K/uL
        [image002.jpg]
                             [**2151-1-29**]  05:44 AM
                             [**2151-1-30**]  05:03 AM
                             [**2151-1-30**]  06:13 PM
                             [**2151-1-31**]  02:24 AM
                             [**2151-2-1**]  05:00 AM
                             [**2151-2-1**]  12:47 PM
                             [**2151-2-3**]  04:24 AM
                             [**2151-2-5**]  04:21 AM
                             [**2151-2-7**]  04:47 AM
                             [**2151-2-8**]  04:16 AM
   WBC
   14.6
   15.2
   14.2
   16.4
   16.7
   16.2
   17.2
   14.8
   15.1
   Hct
   22.3
   20.5
   23.5
   23.0
   23.2
   22.4
   22.7
   23.3
   22.9
   Plt
   186
   173
   190
   259
   279
   291
   324
   337
   375
   Cr
   1.4
   2.0
   1.1
   1.4
   2.2
   2.3
   2.1
   2.3
   2.0
   2.6
   Glucose
   102
   78
   137
   148
   176
   222
   166
   149
   58
   94
   Other labs: PT / PTT / INR:14.0/28.1/1.2, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:86.0 %, Band:2.0 %, Lymph:7.0 %,
   Mono:0.0 %, Eos:3.0 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:1.2 mg/dL
   Assessment and Plan
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
    # Goals of care:  After family meeting with ICU team [**2-2**], family is
   aware that pt has exhausted medical and surgical treatment options. We
   will not be doing any further surgery, CVVH, blood transfusions,
   pressors.  No new antibiotics.  HD will continue as tolerated by BP
   and we will treat pain as needed.  These goals reassessed and
   reaffirmed on [**2151-2-4**] w/ ethics.
    # Hypercarbic Respiratory Failure:  Presumably multifactorial and
   related to weakenss, PNA, and obesity/hypoventilation.  There has been
   question about position nature to trach in the past but last
   evalutation suggested this is not the case.  Sputum from [**1-18**] now grew
   pseudomonas and serratia and on [**9-25**] no longer serratia but with
   providencia and pseudomonas.   We are currently treating this as the
   patient had low grade fever and persistent leukocytosis.
   - Continue [**4-20**]- today increased to [**9-20**] as pt was tachypneic
   - Ceftazidime for 10D course started [**2-2**].
   - Atrovent nebs and prn albuterol nebs
   # ESRD: Patient had HD w/o fluid removal [**2-5**] and his pressures managed
   to tolerated.  Schedule is HD on MWF until unable to tolerated due to
   SBPS in 70
   # Hypotension:  Most likely multifactorial with chronic wound
   infection, retracting ostomy and other issues.  Weaned off Levo since
   [**1-18**]. TSH elevated and free T4 low [**1-18**] but likely sick thyroid.
   Cortisol checked and normal.
   -continue midodrine
   -monitor BPs, mentation
   -pressors no longer indicated. Not bolusing with fluids
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Bridge removed during 1st week of [**Month (only) 1088**] and some necrosis around
   site.  Site is failing but no options for further surgery.  If
   collapses into abdomen will most likely lead to massive stool
   contamination and sepsis.
   -continue ostomy care
   -f/u surgery reccs
   # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Plastics
   debrided extensively [**1-20**] and placed wound vac.  Debrided again and
   wound vac replaced [**1-29**].
   - Cont current wound care
   - Pain control with 100 mcg fentanyl patch , lidocaine patches and
   morphine PRN. Nursing aware that we are now treating all pain with
   morphine PRN and not holding off on treating pain for low BP.
   -At nursing
s request, will d/w wound care schedule of wound vac
   dressing. See if this could be twice rather than thrice weekly and
   preferably on weekdays
   # Anemia: Hct stable yesterday, not checked today.  Tx no longer
   indicated.
   # Hyperglycemia: Patient persistently hyperglycemic with BG
s in
   200
s-300
s.  On glargine plus ISS. .
   # Depression: The patient has been showing decreased interest and signs
   of depression given his current medical situation
   - Cont citalopram 30 mg daily
   - Social work following
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin , off BB [**1-18**] hypotension
   # Atrial Fibrillation: No active issues.  Not anticoagulated given
   generally morbid prognosis.
   # Osteomyelitis:  No active issues
    -finished meropenem ([**1-11**] was the completion of 6 week course).
    # R BKA/PVD
   - Continue current wound care
    # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
    #Prophylaxis: PPI, heparin SC
   # Disposition: ICU, case mgmt on board re ultimate placement.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-2-8**] 02:30 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-02-08 12:35:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Sepsis, respiratory failure
   24 Hour Events:
 FEVER - 101.8
F - [**2151-2-8**] 05:00 AM
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2151-2-5**] 02:23 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-2-8**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-8**] 12:34 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.6
C (99.6
   HR: 95 (84 - 101) bpm
   BP: 98/43(55) {87/34(46) - 118/51(62)} mmHg
   RR: 24 (17 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  1,457 mL
                                                                    686 mL
   PO:
                  TF:
                                                                  1,207 mL
                                                                    626 mL
   IVF:
   Blood products:
   Total out:
                                                                    750 mL
                                                                  1,110 mL
   Urine:
   NG:
   Stool:
   Drains:
   460 mL
   Balance:
                                                                    707 mL
                                                                   -424 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 337 (305 - 358) mL
   PS : 10 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 123
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: ///32/
   Ve: 11.2 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.4 g/dL
   375 K/uL
   94 mg/dL
   2.6 mg/dL
   32 mEq/L
   5.1 mEq/L
   51 mg/dL
   104 mEq/L
   141 mEq/L
   22.9 %
   15.1 K/uL
        [image002.jpg]
                             [**2151-1-29**]  05:44 AM
                             [**2151-1-30**]  05:03 AM
                             [**2151-1-30**]  06:13 PM
                             [**2151-1-31**]  02:24 AM
                             [**2151-2-1**]  05:00 AM
                             [**2151-2-1**]  12:47 PM
                             [**2151-2-3**]  04:24 AM
                             [**2151-2-5**]  04:21 AM
                             [**2151-2-7**]  04:47 AM
                             [**2151-2-8**]  04:16 AM
   WBC
   14.6
   15.2
   14.2
   16.4
   16.7
   16.2
   17.2
   14.8
   15.1
   Hct
   22.3
   20.5
   23.5
   23.0
   23.2
   22.4
   22.7
   23.3
   22.9
   Plt
   186
   173
   190
   259
   279
   291
   324
   337
   375
   Cr
   1.4
   2.0
   1.1
   1.4
   2.2
   2.3
   2.1
   2.3
   2.0
   2.6
   Glucose
   102
   78
   137
   148
   176
   222
   166
   149
   58
   94
   Other labs: PT / PTT / INR:14.0/28.1/1.2, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:86.0 %, Band:2.0 %, Lymph:7.0 %,
   Mono:0.0 %, Eos:3.0 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:1.2 mg/dL
   Assessment and Plan
   76 M with COPD and chr resp failure s/p trach, Afib, ESRD on HD,
   infected stage IV coccygeal ulcer s/p diverting colostomy [**1-6**] to aid
   in coccygeal wound healing, and multiple prior VAPs/HAPs with
   complicated hospital course transferred [**12-24**] for hypercarbic respiratory
   failure, likely related to oversedation/obesity hypoventilation.
    # Hypercarbic Respiratory Failure
   - Likely [**1-18**] OSA/body habitus/weaknes
   - Currently being treated for serratia and pseudomonal PNAs.
   - Sputum culture with Psuedomonas with increased sputum
   production/change in color to green.
   - Ceftaz x 10 days
   - PS/TC as tolerated
   # ESRD:
   - Cont HD as tolerated (maint SBP >70) next session scheduled for
   tomorrow.
   - No plans for CVVHD if can
t tolerate HD per no escalation of care
   discussion with family.
   # Hypotension:
   - Multifactorial
 stable currently.
   - No pressors if status worsens.
   # Afib
   - off anticoag sec risk/benefit analysis
    #Decubitus ulcers:
   - Pain meds as needed for comfort given painful dressing changes.
    #Ostomy:
   - Necrotic ostomy site with spillage of bowel contents into
   subcutaneous space tracking to peritoneum.
   - Based on poor underlying status, no real options to address
    All other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 20 minutes
   Patient is critically ill

2151-02-09 07:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 75 yo M with chronic respiratory failure with trach,
   COPD, ESRD, DM 2, infected stage IV coccygeal ulcer, and multiple prior
   VAPs/HAPs with complicated hospital course who now was transferred
   again to the [**Hospital Unit Name 44**] for hypercarbic respiratory failure now s/p diverting
   colostomy to allow for healing of his coccygeal ulcer.
   24 Hour Events:
   [**2-8**]
   -Got HD, BP tolerated it.  Did not have any fluid taken off.
   -VAC dressing changes qMWF discussed briefly with nurses but will need
   to be readdressed.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-2-8**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-9**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.8
C (98.2
   HR: 79 (78 - 99) bpm
   BP: 84/34(45) {78/34(45) - 127/46(60)} mmHg
   RR: 13 (13 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  1,294 mL
                                                                    397 mL
   PO:
                  TF:
                                                                  1,204 mL
                                                                    397 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,510 mL
                                                                    150 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                    460 mL
   Balance:
                                                                   -216 mL
                                                                    247 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 376 (305 - 450) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 95
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 9.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   375 K/uL
   6.4 g/dL
   94 mg/dL
   2.6 mg/dL
   32 mEq/L
   5.1 mEq/L
   51 mg/dL
   104 mEq/L
   141 mEq/L
   22.9 %
   15.1 K/uL
        [image002.jpg]
                             [**2151-1-29**]  05:44 AM
                             [**2151-1-30**]  05:03 AM
                             [**2151-1-30**]  06:13 PM
                             [**2151-1-31**]  02:24 AM
                             [**2151-2-1**]  05:00 AM
                             [**2151-2-1**]  12:47 PM
                             [**2151-2-3**]  04:24 AM
                             [**2151-2-5**]  04:21 AM
                             [**2151-2-7**]  04:47 AM
                             [**2151-2-8**]  04:16 AM
   WBC
   14.6
   15.2
   14.2
   16.4
   16.7
   16.2
   17.2
   14.8
   15.1
   Hct
   22.3
   20.5
   23.5
   23.0
   23.2
   22.4
   22.7
   23.3
   22.9
   Plt
   186
   173
   190
   259
   279
   291
   324
   337
   375
   Cr
   1.4
   2.0
   1.1
   1.4
   2.2
   2.3
   2.1
   2.3
   2.0
   2.6
   Glucose
   102
   78
   137
   148
   176
   222
   166
   149
   58
   94
   Other labs: PT / PTT / INR:14.0/28.1/1.2, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:86.0 %, Band:2.0 %, Lymph:7.0 %,
   Mono:0.0 %, Eos:3.0 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:1.2 mg/dL
   Assessment and Plan
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
   # Goals of care:  After family meeting with ICU team [**2-2**], family is
   aware that pt has exhausted medical and surgical treatment options. We
   will not be doing any further surgery, CVVH, blood transfusions,
   pressors.  No new antibiotics.  HD will continue as tolerated by BP
   and we will treat pain as needed.  These goals reassessed and
   reaffirmed on [**2151-2-4**] w/ ethics.
   # Hypercarbic Respiratory Failure:  Presumably multifactorial and
   related to weakenss, PNA, and obesity/hypoventilation.  There has been
   question about position nature to trach in the past but last
   evalutation suggested this is not the case.  Sputum from [**1-18**] now grew
   pseudomonas and serratia and on [**9-25**] no longer serratia but with
   providencia and pseudomonas.   We are currently treating this as the
   patient had low grade fever and persistent leukocytosis.
   - Continue pressure support
   - Ceftazidime for 10D course started [**2-2**].  Today is day [**7-26**].
   - Atrovent nebs and prn albuterol nebs
   # ESRD: Patient had HD w/o fluid removal [**2-5**] and his pressures managed
   to tolerate.  Schedule is HD on MWF until unable to tolerate due to
   SBPS in 70
   # Hypotension:  Most likely multifactorial with chronic wound
   infection, retracting ostomy and other issues.  Weaned off Levo since
   [**1-18**]. TSH elevated and free T4 low [**1-18**] but likely sick thyroid.
   Cortisol checked and normal.
   -continue midodrine
   -monitor BPs, mentation
   -pressors no longer indicated. Not bolusing with fluids
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Bridge removed during 1st week of [**Month (only) 1088**] and some necrosis around
   site.  Site is failing but no options for further surgery.  If
   collapses into abdomen will most likely lead to massive stool
   contamination and sepsis.
   -continue ostomy care
   -f/u surgery reccs
   # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Plastics
   debrided extensively [**1-20**] and placed wound vac.  Debrided again and
   wound vac replaced [**1-29**].
   - Cont current wound care
   - Pain control with 100 mcg fentanyl patch , lidocaine patches and
   morphine PRN. Nursing aware that we are now treating all pain with
   morphine PRN and not holding off on treating pain for low BP.
   -At nursing
s request, will d/w wound care schedule of wound vac
   dressing. See if this could be twice rather than thrice weekly and
   preferably on weekdays
   # Anemia: Hct stable yesterday, not checked today.  Tx no longer
   indicated.
   # Hyperglycemia: Patient persistently hyperglycemic with BG
s in
   200
s-300
s.  On glargine plus ISS. .
   # Depression: The patient has been showing decreased interest and signs
   of depression given his current medical situation
   - Cont citalopram 30 mg daily
   - Social work following
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin , off BB [**1-18**] hypotension
   # Atrial Fibrillation: No active issues.  Not anticoagulated given
   generally morbid prognosis.
   # Osteomyelitis:  No active issues
    -finished meropenem ([**1-11**] was the completion of 6 week course).
   # R BKA/PVD
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   #Prophylaxis: PPI, heparin SC
   # Disposition: ICU, case mgmt on board re ultimate placement.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-2-8**] 10:27 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2151-02-09 11:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: sepsis
   24 Hour Events:
   Vac dressings M/W/F
   HD yesterday without volume off
   Labs M/W/F before HD
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-2-8**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-9**] 11:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.8
C (98.3
   HR: 80 (78 - 96) bpm
   BP: 82/32(42) {78/32(42) - 127/46(60)} mmHg
   RR: 17 (13 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  1,294 mL
                                                                    423 mL
   PO:
                  TF:
                                                                  1,204 mL
                                                                    423 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,510 mL
                                                                    150 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                    460 mL
   Balance:
                                                                   -216 mL
                                                                    273 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 376 (337 - 450) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 95
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 9.2 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.4 g/dL
   375 K/uL
   94 mg/dL
   2.6 mg/dL
   32 mEq/L
   5.1 mEq/L
   51 mg/dL
   104 mEq/L
   141 mEq/L
   22.9 %
   15.1 K/uL
        [image002.jpg]
                             [**2151-1-29**]  05:44 AM
                             [**2151-1-30**]  05:03 AM
                             [**2151-1-30**]  06:13 PM
                             [**2151-1-31**]  02:24 AM
                             [**2151-2-1**]  05:00 AM
                             [**2151-2-1**]  12:47 PM
                             [**2151-2-3**]  04:24 AM
                             [**2151-2-5**]  04:21 AM
                             [**2151-2-7**]  04:47 AM
                             [**2151-2-8**]  04:16 AM
   WBC
   14.6
   15.2
   14.2
   16.4
   16.7
   16.2
   17.2
   14.8
   15.1
   Hct
   22.3
   20.5
   23.5
   23.0
   23.2
   22.4
   22.7
   23.3
   22.9
   Plt
   186
   173
   190
   259
   279
   291
   324
   337
   375
   Cr
   1.4
   2.0
   1.1
   1.4
   2.2
   2.3
   2.1
   2.3
   2.0
   2.6
   Glucose
   102
   78
   137
   148
   176
   222
   166
   149
   58
   94
   Other labs: PT / PTT / INR:14.0/28.1/1.2, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:86.0 %, Band:2.0 %, Lymph:7.0 %,
   Mono:0.0 %, Eos:3.0 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:1.2 mg/dL
   Fluid analysis / Other labs: No new labs today.
   Imaging: No new imaging.
   Microbiology: No new micro.
   Assessment and Plan
   76 M with COPD and chr resp failure s/p trach, Afib, ESRD on HD,
   infected stage IV coccygeal ulcer s/p diverting colostomy [**1-6**] to aid
   in coccygeal wound healing, and multiple prior VAPs/HAPs with
   complicated hospital course transferred [**12-24**] for hypercarbic respiratory
   failure, likely related to oversedation/obesity hypoventilation.
   #  Hypercarbic Respiratory Failure
   - Likely [**1-18**] OSA/body habitus/weaknes
   - Currently being treated for serratia and pseudomonal PNAs.
   - Sputum culture with Psuedomonas with increased sputum
   production/change in color to green.
   - Ceftaz x 10 days
   - PS/TC as tolerated
   # ESRD:
   - Cont HD as tolerated (maint SBP >70) M/W/F.
   - No plans for CVVHD if can
t tolerate HD per no escalation of care
   discussion with family.
   # Hypotension:
   - Multifactorial
 stable currently.
   - No pressors if status worsens.
   # Afib
   - off anticoag sec risk/benefit analysis
    #Decubitus ulcers:
   - Pain meds as needed for comfort given painful dressing changes.
   #Ostomy:
   - Necrotic ostomy site with spillage of bowel contents into
   subcutaneous space tracking to peritoneum.
   - Based on poor underlying status, no real options to address
    All other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 20 minutes
   Patient is critically ill

2151-02-10 07:51:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
 FEVER - 101.2
F - [**2151-2-9**] 08:00 PM
   No events
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-2-9**] 10:00 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:  denies pain. Otherwise limited [**1-18**] trach
   Flowsheet Data as of  [**2151-2-10**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.3
C (99.2
   HR: 98 (79 - 101) bpm
   BP: 99/45(56) {80/32(42) - 110/47(59)} mmHg
   RR: 25 (11 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  1,319 mL
                                                                    400 mL
   PO:
                  TF:
                                                                  1,239 mL
                                                                    400 mL
   IVF:
   Blood products:
   Total out:
                                                                    200 mL
                                                                    150 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,119 mL
                                                                    250 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 337 (337 - 428) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 97
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 9.3 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: Absent, Left: Trace, Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   265 K/uL
   5.9 g/dL
   137 mg/dL
   2.3 mg/dL
   34 mEq/L
   5.0 mEq/L
   43 mg/dL
   105 mEq/L
   143 mEq/L
   20.4 %
   8.8 K/uL
        [image002.jpg]
                             [**2151-1-30**]  05:03 AM
                             [**2151-1-30**]  06:13 PM
                             [**2151-1-31**]  02:24 AM
                             [**2151-2-1**]  05:00 AM
                             [**2151-2-1**]  12:47 PM
                             [**2151-2-3**]  04:24 AM
                             [**2151-2-5**]  04:21 AM
                             [**2151-2-7**]  04:47 AM
                             [**2151-2-8**]  04:16 AM
                             [**2151-2-10**]  04:20 AM
   WBC
   15.2
   14.2
   16.4
   16.7
   16.2
   17.2
   14.8
   15.1
   8.8
   Hct
   20.5
   23.5
   23.0
   23.2
   22.4
   22.7
   23.3
   22.9
   20.4
   Plt
   173
   190
   259
   279
   291
   324
   [**Telephone/Fax (3) 8201**]
   Cr
   2.0
   1.1
   1.4
   2.2
   2.3
   2.1
   2.3
   2.0
   2.6
   2.3
   Glucose
   78
   137
   148
   176
   222
   166
   149
   58
   94
   137
   Other labs: PT / PTT / INR:14.0/28.1/1.2, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:86.0 %, Band:2.0 %, Lymph:7.0 %,
   Mono:0.0 %, Eos:3.0 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
   # Goals of care:  After family meeting with ICU team [**2-2**], family is
   aware that pt has exhausted medical and surgical treatment options. We
   will not be doing any further surgery, CVVH, blood transfusions,
   pressors.  No new antibiotics.  HD will continue as tolerated by BP
   and we will treat pain as needed.  These goals reassessed and
   reaffirmed on [**2151-2-4**] w/ ethics.
   # Hypercarbic Respiratory Failure:  Presumably multifactorial and
   related to weakenss, PNA, and obesity/hypoventilation.  There has been
   question about position nature to trach in the past but last
   evalutation suggested this is not the case.  Sputum from [**1-18**] now grew
   pseudomonas and serratia and on [**9-25**] no longer serratia but with
   providencia and pseudomonas.   We are currently treating this as the
   patient had low grade fever and persistent leukocytosis.
   - Continue pressure support
   - Ceftazidime for 10D course started [**2-2**].  Today is day [**7-26**].
   - Atrovent nebs and prn albuterol nebs
   # ESRD: Patient had HD w/o fluid removal [**2-5**] and his pressures managed
   to tolerate.  Schedule is HD on MWF until unable to tolerate due to
   SBPS in 70
   # Hypotension:  Most likely multifactorial with chronic wound
   infection, retracting ostomy and other issues.  Weaned off Levo since
   [**1-18**]. TSH elevated and free T4 low [**1-18**] but likely sick thyroid.
   Cortisol checked and normal.
   -continue midodrine
   -monitor BPs, mentation
   -pressors no longer indicated. Not bolusing with fluids
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Bridge removed during 1st week of [**Month (only) 1088**] and some necrosis around
   site.  Site is failing but no options for further surgery.  If
   collapses into abdomen will most likely lead to massive stool
   contamination and sepsis.
   -continue ostomy care
   -f/u surgery reccs
   # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Plastics
   debrided extensively [**1-20**] and placed wound vac.  Debrided again and
   wound vac replaced [**1-29**].
   - Cont current wound care
   - Pain control with 100 mcg fentanyl patch , lidocaine patches and
   morphine PRN. Nursing aware that we are now treating all pain with
   morphine PRN and not holding off on treating pain for low BP.
   -At nursing
s request, will d/w wound care schedule of wound vac
   dressing. See if this could be twice rather than thrice weekly and
   preferably on weekdays
   # Anemia: Hct stable yesterday, not checked today.  Tx no longer
   indicated.
   # Hyperglycemia: Patient persistently hyperglycemic with BG
s in
   200
s-300
s.  On glargine plus ISS. .
   # Depression: The patient has been showing decreased interest and signs
   of depression given his current medical situation
   - Cont citalopram 30 mg daily
   - Social work following
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin , off BB [**1-18**] hypotension
   # Atrial Fibrillation: No active issues.  Not anticoagulated given
   generally morbid prognosis.
   # Osteomyelitis:  No active issues
    -finished meropenem ([**1-11**] was the completion of 6 week course).
   # R BKA/PVD
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   #Prophylaxis: PPI, heparin SC
   # Disposition: ICU, case mgmt on board re ultimate placement.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-2-10**] 03:22 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2151-02-11 07:41:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
 FEVER - 104.5
F - [**2151-2-11**] 04:00 AM
   -got HD but nothing taken off
   -Hct has dropped to 20
   -in afternoon, suddenly went into sinus tach vs SVT but most likely A
   flutter 160's. SBPs ranging 60s-80s. Briefly responded to carotid
   massage with HR to 120's but back up to 160's. Family contact[**Name (NI) **] and at
   bedside. No pharmacologic therapies attempted as per established goals
   of care.
   Patient unable to provide history: Unresponsive
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-2-10**] 10:01 PM
   Morphine Sulfate - [**2151-2-11**] 03:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-11**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.3
C (104.5
   Tcurrent: 39.2
C (102.5
   HR: 145 (91 - 169) bpm
   BP: 77/36(45) {61/29(38) - 107/47(59)} mmHg
   RR: 25 (10 - 40) insp/min
   SpO2: 99%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  1,542 mL
                                                                    382 mL
   PO:
                  TF:
                                                                  1,482 mL
                                                                    382 mL
   IVF:
   Blood products:
   Total out:
                                                                    150 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,392 mL
                                                                    382 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 364 (339 - 373) mL
   PS : 10 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 11.1 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilaterally, Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese, ostomy and
   peg in place
   Extremities: Right: Absent, Left: Absent, right BKA
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   265 K/uL
   5.9 g/dL
   137 mg/dL
   2.3 mg/dL
   34 mEq/L
   5.0 mEq/L
   43 mg/dL
   105 mEq/L
   143 mEq/L
   20.4 %
   8.8 K/uL
        [image002.jpg]
                             [**2151-1-30**]  05:03 AM
                             [**2151-1-30**]  06:13 PM
                             [**2151-1-31**]  02:24 AM
                             [**2151-2-1**]  05:00 AM
                             [**2151-2-1**]  12:47 PM
                             [**2151-2-3**]  04:24 AM
                             [**2151-2-5**]  04:21 AM
                             [**2151-2-7**]  04:47 AM
                             [**2151-2-8**]  04:16 AM
                             [**2151-2-10**]  04:20 AM
   WBC
   15.2
   14.2
   16.4
   16.7
   16.2
   17.2
   14.8
   15.1
   8.8
   Hct
   20.5
   23.5
   23.0
   23.2
   22.4
   22.7
   23.3
   22.9
   20.4
   Plt
   173
   190
   259
   279
   291
   324
   [**Telephone/Fax (3) 8201**]
   Cr
   2.0
   1.1
   1.4
   2.2
   2.3
   2.1
   2.3
   2.0
   2.6
   2.3
   Glucose
   78
   137
   148
   176
   222
   166
   149
   58
   94
   137
   Other labs: PT / PTT / INR:14.0/28.1/1.2, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:86.0 %, Band:2.0 %, Lymph:7.0 %,
   Mono:0.0 %, Eos:3.0 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
   # Goals of care:  After family meeting with ICU team [**2-2**], family is
   aware that pt has exhausted medical and surgical treatment options. We
   will not be doing any further surgery, CVVH, blood transfusions,
   pressors.  No new antibiotics.  HD will continue as tolerated by BP
   and we will treat pain as needed.  These goals reassessed and
   reaffirmed on [**2151-2-4**] w/ ethics.
   # Hypercarbic Respiratory Failure:  Presumably multifactorial and
   related to weakenss, PNA, and obesity/hypoventilation.  There has been
   question about position nature to trach in the past but last
   evalutation suggested this is not the case.  Sputum from [**1-18**] now grew
   pseudomonas and serratia and on [**9-25**] no longer serratia but with
   providencia and pseudomonas.   We are currently treating this as the
   patient had low grade fever and persistent leukocytosis.
   - Continue pressure support
   - Ceftazidime for 10D course started [**2-2**].  Today is day [**8-26**].
   - Atrovent nebs and prn albuterol nebs
   # ESRD: Patient had HD w/o fluid removal today  and his pressures
   managed to tolerate.  Schedule is HD on MWF until unable to tolerate
   due to SBPS in 70
   # Hypotension:  Most likely multifactorial with chronic wound
   infection, retracting ostomy and other issues.  Weaned off Levo since
   [**1-18**]. TSH elevated and free T4 low [**1-18**] but likely sick thyroid.
   Cortisol checked and normal.
   -continue midodrine
   -monitor BPs, mentation
   -pressors no longer indicated. Not bolusing with fluids
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Bridge removed during 1st week of [**Month (only) 1088**] and some necrosis around
   site.  Site is failing but no options for further surgery.  If
   collapses into abdomen will most likely lead to massive stool
   contamination and sepsis.
   -continue ostomy care
   -f/u surgery reccs
   # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Plastics
   debrided extensively [**1-20**] and placed wound vac.  Debrided again and
   wound vac replaced [**1-29**].
   - Cont current wound care incl wound vac changes MWF
   - Pain control with 100 mcg fentanyl patch , lidocaine patches and
   morphine PRN. Nursing aware that we are now treating all pain with
   morphine PRN and not holding off on treating pain for low BP.
   # Anemia: Hct down to 20 today.  Tx no longer indicated.
   # Hyperglycemia: Patient persistently hyperglycemic with BG
s in
   200
s-300
s.  On glargine plus ISS. .
   # Depression: The patient has been showing decreased interest and signs
   of depression given his current medical situation
   - Cont citalopram 30 mg daily
   - Social work following
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity
   -Continue statin , off BB [**1-18**] hypotension
   # Atrial Fibrillation: No active issues.  Not anticoagulated given
   generally morbid prognosis.
   # Osteomyelitis:  No active issues
    -finished meropenem ([**1-11**] was the completion of 6 week course).
   # R BKA/PVD
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   #Prophylaxis: PPI, heparin SC
   # Disposition: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-2-11**] 04:00 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2151-02-12 07:51:00 Physician Resident Progress Note
Chief Complaint: hypercarbic respiratory failure
   24 Hour Events:
 FEVER - 101.5
F - [**2151-2-11**] 08:00 AM
   - remained tachy until p.m. when HR slowed but had increased ectopy
   - completed course of ceftaz
   Patient unable to provide history: Unresponsive, trached
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-2-11**] 10:00 PM
   Morphine Sulfate - [**2151-2-12**] 04:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-12**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.1
C (100.6
   HR: 84 (80 - 144) bpm
   BP: 89/38(50) {67/28(39) - 89/45(53)} mmHg
   RR: 15 (12 - 42) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  1,258 mL
                                                                    390 mL
   PO:
                  TF:
                                                                  1,258 mL
                                                                    390 mL
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,258 mL
                                                                    390 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 484 (356 - 559) mL
   PS : 10 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 47
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 5.7 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese, PEG and
   Ostomy (difficult to visualize site, necrosis per nursing)
   Extremities: Right: Absent, Left: Absent, right lower extremity BKA,
   left cyanotic w/missing toes, PICC site with some erythema
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   258 K/uL
   5.2 g/dL
   128 mg/dL
   2.3 mg/dL
   30 mEq/L
   5.1 mEq/L
   46 mg/dL
   106 mEq/L
   144 mEq/L
   18.6 %
   18.1 K/uL
        [image002.jpg]
                             [**2151-1-30**]  06:13 PM
                             [**2151-1-31**]  02:24 AM
                             [**2151-2-1**]  05:00 AM
                             [**2151-2-1**]  12:47 PM
                             [**2151-2-3**]  04:24 AM
                             [**2151-2-5**]  04:21 AM
                             [**2151-2-7**]  04:47 AM
                             [**2151-2-8**]  04:16 AM
                             [**2151-2-10**]  04:20 AM
                             [**2151-2-12**]  03:34 AM
   WBC
   14.2
   16.4
   16.7
   16.2
   17.2
   14.8
   15.1
   8.8
   18.1
   Hct
   23.5
   23.0
   23.2
   22.4
   22.7
   23.3
   22.9
   20.4
   18.6
   Plt
   190
   259
   279
   291
   324
   337
   375
   265
   258
   Cr
   1.1
   1.4
   2.2
   2.3
   2.1
   2.3
   2.0
   2.6
   2.3
   2.3
   Glucose
   137
   148
   176
   222
   166
   149
   58
   94
   137
   128
   Other labs: PT / PTT / INR:14.5/27.3/1.3, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:84.4 %, Band:0.0 %, Lymph:11.6 %,
   Mono:2.9 %, Eos:0.8 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
    # Goals of care:  After family meeting with ICU team [**2-2**], family is
   aware that pt has exhausted medical and surgical treatment options. We
   will not be doing any further surgery, CVVH, blood transfusions,
   pressors.  No new antibiotics.  HD will continue as tolerated by BP
   and we will treat pain as needed.  These goals reassessed and
   reaffirmed on [**2151-2-4**] w/ ethics.
    # Hypercarbic Respiratory Failure:  Presumably multifactorial and
   related to weakenss, PNA, and obesity/hypoventilation.  There has been
   question about position nature to trach in the past but last evaluation
   suggested this is not the case.  Sputum from [**1-18**] now grew pseudomonas
   and serratia and on [**9-25**] no longer serratia but with providencia and
   pseudomonas.  He now completed a ten day course of treatment for this
   second set of cultures. Continue pressure support
   -          Atrovent nebs and prn albuterol nebs
   -          Day 10 of ceftazidime therapy yesterday and this was
   stopped, will not initiate any further antibiotic therapies
   #Altered MS: Presumably due to persistent hypotension and morbid
   status.  Monitor for signs of distress
   #Leukocytosis: Patient with increased leukocytosis from [**9-3**] over the
   past two days.  He completed a course of 10 days of ceftazidime for his
   last respiratory isolates but given poor respiratory mechanics, no
   cough, unlikely to ever fully clear respiratory pathogens.  Also
   possible infection sources in chronic ulcer, degrading ostomy, and PICC
   site.  No further abx indicated.
   # ESRD: HD today if patient can tolerate and SBP
s >70
   # Hypotension:  Most likely multifactorial with chronic wound
   infection, retracting ostomy and other issues.  Weaned off Levo since
   [**1-18**]. TSH elevated and free T4 low [**1-18**] but likely sick thyroid.
   Cortisol checked and normal.
   -continue midodrine
   -monitor BPs, mentation
   -pressors no longer indicated. Not bolusing with fluids
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Bridge removed during 1st week of [**Month (only) 1088**] and some necrosis around
   site.  Site is failing but no options for further surgery.  If
   collapses into abdomen will most likely lead to massive stool
   contamination and sepsis.
   -continue ostomy care
   -f/u surgery reccs
   # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Plastics
   debrided extensively [**1-20**] and placed wound vac.  Debrided again and
   wound vac replaced [**1-29**].
   - Cont current wound care incl wound vac changes MWF
   - Pain control with 100 mcg fentanyl patch , lidocaine patches and
   morphine PRN. Nursing aware that we are now treating all pain with
   morphine PRN and not holding off on treating pain for low BP.
   # Anemia: Hct down to 18 from 20 yesterday.   Getting epo with HD.
   Transfusion no longer indicated.
   # Hyperglycemia: Patient persistently hyperglycemic with BG
s in
   200
s-300
s.  On glargine plus ISS. .
   # Depression: The patient has been showing decreased interest and signs
   of depression given his current medical situation
   - Cont citalopram 30 mg daily
   - Social work following
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity
   -Continue statin , off BB [**1-18**] hypotension
   # Atrial Fibrillation: Patient with tachycardia two days ago presumably
   due to persistent infection/hypotension.  No indication for
   pharmacologic reversal and patient has now reversed on his own.  Not
   anticoagulated given generally morbid prognosis.
   # Osteomyelitis:  No active issues
    -finished meropenem ([**1-11**] was the completion of 6 week course).
   # R BKA/PVD
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   #Prophylaxis: PPI, heparin SC
   # Disposition: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-2-11**] 10:51 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2151-02-13 08:23:00 Physician Resident Progress Note
Chief Complaint: resp failure, sacral decub
   24 Hour Events:
   -Got HD, no UFV removed
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2151-2-12**] 09:40 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt states pain on on foot dressing change
   Flowsheet Data as of  [**2151-2-13**] 08:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.8
C (98.3
   HR: 79 (76 - 89) bpm
   BP: 84/34(44) {71/30(33) - 93/44(61)} mmHg
   RR: 20 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  1,401 mL
                                                                    504 mL
   PO:
                  TF:
                                                                  1,201 mL
                                                                    414 mL
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,401 mL
                                                                    504 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 350 (350 - 509) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 41
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 7.3 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Trace, Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   258 K/uL
   5.2 g/dL
   128 mg/dL
   2.3 mg/dL
   30 mEq/L
   5.1 mEq/L
   46 mg/dL
   106 mEq/L
   144 mEq/L
   18.6 %
   18.1 K/uL
        [image002.jpg]
                             [**2151-1-30**]  06:13 PM
                             [**2151-1-31**]  02:24 AM
                             [**2151-2-1**]  05:00 AM
                             [**2151-2-1**]  12:47 PM
                             [**2151-2-3**]  04:24 AM
                             [**2151-2-5**]  04:21 AM
                             [**2151-2-7**]  04:47 AM
                             [**2151-2-8**]  04:16 AM
                             [**2151-2-10**]  04:20 AM
                             [**2151-2-12**]  03:34 AM
   WBC
   14.2
   16.4
   16.7
   16.2
   17.2
   14.8
   15.1
   8.8
   18.1
   Hct
   23.5
   23.0
   23.2
   22.4
   22.7
   23.3
   22.9
   20.4
   18.6
   Plt
   190
   259
   279
   291
   324
   337
   375
   265
   258
   Cr
   1.1
   1.4
   2.2
   2.3
   2.1
   2.3
   2.0
   2.6
   2.3
   2.3
   Glucose
   137
   148
   176
   222
   166
   149
   58
   94
   137
   128
   Other labs: PT / PTT / INR:14.5/27.3/1.3, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:84.4 %, Band:0.0 %, Lymph:11.6 %,
   Mono:2.9 %, Eos:0.8 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
    # Goals of care:  After family meeting with ICU team [**2-2**], family is
   aware that pt has exhausted medical and surgical treatment options. We
   will not be doing any further surgery, CVVH, blood transfusions,
   pressors.  No new antibiotics.  HD will continue as tolerated by BP
   and we will treat pain as needed.  These goals reassessed and
   reaffirmed on [**2151-2-4**] w/ ethics.
    # Hypercarbic Respiratory Failure:  Presumably multifactorial and
   related to weakenss, PNA, and obesity/hypoventilation.  There has been
   question about position nature to trach in the past but last evaluation
   suggested this is not the case.  Sputum from [**1-18**] now grew pseudomonas
   and serratia and on [**9-25**] no longer serratia but with providencia and
   pseudomonas.  He now completed a ten day course of treatment for this
   second set of cultures. Continue pressure support
   -          Atrovent nebs and prn albuterol nebs
   -          Day 10 of ceftazidime therapy yesterday and this was
   stopped, will not initiate any further antibiotic therapies
   #Altered MS: Presumably due to persistent hypotension and morbid
   status.  Monitor for signs of distress
   #Leukocytosis: Patient with increased leukocytosis from [**9-3**] over the
   past two days.  He completed a course of 10 days of ceftazidime for his
   last respiratory isolates but given poor respiratory mechanics, no
   cough, unlikely to ever fully clear respiratory pathogens.  Also
   possible infection sources in chronic ulcer, degrading ostomy, and PICC
   site.  No further abx indicated.
   # ESRD: HD today if patient can tolerate and SBP
s >70
   # Hypotension:  Most likely multifactorial with chronic wound
   infection, retracting ostomy and other issues.  Weaned off Levo since
   [**1-18**]. TSH elevated and free T4 low [**1-18**] but likely sick thyroid.
   Cortisol checked and normal.
   -continue midodrine
   -monitor BPs, mentation
   -pressors no longer indicated. Not bolusing with fluids
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Bridge removed during 1st week of [**Month (only) 1088**] and some necrosis around
   site.  Site is failing but no options for further surgery.  If
   collapses into abdomen will most likely lead to massive stool
   contamination and sepsis.
   -continue ostomy care
   -f/u surgery reccs
   # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Plastics
   debrided extensively [**1-20**] and placed wound vac.  Debrided again and
   wound vac replaced [**1-29**].
   - Cont current wound care incl wound vac changes MWF
   - Pain control with 100 mcg fentanyl patch , lidocaine patches and
   morphine PRN. Nursing aware that we are now treating all pain with
   morphine PRN and not holding off on treating pain for low BP.
   # Anemia: Hct down to 18 from 20 yesterday.   Getting epo with HD.
   Transfusion no longer indicated.
   # Hyperglycemia: Patient persistently hyperglycemic with BG
s in
   200
s-300
s.  On glargine plus ISS. .
   # Depression: The patient has been showing decreased interest and signs
   of depression given his current medical situation
   - Cont citalopram 30 mg daily
   - Social work following
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity
   -Continue statin , off BB [**1-18**] hypotension
   # Atrial Fibrillation: Patient with tachycardia two days ago presumably
   due to persistent infection/hypotension.  No indication for
   pharmacologic reversal and patient has now reversed on his own.  Not
   anticoagulated given generally morbid prognosis.
   # Osteomyelitis:  No active issues
    -finished meropenem ([**1-11**] was the completion of 6 week course).
   # R BKA/PVD
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   #Prophylaxis: PPI, heparin SC
   # Disposition: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-2-13**] 04:34 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2151-02-13 11:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pain
   Fluid +
   Remians on PSV 10/5
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-13**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.8
C (98.3
   HR: 79 (76 - 88) bpm
   BP: 84/34(44) {71/30(33) - 88/41(50)} mmHg
   RR: 20 (12 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  1,401 mL
                                                                    658 mL
   PO:
                  TF:
                                                                  1,201 mL
                                                                    568 mL
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                    980 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,401 mL
                                                                   -321 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 440 (350 - 509) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 41
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 6.8 L/min
   Physical Examination
   Gen: intubated, eye open not following commands
   CV: RR
   Chest:poor air movement
   Abd: soft
   Ext: right AKA
   Labs / Radiology
   5.2 g/dL
   258 K/uL
   128 mg/dL
   2.3 mg/dL
   30 mEq/L
   5.1 mEq/L
   46 mg/dL
   106 mEq/L
   144 mEq/L
   18.6 %
   18.1 K/uL
        [image002.jpg]
                             [**2151-1-30**]  06:13 PM
                             [**2151-1-31**]  02:24 AM
                             [**2151-2-1**]  05:00 AM
                             [**2151-2-1**]  12:47 PM
                             [**2151-2-3**]  04:24 AM
                             [**2151-2-5**]  04:21 AM
                             [**2151-2-7**]  04:47 AM
                             [**2151-2-8**]  04:16 AM
                             [**2151-2-10**]  04:20 AM
                             [**2151-2-12**]  03:34 AM
   WBC
   14.2
   16.4
   16.7
   16.2
   17.2
   14.8
   15.1
   8.8
   18.1
   Hct
   23.5
   23.0
   23.2
   22.4
   22.7
   23.3
   22.9
   20.4
   18.6
   Plt
   190
   259
   279
   291
   324
   337
   375
   265
   258
   Cr
   1.1
   1.4
   2.2
   2.3
   2.1
   2.3
   2.0
   2.6
   2.3
   2.3
   Glucose
   137
   148
   176
   222
   166
   149
   58
   94
   137
   128
   Other labs: PT / PTT / INR:14.5/27.3/1.3, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:84.4 %, Band:0.0 %, Lymph:11.6 %,
   Mono:2.9 %, Eos:0.8 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   Mr [**Known lastname 6547**] remains critically ill but goals are no escalation of care
   after family and ethics consultations.
   Overall fever curve down today.
   We will continue to make his comfort our primary goal of care and
   nephrology colleagues will advise regarding role for any further HD as
   hemodyanmics can allow.
   His wounds have progressed and he does have pain with dressing changes.
   We will use narcotic analgesia as needed for comfort.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-2-13**] 04:34 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: chlorhex,
   Communication:  ongoing family meetings
   Code status: Full code
   Disposition: ICU
   Total time spent: 25 minutes

2151-02-14 08:03:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
   quiet day. Nothing new for Mr. [**Known lastname 6547**] [**Last Name (Titles) 1379**]
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-2-13**] 10:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-14**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.7
   HR: 81 (74 - 83) bpm
   BP: 87/40(49) {66/29(38) - 95/50(57)} mmHg
   RR: 25 (12 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  1,297 mL
                                                                    353 mL
   PO:
                  TF:
                                                                  1,207 mL
                                                                    353 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,220 mL
                                                                    200 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     77 mL
                                                                    153 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 383 (342 - 455) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 87
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Trace, Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   258 K/uL
   5.2 g/dL
   128 mg/dL
   2.3 mg/dL
   30 mEq/L
   5.1 mEq/L
   46 mg/dL
   106 mEq/L
   144 mEq/L
   18.6 %
   18.1 K/uL
        [image002.jpg]
                             [**2151-1-30**]  06:13 PM
                             [**2151-1-31**]  02:24 AM
                             [**2151-2-1**]  05:00 AM
                             [**2151-2-1**]  12:47 PM
                             [**2151-2-3**]  04:24 AM
                             [**2151-2-5**]  04:21 AM
                             [**2151-2-7**]  04:47 AM
                             [**2151-2-8**]  04:16 AM
                             [**2151-2-10**]  04:20 AM
                             [**2151-2-12**]  03:34 AM
   WBC
   14.2
   16.4
   16.7
   16.2
   17.2
   14.8
   15.1
   8.8
   18.1
   Hct
   23.5
   23.0
   23.2
   22.4
   22.7
   23.3
   22.9
   20.4
   18.6
   Plt
   190
   259
   279
   291
   324
   337
   375
   265
   258
   Cr
   1.1
   1.4
   2.2
   2.3
   2.1
   2.3
   2.0
   2.6
   2.3
   2.3
   Glucose
   137
   148
   176
   222
   166
   149
   58
   94
   137
   128
   Other labs: PT / PTT / INR:14.5/27.3/1.3, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:84.4 %, Band:0.0 %, Lymph:11.6 %,
   Mono:2.9 %, Eos:0.8 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
    # Goals of care:  After family meeting with ICU team [**2-2**], family is
   aware that pt has exhausted medical and surgical treatment options. We
   will not be doing any further surgery, CVVH, blood transfusions,
   pressors.  No new antibiotics.  HD will continue as tolerated by BP
   and we will treat pain as needed.  These goals reassessed and
   reaffirmed on [**2151-2-4**] w/ ethics.    In light of  fact that pt may be
   ready to wean from vent and inability to tolerate any UFV take off HD,
   needs another family mtg early this week.
     # Hypercarbic Respiratory Failure:  Presumably multifactorial and
   related to weakenss, PNA, and obesity/hypoventilation.  There has been
   question about positional nature to trach in the past but last
   evaluation suggested this is not the case.  Sputum from [**1-18**] now grew
   pseudomonas and serratia and on [**9-25**] no longer serratia but with
   providencia and pseudomonas.  He now completed a ten day course of
   treatment for this second set of cultures. Continue pressure support
   for now- per resp may be ready to try a trach mask
   -          Atrovent nebs and prn albuterol nebs
   -          10 days of ceftazidime completed, will not initiate any
   further antibiotic therapies
   #Altered MS: Presumably due to persistent hypotension and morbid
   status.  Monitor for signs of distress
    #Leukocytosis: Patient with increased leukocytosis from [**9-3**] over the
   past two blood draws.  He completed a course of 10 days of ceftazidime
   for his last respiratory isolates but given poor respiratory mechanics,
   no cough, unlikely to ever fully clear respiratory pathogens.  Also
   possible infectious sources in chronic ulcer, degrading ostomy, and
   PICC site.  No further abx indicated.
   # ESRD: HD tomorrow if patient can tolerate and SBP
s >70
   # Hypotension:  Most likely multifactorial with chronic wound
   infection, retracting ostomy and other issues.  Weaned off Levo since
   [**1-18**]. TSH elevated and free T4 low [**1-18**] but likely sick thyroid.
   Cortisol checked and normal.
   -continue midodrine
   -monitor BPs, mentation
   -pressors no longer indicated. Not bolusing with fluids
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Bridge removed during 1st week of [**Month (only) 1088**] and some necrosis around
   site.  Site is failing but no options for further surgery.  If
   collapses into abdomen will most likely lead to massive stool
   contamination and sepsis.
   -continue ostomy care
   -f/u surgery reccs
   # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Plastics
   debrided extensively [**1-20**] and placed wound vac.  Debrided again [**1-29**].
   - Cont current wound care incl wound vac changes MWF
   - Pain control with 100 mcg fentanyl patch , lidocaine patches and
   morphine IV PRN. Nursing aware that we are now treating all pain with
   morphine PRN and not holding off on treating pain for low BP.
   # Anemia: Hct down to 18 yesterday.   No longer getting Epo with HD per
   renal.  Transfusion no longer indicated.
   # Hyperglycemia: Patient persistently hyperglycemic with BG
s in
   200
s-300
s.  On glargine plus ISS. .
   # Depression: The patient has been showing decreased interest and signs
   of depression given his current medical situation
   - Cont citalopram 30 mg daily
   - Social work following
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity
   -Continue statin , off BB [**1-18**] hypotension
   # Atrial Fibrillation: Patient with tachycardia two days ago presumably
   due to persistent infection/hypotension.  No indication for
   pharmacologic reversal and patient has now reversed on his own.  Not
   anticoagulated given generally morbid prognosis.
   # Osteomyelitis:  No active issues
    -finished meropenem ([**1-11**] was the completion of 6 week course).
   # R BKA/PVD
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   #Prophylaxis: PPI, heparin SC
   # Disposition: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-2-14**] 12:27 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition:ICU

2151-02-14 10:13:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-2-14**] 09:00 AM
   Morphine Sulfate - [**2151-2-14**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-14**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 85 (74 - 92) bpm
   BP: 95/49(57) {66/29(38) - 95/52(181)} mmHg
   RR: 31 (12 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  1,297 mL
                                                                    599 mL
   PO:
                  TF:
                                                                  1,207 mL
                                                                    509 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,220 mL
                                                                    200 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     77 mL
                                                                    399 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 388 (342 - 455) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 87
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 9.3 L/min
   Physical Examination
   Gen: trached, eyes open shajkes head yes/no to query
   CV: RR
   Chest: poor air movement
   Abd: soft  NT +BS
   Ext: right AKA
   Labs / Radiology
   5.2 g/dL
   258 K/uL
   128 mg/dL
   2.3 mg/dL
   30 mEq/L
   5.1 mEq/L
   46 mg/dL
   106 mEq/L
   144 mEq/L
   18.6 %
   18.1 K/uL
        [image002.jpg]
                             [**2151-1-30**]  06:13 PM
                             [**2151-1-31**]  02:24 AM
                             [**2151-2-1**]  05:00 AM
                             [**2151-2-1**]  12:47 PM
                             [**2151-2-3**]  04:24 AM
                             [**2151-2-5**]  04:21 AM
                             [**2151-2-7**]  04:47 AM
                             [**2151-2-8**]  04:16 AM
                             [**2151-2-10**]  04:20 AM
                             [**2151-2-12**]  03:34 AM
   WBC
   14.2
   16.4
   16.7
   16.2
   17.2
   14.8
   15.1
   8.8
   18.1
   Hct
   23.5
   23.0
   23.2
   22.4
   22.7
   23.3
   22.9
   20.4
   18.6
   Plt
   190
   259
   279
   291
   324
   337
   375
   265
   258
   Cr
   1.1
   1.4
   2.2
   2.3
   2.1
   2.3
   2.0
   2.6
   2.3
   2.3
   Glucose
   137
   148
   176
   222
   166
   149
   58
   94
   137
   128
   Other labs: PT / PTT / INR:14.5/27.3/1.3, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:84.4 %, Band:0.0 %, Lymph:11.6 %,
   Mono:2.9 %, Eos:0.8 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 HYPOTENSION (NOT SHOCK)
   Mr [**Known lastname 6547**] remains critically ill but goals are no escalation of care
   after family and ethics consultations.
   Overall fever curve back up today. Will have repeat labs in AM to
   reassess for Leukocytosis.
   We will continue to make his comfort our primary goal of care and
   discuss with nephrology colleagues will advise regarding role for any
   further HD as hemodyanmics can allow. He has been running even for
   days.
   His wounds have progressed and he does have pain with dressing changes.
   We will use narcotic analgesia as needed for comfort.
   Needs repeat family and ethics input this week on goals of care
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2151-2-14**] 12:27 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT: SC hep
   Stress ulcer: PPI
   VAP: chlorhex HOB
   Communication:  not yet today with family
 awaiting to come in
   Code status: Full code
   Disposition :ICU
   Total time spent:

2151-02-15 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 75 yo M with chronic respiratory failure with trach,
   COPD, ESRD, DM 2, infected stage IV coccygeal ulcer, and multiple prior
   VAPs/HAPs with complicated hospital course who now was transferred
   again to the [**Hospital Unit Name 44**] for hypercarbic respiratory failure now s/p diverting
   colostomy to allow for healing of his coccygeal ulcer.
   24 Hour Events:
 FEVER - 211.3
C - [**2151-2-15**] 12:00 AM
   - had some bleeding from deep soft tissue at ostomy site (~200cc
   total).  surgery called and able to achieve hemostasis with stitches
   - had potassium of 6.9 on a.m. of [**2-15**], got insulin and 2 amps D50, no
   ekg changes, renal notified and will dialyze early.
   -Plan: patient is currently not being screened for rehab and we are
   implicitly awaiting his decline and death.  we are not excalating his
   care so we're not doing things like blood transfusions, CVVH, or
   starting new antibx.  ?dispo to chronic vent facility.  also, at HD, no
   fluid being taken off b/c BPs don't tolerate, and colostomy is close to
   collapsing, an event that would likely be catastrophic.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2151-2-14**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2151-2-14**] 03:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-15**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 99.6
C (211.3
   Tcurrent: 98.8
C (209.8
   HR: 80 (72 - 92) bpm
   BP: 97/37(52) {75/36(45) - 99/49(181)} mmHg
   RR: 21 (13 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
                  Total In:
                                                                  1,141 mL
                  PO:
                  TF:
                                                                  1,011 mL
   IVF:
   Blood products:
   Total out:
                                                                    350 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    791 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 440 (388 - 440) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 90
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: No(t) Endotracheal tube
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   276 K/uL
   6.0 g/dL
   114 mg/dL
   2.6 mg/dL
   32 mEq/L
   6.9 mEq/L
   53 mg/dL
   106 mEq/L
   146 mEq/L
   21.3 %
   16.3 K/uL
        [image002.jpg]
                             [**2151-1-31**]  02:24 AM
                             [**2151-2-1**]  05:00 AM
                             [**2151-2-1**]  12:47 PM
                             [**2151-2-3**]  04:24 AM
                             [**2151-2-5**]  04:21 AM
                             [**2151-2-7**]  04:47 AM
                             [**2151-2-8**]  04:16 AM
                             [**2151-2-10**]  04:20 AM
                             [**2151-2-12**]  03:34 AM
                             [**2151-2-15**]  04:00 AM
   WBC
   14.2
   16.4
   16.7
   16.2
   17.2
   14.8
   15.1
   8.8
   18.1
   16.3
   Hct
   23.5
   23.0
   23.2
   22.4
   22.7
   23.3
   22.9
   20.4
   18.6
   21.3
   Plt
   190
   259
   279
   291
   324
   337
   375
   265
   258
   276
   Cr
   1.4
   2.2
   2.3
   2.1
   2.3
   2.0
   2.6
   2.3
   2.3
   2.6
   Glucose
   148
   176
   222
   166
   149
   58
   94
   137
   128
   114
   Other labs: PT / PTT / INR:13.8/32.2/1.2, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:89.0 %, Band:0.0 %, Lymph:7.0 %,
   Mono:1.0 %, Eos:2.0 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:6.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
   # Goals of care:  After family meeting with ICU team [**2-2**], family is
   aware that pt has exhausted medical and surgical treatment options. We
   will not be doing any further surgery, CVVH, blood transfusions,
   pressors.  No new antibiotics.  HD will continue as tolerated by BP
   and we will treat pain as needed.  These goals reassessed and
   reaffirmed on [**2151-2-4**] w/ ethics.    In light of  fact that pt may be
   ready to wean from vent and inability to tolerate any UFV take off HD,
   needs another family mtg early this week.
    # Hypercarbic Respiratory Failure:  Presumably multifactorial and
   related to weakenss, PNA, and obesity/hypoventilation.  There has been
   question about positional nature to trach in the past but last
   evaluation suggested this is not the case.  Sputum from [**1-18**] now grew
   pseudomonas and serratia and on [**9-25**] no longer serratia but with
   providencia and pseudomonas.  He now completed a ten day course of
   treatment for this second set of cultures. Continue pressure support
   for now- per resp may be ready to try a trach mask
   -          Atrovent nebs and prn albuterol nebs
   -          10 days of ceftazidime completed, will not initiate any
   further antibiotic therapies
   # Altered MS: Presumably due to persistent hypotension and morbid
   status.  Monitor for signs of distress
   #Leukocytosis: Patient with increased leukocytosis from [**9-3**] over the
   past two blood draws.  He completed a course of 10 days of ceftazidime
   for his last respiratory isolates but given poor respiratory mechanics,
   no cough, unlikely to ever fully clear respiratory pathogens.  Also
   possible infectious sources in chronic ulcer, degrading ostomy, and
   PICC site.  No further abx indicated.
   # ESRD: HD tomorrow if patient can tolerate and SBP
s >70
   # Hypotension:  Most likely multifactorial with chronic wound
   infection, retracting ostomy and other issues.  Weaned off Levo since
   [**1-18**]. TSH elevated and free T4 low [**1-18**] but likely sick thyroid.
   Cortisol checked and normal.
   -continue midodrine
   -monitor BPs, mentation
   -pressors no longer indicated. Not bolusing with fluids
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Bridge removed during 1st week of [**Month (only) 1088**] and some necrosis around
   site.  Site is failing but no options for further surgery.  If
   collapses into abdomen will most likely lead to massive stool
   contamination and sepsis.
   -continue ostomy care
   -f/u surgery reccs
   # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Plastics
   debrided extensively [**1-20**] and placed wound vac.  Debrided again [**1-29**].
   - Cont current wound care incl wound vac changes MWF
   - Pain control with 100 mcg fentanyl patch , lidocaine patches and
   morphine IV PRN. Nursing aware that we are now treating all pain with
   morphine PRN and not holding off on treating pain for low BP.
   # Anemia: Hct down to 18 yesterday.   No longer getting Epo with HD per
   renal.  Transfusion no longer indicated.
   # Hyperglycemia: Patient persistently hyperglycemic with BG
s in
   200
s-300
s.  On glargine plus ISS. .
   # Depression: The patient has been showing decreased interest and signs
   of depression given his current medical situation
   - Cont citalopram 30 mg daily
   - Social work following
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity
   -Continue statin , off BB [**1-18**] hypotension
   # Atrial Fibrillation: Patient with tachycardia two days ago presumably
   due to persistent infection/hypotension.  No indication for
   pharmacologic reversal and patient has now reversed on his own.  Not
   anticoagulated given generally morbid prognosis.
   # Osteomyelitis:  No active issues
    -finished meropenem ([**1-11**] was the completion of 6 week course).
   # R BKA/PVD
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   #Prophylaxis: PPI, heparin SC
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT:  heparin sc
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  DNI/DNR
   Disposition: ICU
   ------ Protected Section ------
   Addendum to Dr [**Last Name (STitle) 8278**]
s note:
   Due to SBP <70 this AM, cannot undergo HD. Will discuss stopping HD
   completely with renal and the family.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2151-2-15**] 12:36 ------

2151-02-16 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 75 yo M with chronic respiratory failure with trach,
   COPD, ESRD, DM 2, infected stage IV coccygeal ulcer, and multiple prior
   VAPs/HAPs with complicated hospital course who now was transferred
   again to the [**Hospital Unit Name 44**] for hypercarbic respiratory failure now s/p diverting
   colostomy to allow for healing of his coccygeal ulcer.
   24 Hour Events:
 FEVER - 210.7
C - [**2151-2-15**] 05:00 PM
   [**2-14**]
   - had some bleeding from deep soft tissue at ostomy site (~200cc
   total).  surgery called and able to achieve hemostasis with stitches
   -Plan: patient is currently not being screened for rehab and we are
   implicitly awaiting his decline and death.  we are not excalating his
   care so we're not doing things like blood transfusions, CVVH, or
   starting new antibx.  ?dispo to chronic vent facility.  also, at HD, no
   fluid being taken off b/c BPs don't tolerate, and colostomy is close to
   collapsing, an event that would likely be catastrophic.
   ______________________________________
   [**2-15**]
   - made CMO, stopped TF, stopped labs
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Morphine Sulfate - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-2-15**] 05:10 PM
   Lansoprazole (Prevacid) - [**2151-2-15**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-16**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 99.3
C (210.7
   Tcurrent: 98.8
C (209.8
   HR: 81 (72 - 84) bpm
   BP: 76/39(47) {64/33(43) - 111/69(77)} mmHg
   RR: 14 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                    945 mL
                                                                     22 mL
   PO:
             TF:
                                                                    820 mL
   IVF:
   22 mL
   Blood products:
   Total out:
                                                                    575 mL
                                                                    250 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    370 mL
                                                                   -228 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 404 (289 - 447) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: CMO
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 6.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   276 K/uL
   6.0 g/dL
   114 mg/dL
   2.6 mg/dL
   32 mEq/L
   6.9 mEq/L
   53 mg/dL
   106 mEq/L
   146 mEq/L
   21.3 %
   16.3 K/uL
        [image002.jpg]
                             [**2151-1-31**]  02:24 AM
                             [**2151-2-1**]  05:00 AM
                             [**2151-2-1**]  12:47 PM
                             [**2151-2-3**]  04:24 AM
                             [**2151-2-5**]  04:21 AM
                             [**2151-2-7**]  04:47 AM
                             [**2151-2-8**]  04:16 AM
                             [**2151-2-10**]  04:20 AM
                             [**2151-2-12**]  03:34 AM
                             [**2151-2-15**]  04:00 AM
   WBC
   14.2
   16.4
   16.7
   16.2
   17.2
   14.8
   15.1
   8.8
   18.1
   16.3
   Hct
   23.5
   23.0
   23.2
   22.4
   22.7
   23.3
   22.9
   20.4
   18.6
   21.3
   Plt
   190
   259
   279
   291
   324
   337
   375
   265
   258
   276
   Cr
   1.4
   2.2
   2.3
   2.1
   2.3
   2.0
   2.6
   2.3
   2.3
   2.6
   Glucose
   148
   176
   222
   166
   149
   58
   94
   137
   128
   114
   Other labs: PT / PTT / INR:13.8/32.2/1.2, ALT / AST:[**3-24**], Alk Phos / T
   Bili:105/0.1, Differential-Neuts:89.0 %, Band:0.0 %, Lymph:7.0 %,
   Mono:1.0 %, Eos:2.0 %, Lactic Acid:1.6 mmol/L, Albumin:1.5 g/dL, LDH:99
   IU/L, Ca++:6.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.
   # Goals of care:  After family meeting with ICU team [**2-2**], family is
   aware that pt has exhausted medical and surgical treatment options. We
   will not be doing any further surgery, CVVH, blood transfusions,
   pressors.  No new antibiotics.  HD will continue as tolerated by BP
   and we will treat pain as needed.  These goals reassessed and
   reaffirmed on [**2151-2-4**] w/ ethics.    In light of  fact that pt may be
   ready to wean from vent and inability to tolerate any UFV take off HD,
   needs another family mtg early this week.
    # Hypercarbic Respiratory Failure:  Presumably multifactorial and
   related to weakenss, PNA, and obesity/hypoventilation.  There has been
   question about positional nature to trach in the past but last
   evaluation suggested this is not the case.  Sputum from [**1-18**] now grew
   pseudomonas and serratia and on [**9-25**] no longer serratia but with
   providencia and pseudomonas.  He now completed a ten day course of
   treatment for this second set of cultures. Continue pressure support
   for now- per resp may be ready to try a trach mask
   -          Atrovent nebs and prn albuterol nebs
   -          10 days of ceftazidime completed, will not initiate any
   further antibiotic therapies
   # Altered MS: Presumably due to persistent hypotension and morbid
   status.  Monitor for signs of distress
   #Leukocytosis: Patient with increased leukocytosis from [**9-3**] over the
   past two blood draws.  He completed a course of 10 days of ceftazidime
   for his last respiratory isolates but given poor respiratory mechanics,
   no cough, unlikely to ever fully clear respiratory pathogens.  Also
   possible infectious sources in chronic ulcer, degrading ostomy, and
   PICC site.  No further abx indicated.
   # ESRD: No plan for additional HD HD.
   # Hypotension:  Most likely multifactorial with chronic wound
   infection, retracting ostomy and other issues.  Weaned off Levo since
   [**1-18**]. TSH elevated and free T4 low [**1-18**] but likely sick thyroid.
   Cortisol checked and normal.
   -continue midodrine
   -monitor BPs, mentation
   -pressors no longer indicated. Not bolusing with fluids
   # S/P Diverting Colostomy: Patient had diverting colostomy on [**1-6**].
   Bridge removed during 1st week of [**Month (only) 1088**] and some necrosis around
   site.  Site is failing but no options for further surgery.  If
   collapses into abdomen will most likely lead to massive stool
   contamination and sepsis.
   -continue ostomy care
   -f/u surgery reccs
   # Stage IV coccygeal ulcer: s/p  diverting colostomy [**1-6**]. Plastics
   debrided extensively [**1-20**] and placed wound vac.  Debrided again [**1-29**].
   - Cont current wound care incl wound vac changes MWF
   - Pain control with 100 mcg fentanyl patch , lidocaine patches and
   morphine IV PRN. Nursing aware that we are now treating all pain with
   morphine PRN and not holding off on treating pain for low BP.
   # Anemia: Hct down to 18 yesterday.   No longer getting Epo with HD per
   renal.  Transfusion no longer indicated.
   # Hyperglycemia: Patient persistently hyperglycemic with BG
s in
   200
s-300
s.  On glargine plus ISS. .
   # Depression: The patient has been showing decreased interest and signs
   of depression given his current medical situation
   - Cont citalopram 30 mg daily
   - Social work following
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity
   -Continue statin , off BB [**1-18**] hypotension
   # Atrial Fibrillation: Patient with tachycardia two days ago presumably
   due to persistent infection/hypotension.  No indication for
   pharmacologic reversal and patient has now reversed on his own.  Not
   anticoagulated given generally morbid prognosis.
   # Osteomyelitis:  No active issues
    -finished meropenem ([**1-11**] was the completion of 6 week course).
   # R BKA/PVD
   - Continue current wound care
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating lymphoid tissue
   with quiescent germinal centers.
   #Prophylaxis: PPI, heparin SC
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-02-17 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.  Now too hemodynamically
   unstable to continue HD thus made [**Hospital Unit Name 617**].
   24 Hour Events:
   No events.
   Allergies:
   Penicillins, Sulfa (Sulfonamides)
   Infusions:
   Morphine Sulfate - 10 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-2-16**] 08:21 PM
   Other medications:
   1. Lidocaine 5% Patch 3 PTCH TD Q24
   2. Acetaminophen 325-650 mg PO/NG Q6H:PRN
   3. Morphine Sulfate 5-10 mg/hr IV DRIP INFUSION
   4. Albuterol MDI and NEB prn
   5. Ondansetron 4 mg IV Q8H:PRN
   6. Chlorhexidine Rinse 15 ml ORAL [**Hospital1 **]
   7. Fentanyl Patch 100 mcg/hr TP Q72H
   8. Fentanyl Citrate 50 mcg IV Q6H:PRN
   Flowsheet Data as of  [**2151-2-17**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 98
C (208.4
   Tcurrent: 98
C (208.4
   HR: 80 (73 - 86) bpm
   BP: 72/31(40) {62/27(38) - 88/52(76)} mmHg
   RR: 12 (9 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 117.6 kg
             Total In:
                                                                    241 mL
                                                                     68 mL
   PO:
             TF:
   IVF:
                                                                    181 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                    250 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -9 mL
                                                                     68 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 437 (380 - 548) mL
   PS : 15 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: [**Year (4 digits) 617**]
   SpO2: 98%
   ABG: ////
   Ve: 5.1 L/min
   Physical Examination
   Neurologic: Intermittently arousable
   CV: RRR S1, S2 normal
   PULM: CTAB anteriorly
   ABD: Soft, NT/ND, ostomy in place
   EXTR: warm
   Labs / Radiology: not being drawn.
   Assessment and Plan
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now was transferred again to the [**Hospital Unit Name 44**]
   for hypercarbic respiratory failure now s/p diverting colostomy to
   allow for healing of his coccygeal ulcer.  Now too hemodynamically
   unstable to continue HD thus made [**Hospital Unit Name 617**].
   # Goals of care:  After family meeting with ICU team [**2-2**], family is
   aware that pt has exhausted medical and surgical treatment options. We
   will not be doing any further surgery, CVVH, blood transfusions,
   pressors.  No new antibiotics.  Second family meeting held on [**2151-2-15**] to
   discuss further goals of care, pt
s family decided to make pt [**Name (NI) 617**], no
   longer will have HD as BP
s will not tolerate.
   - continue pain and nausea control
   # Disposition: ICU
   ICU Care
   Nutrition: stopped
   Glycemic Control: None
   Lines:
   PICC Line - [**2150-12-29**] 06:34 AM
   Dialysis Catheter - [**2150-12-29**] 06:39 AM
   Prophylaxis:  none
   Code status: [**Year (4 digits) 617**]